2146-01-31 11:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt received 6L IVF, urine output remaining stable. Still requiring
   pressors. CTA showed no PE, but showed very extensive necrotizing and
   hemorrhagic pancreatitis. Surgery following.
 INVASIVE VENTILATION - START [**2146-1-31**] 02:40 AM
 PICC LINE - START [**2146-1-31**] 03:00 AM
   right brachial accessory
 MULTI LUMEN - START [**2146-1-31**] 03:10 AM
 ARTERIAL LINE - START [**2146-1-31**] 03:15 AM
 PICC LINE - STOP [**2146-1-31**] 06:23 AM
   right brachial accessory
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Vancomycin - [**2146-1-31**] 06:43 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-1-31**] 06:43 AM
   Fluconazole - [**2146-1-31**] 09:54 AM
   Infusions:
   Fentanyl - 350 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2146-1-31**] 02:25 AM
   Vecuronium - [**2146-1-31**] 03:30 AM
   Midazolam (Versed) - [**2146-1-31**] 04:18 AM
   Fentanyl - [**2146-1-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-31**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.8
C (100
   HR: 147 (115 - 160) bpm
   BP: 101/28(45) {101/28(45) - 115/63(75)} mmHg
   RR: 34 (19 - 50) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 11 (11 - 12)mmHg
   Total In:
                                                                  9,336 mL
   PO:
   TF:
   IVF:
                                                                  9,266 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    970 mL
   Urine:
                                                                    690 mL
   NG:
                                                                    280 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  8,366 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 689 (500 - 689) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 166.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.39/29/150/17/-5
   Ve: 19.9 L/min
   PaO2 / FiO2: 300
   Physical Examination
   GENERAL: overweight man, intubated, sedated
   HEENT:  + scleral icterus. Pupils are equal and reactive b/l.  MMM. OP
   clear. Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular tachycardia. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 4808**].
   LUNGS: Good air movement biaterally;
   ABDOMEN:  Obese with striae. Soft, distended, no audible bowels sounds,
   mild ecchymoses on left flank
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes.
   NEURO: sedated
   Labs / Radiology
   620 K/uL
   10.6 g/dL
   173 mg/dL
   1.0 mg/dL
   17 mEq/L
   5.6 mEq/L
   25 mg/dL
   106 mEq/L
   134 mEq/L
   33.9 %
   64.1 K/uL
        [image002.jpg]
                             [**2146-1-31**]  02:43 AM
                             [**2146-1-31**]  03:10 AM
                             [**2146-1-31**]  04:35 AM
                             [**2146-1-31**]  04:54 AM
                             [**2146-1-31**]  06:44 AM
   WBC
   46.9
   64.1
   Hct
   36.5
   33.9
   Plt
   583
   620
   Cr
   1.0
   1.0
   TropT
   <0.01
   TCO2
   22
   17
   18
   Glucose
   345
   173
   Other labs: PT / PTT / INR:19.1/28.9/1.7, CK / CKMB /
   Troponin-T:/2/<0.01, ALT / AST:92/91, Alk Phos / T Bili:73/2.7,
   Differential-Neuts:76.0 %, Band:10.0 %, Lymph:4.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:498 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presents
   with acute hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Pt had acute onset of tachycardia,
   tachypnea and hypoxia, with 02 sats in 80's on NC and NRB. Pt intubated
   for hypoxia, tachypnea to 50s, with concern for imminent fatigue. CTA
   did not show PE..
   Etiology of resp failure is most likely sepsis with lactic acidosis and
   respiratory compensation with tachypnea. Restrictive physiology may be
   also contributing, in setting of obesity and abdominal distention.
   There is concern for developing ARDS given severity of pancreatitis,
   but Pa-2/Fi02 now within stable range.
   - maintain on AC with ARDSnet settings: VT 6cc/kg, goal Pa02>60,
   plateua pressure<30, permissive hypercapnea
   - wean Fi02 as tolerated
   - increase PEEP to 15 to prevent further collapse within low lung
   volumes, monitor for e/o autoPEEP
   .
   # Leukocytosis: WBC 46 from 26 in past 24 hours. Also has reactive
   thrombocytosis. Fever 101 this AM. Most likely due to severe
   necrotizing pancreatitis, possibly c/b bacterial translocation into
   bloodstream and sepsis. C. dif neg. Pt also has PICC in place, so there
   is mild concern for line infection.
   - empiric Zosyn 4.5 gIV q8h, vancomycin 1g q12 and fluconazole 400 mg
   daily
   - monitor fever curve and WBC/diff
   - blood cx, urine cx, sputum cx
   .
   # Necrotizing pancreatitis:
   Pt currently stable with decreasing LFTs and bili. Persistent abdominal
   pain may have been [**3-1**] narcotics causing sphincter of Oddi contractions
   vs. worsening of pancreatitis as seen on CT. Pt has distributive shock
   [**3-1**] 3rd spacing and likely sepsis.
   - aggressive IVF (4L overnight) for goal UOP>30cc/hr, MAP>65
   - fluid replete with D5W with 3 amp biacrb in between liters of NS
   (held off LR because hyperkalemia)
   - consider albumin as per surgery team
   - trend lactate
   - appreciate surgery recs
   - OGT to suction
   - trend LFTs
   - HISS, monitor fingersticks and consider long acting insulin/insulin
   drip if poorly controlled
   - monitor ionized Ca and replete prn
   - follow bladder pressure as a measure of intra-ab
   distention/compartment syndrome
   - check TG (blood sample lipemic)
   - check B-glucan
   .
   # Hypotension: currently on levophed, likely [**3-1**] sepsis, narcotics and
   sedation. BP responding to IVF boluses.
   - IVF as above, wean levophed as tolerated for MAP>65
   .
   # Tachycardia: Sinus tachy to 160s this AM after repositioning. Tachy
   likely mutlifactorial in setting of pain, fever, infection.
   - control fever with Tylenol/Motrin prn
   - pain control with increased Fentayl
   .
   #. hyponatremia: most likely hypovolemic given rest of picture and
   resolution with IVF.
   - monitor with ongoing resusitation
   .
   # Coagulopathy:
   Likely due to vitamin K deficiency from poor nutrition and recent
   antibiotics.
   - monitor coags
   - replete Vitamin K prn, monitor for signs of bleeding
   ICU Care
   Nutrition: NPO, discuss restarting trophic TF and TPN with surgery
   Glycemic Control: HISS
   Lines:
   Multi Lumen - [**2146-1-31**] 03:10 AM (L SC)
   Arterial Line - [**2146-1-31**] 03:15 AM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: patient and wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   [**Name2 (NI) 156**] status: Full code
   Disposition: ICU

2146-02-01 07:56:00 Physician Resident Progress Note
Chief Complaint: necrotizing pancreatitis, hypoxic respiratory failure
   24 Hour Events:
 SPUTUM CULTURE - At [**2146-1-31**] 08:30 AM
 ARTERIAL LINE - STOP [**2146-1-31**] 04:00 PM
 ARTERIAL LINE - START [**2146-1-31**] 04:00 PM
 ERCP - At [**2146-1-31**] 06:22 PM
 FEVER - 101.6
F - [**2146-2-1**] 04:00 AM
   - ARDSnet protocol, increasing PEEP, oxygenation stable, PaO2 ~80 on
   PEEP 18, FiO2 60 (current)
   - infected pseudocyst vs. cholangitis
   - receiving multiple fluid bolues, LR and NS
   - decision made for ERCP for eval of cholangitis -> no evidence of
   cholangitis, difficult to pass scope [**3-1**] edema
   - worsening oxygenation peri-procedure, increased to 100% FiO2
   - phenylephrine transiently during ERCP, back on levo 0.5, stable
   - plan for CT-guided aspirate of phlegmon with initial gram stain -> if
   (+), consideration for OR later tomorrow
   - paralyzed overnight with cisatracurium to improve synchrony with vent
   - pCO2 trended up, increased tidal volume to 450 cc
   - FFP x 3 for aspiratio
   - a-line clotted off this morning
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsMorphine
   hot
   sweating
   Last dose of Antibiotics:
   Fluconazole - [**2146-1-31**] 09:54 AM
   Vancomycin - [**2146-1-31**] 10:51 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-1**] 01:30 AM
   Infusions:
   Cisatracurium - 0.06 mg/Kg/hour
   Midazolam (Versed) - 20 mg/hour
   Fentanyl - 500 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-1-31**] 08:30 AM
   Midazolam (Versed) - [**2146-1-31**] 11:20 AM
   Fentanyl - [**2146-1-31**] 11:30 AM
   Heparin Sodium (Prophylaxis) - [**2146-2-1**] 01:31 AM
   Other medications:
   Changes to medical and family history:
   unable to obtain [**3-1**] sedation
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2146-2-1**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.2
C (100.7
   HR: 137 (137 - 160) bpm
   BP: 112/67(77) {81/45(59) - 129/72(81)} mmHg
   RR: 30 (18 - 36) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 127.9 kg (admission): 143 kg
    CVP: 11 (11 - 11)mmHg
   Bladder pressure: 12 (9 - 17) mmHg
   Total In:
                                                                 16,423 mL
                                                                  3,900 mL
   PO:
   TF:
   IVF:
                                                                 16,353 mL
                                                                  3,114 mL
   Blood products:
                                                                    786 mL
   Total out:
                                                                  2,060 mL
                                                                    695 mL
   Urine:
                                                                  1,410 mL
                                                                    695 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                 14,363 mL
                                                                  3,205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: VOL/AC
   Vt (Set): 450 (400 - 500) mL
   Vt (Spontaneous): 0 (0 - 689) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 36 cmH2O
   Plateau: 33 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 94%
   ABG: 7.35/58/72/28/3
   Ve: 13.7 L/min
   PaO2 / FiO2: 120
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Diaphoretic
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Bowel sounds present, Distended, Obese, tense
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   523 K/uL
   10.1 g/dL
   160 mg/dL
   1.4 mg/dL
   28 mEq/L
   5.4 mEq/L
   29 mg/dL
   99 mEq/L
   136 mEq/L
   32.9 %
   69.4 K/uL
        [image002.jpg]
                             [**2146-1-31**]  03:58 PM
                             [**2146-1-31**]  04:15 PM
                             [**2146-1-31**]  07:31 PM
                             [**2146-1-31**]  07:32 PM
                             [**2146-1-31**]  10:10 PM
                             [**2146-2-1**]  12:26 AM
                             [**2146-2-1**]  12:45 AM
                             [**2146-2-1**]  02:06 AM
                             [**2146-2-1**]  06:06 AM
                             [**2146-2-1**]  06:15 AM
   WBC
   63.5
   75.4
   75.6
   69.4
   Hct
   28.5
   33.4
   32.6
   32.9
   Plt
   532
   594
   582
   523
   Cr
   1.2
   1.2
   1.2
   1.4
   TCO2
   28
   27
   32
   33
   32
   33
   Glucose
   103
   122
   298
   160
   Other labs: PT / PTT / INR:19.4/35.2/1.8, CK / CKMB /
   Troponin-T:/2/<0.01, ALT / AST:54/55, Alk Phos / T Bili:87/2.6, Amylase
   / Lipase:225/86, Differential-Neuts:85.0 %, Band:2.0 %, Lymph:3.0 %,
   Mono:7.0 %, Eos:1.0 %, Fibrinogen:257 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:1.7 g/dL, LDH:672 IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:5.8
   mg/dL
   Imaging: CT torso [**2146-1-31**]:
   1. Interval increased size of peripancreatic fluid collections which
   also
   demonstrate foci of high density consistent with hemorrhage. The
   necrotizing
   pancreatitis demonstrates a stable amount of nonenhancing pancreatic
   body and
   head.
   2. Slight interval increase in intra- and extra-hepatic biliary
   dilatation.
   3. Diffusely diminished caliber of arterial and venous structures
   consistent
   with global hypovolemia.
   4. Stable splenic infarcts.
   5. No evidence of pulmonary embolism.
   6. Bilateral dependent atelectasis is favored over pneumonia.
   7. Small bilateral pleural effusions
   Microbiology: endotracheal sputum:
   GRAM STAIN (Final [**2146-1-31**]):
         [**11-21**] PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
         1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE
   ASSESSMENT AND PLAN:  28yo M w/ gallstone pancreatitis c/b necrosis and
   pseudocyst presented with acute hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Pt had acute onset of tachycardia,
   tachypnea and hypoxia, with 02 sats in 80's on NC and NRB. Lack of
   improvement on 02 sat and low p02 on NRB intially suggested shunt
   physiology. CXR unremarkable for any acute infiltrate or PTX. Acute
   onset of these symptoms was concerning for PE, and patient does have
   risk factors (recent surgery, immobilization [**3-1**] pain). CTA however did
   not show PE. Pt intubated for hypoxia, tachypnea to 50s, with concern
   for imminent fatigue.
   Etiology of resp failure is most likely sepsis and ARD. Restrictive
   physiology likely contributed, in setting of obesity and abdominal
   distention.   Progression to ARDS given severity of necrotizing
   pancreatitis.
   - maintain on AC with ARDSnet settings: VT 6cc/kg now at 450 cc, goal
   Pa02>60, plateua pressure<30, permissive hypercapnea.  Esophageal
   balloon suggests under-PEEPing, can increase current PEEP of 18 to21
   - cont ARDSnet, switch settings to Pressure Control
   - will need replacement of a-line
   - cont paralysis with cisatracurium, sedation with fent and midaz
   .
   # Necrotizing pancreatitis:  Pt currently stable with decreasing LFTs
   and bili. Persistent abdominal pain may have been [**3-1**] narcotics causing
   sphincter of Oddi contractions vs. worsening of pancreatitis as seen on
   CT. Pt has distributive shock [**3-1**] 3rd spacing and likely sepsis.
   Patient also has significant leukocytosis and reactive thrombocytosis.
   Most likely due to severe necrotizing pancreatitis, possibly c/b
   bacterial translocation into bloodstream and sepsis. C. dif (-), no
   evidence of C. diff colitis on sigmoidoscopy.
   - cont aggressive IVF for goal UOP>50-100 cc/hr, MAP>65
   - trend lactate
   - appreciate surgery recs -> plan for bedside ultrasound-guided
   aspirate and possible drain placement
   - if gram stain (+), consideration for OR later today; if (-), likely
   continue supportive measures
   - OGT to suction
   - trend LFTs
   - monitor fingersticks and consider long acting insulin/insulin drip if
   poorly controlled -> will transition to insulin gtt
   - monitor ionized Ca and replete prn
   - empiric Zosyn 4.5 gIV q8h, cont vanc, fluconazole -> vanc trough
   morning of [**2-2**]
   - trend WBC, diff -> bandemia improving
   - blood cx, urine cx, sputum cx, C. diff (-)
   .
   # [**Last Name (un) **]
 likely prerenal given septic shock, hypotension.  Could have
   component of ATN
   - check urine lytes
   - cont to titrate fluid resuscitation to UOP
   - renally dose meds, avoid nephrotoxins
   .
   # Coagulopathy:  Likely due to vitamin K deficiency from poor nutrition
   and recent antibiotics.  No evidence of DIC.
   - monitor coags, including fibrinogen
   - vitamin K 10 mg IV x 1
   .
   # Hypotension: currently on levophed, likely [**3-1**] sepsis, exacerbated
   slightly by narcotics and sedation.
   - IVF as above, wean levophed as tolerated for MAP>65
   - phenylephrine as second [**Doctor Last Name **] if needed; avoid dopa given tachycardia
   .
   #. Hyponatremia: most likely hypovolemic hyponatremia.
   - IVF, trend Na
   .
   # FEN:  NPO, NGT to suction
   .
   # PPX:
   -DVT ppx with subQ heparin
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L SCL, PIVs, consider placing right IJ
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-1-31**] 03:10 AM
   Arterial Line - [**2146-1-31**] 04:00 PM
   18 Gauge - [**2146-1-31**] 10:54 PM
   20 Gauge - [**2146-2-1**] 03:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-02 07:58:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp failure, necrotizing pancreatitis
   24 Hour Events:
 ARTERIAL LINE - START [**2146-2-1**] 08:17 PM
   maintained pretty good UOP
   -Permissive hypercarbia ok at 59 so we let him ride on his vent
   settings
   - pancreatic drain in place, draining, no bugs
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Fluconazole - [**2146-1-31**] 09:54 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-2**] 07:32 AM
   Vancomycin - [**2146-2-2**] 07:52 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Insulin - Regular - 0.5 units/hour
   Fentanyl - 497.9 mcg/hour
   Cisatracurium - 0.08 mg/Kg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-2**] 07:38 AM
   Heparin Sodium (Prophylaxis) - [**2146-2-2**] 07:38 AM
   Other medications:
   Changes to medical and family history:
   intubated and sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2146-2-2**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.3
C (101
   Tcurrent: 38.2
C (100.8
   HR: 129 (119 - 138) bpm
   BP: 96/49(63) {80/37(51) - 112/57(73)} mmHg
   RR: 30 (0 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 127.9 kg (admission): 143 kg
    CVP: 10 (10 - 12)mmHg
   Bladder pressure: 11 (11 - 12) mmHg
                                Total In:
                                                                 10,708 mL
                                                                  1,959 mL
   PO:
                                TF:
   IVF:
                                                                  9,477 mL
                                                                  1,679 mL
   Blood products:
                                                                  1,231 mL
                                                                    280 mL
   Total out:
                                                                  2,630 mL
                                                                    785 mL
   Urine:
                                                                  1,470 mL
                                                                    495 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
                                                                    660 mL
                                                                    290 mL
   Balance:
                                                                  8,078 mL
                                                                  1,174 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 21 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 34 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.30/56/95.[**Numeric Identifier 253**]/26/0
   Ve: 12.9 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, tense, quiet BS
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   334 K/uL
   10.0 g/dL
   124 mg/dL
   1.4 mg/dL
   26 mEq/L
   5.3 mEq/L
   38 mg/dL
   102 mEq/L
   137 mEq/L
   31.1 %
   52.2 K/uL
        [image002.jpg]
                             [**2146-2-1**]  06:15 AM
                             [**2146-2-1**]  10:39 AM
                             [**2146-2-1**]  11:21 AM
                             [**2146-2-1**]  02:58 PM
                             [**2146-2-1**]  08:59 PM
                             [**2146-2-1**]  09:58 PM
                             [**2146-2-2**]  02:24 AM
                             [**2146-2-2**]  02:42 AM
                             [**2146-2-2**]  05:46 AM
                             [**2146-2-2**]  06:07 AM
   WBC
   60.1
   70.2
   59.5
   52.2
   Hct
   27.0
   28.4
   29.0
   31.1
   31.1
   Plt
   444
   469
   354
   334
   Cr
   1.4
   1.3
   1.3
   1.4
   TropT
   <0.01
   TCO2
   33
   31
   30
   30
   29
   Glucose
   170
   146
   167
   124
   Other labs: PT / PTT / INR:19.2/33.5/1.8, CK / CKMB /
   Troponin-T:/2/<0.01, ALT / AST:35/39, Alk Phos / T Bili:84/2.7, Amylase
   / Lipase:225/86, Differential-Neuts:94.0 %, Band:2.0 %, Lymph:1.0 %,
   Mono:2.0 %, Eos:0.0 %, Fibrinogen:580 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:1.7 g/dL, LDH:412 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:5.4
   mg/dL
   ASSESSMENT AND PLAN:  28yo M w/ gallstone pancreatitis c/b necrosis and
   pseudocyst presented with acute hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Pt had acute onset of tachycardia,
   tachypnea and hypoxia, with 02 sats in 80's on NC and NRB. Lack of
   improvement on 02 sat and low p02 on NRB intially suggested shunt
   physiology. CXR unremarkable for any acute infiltrate or PTX. Acute
   onset of these symptoms was concerning for PE, and patient does have
   risk factors (recent surgery, immobilization [**3-1**] pain). CTA however did
   not show PE. Pt intubated for hypoxia, tachypnea to 50s, with concern
   for imminent fatigue.
   Given (-) culture date to date, likely etiology of resp failure is most
   likely distributive shock in setting of necrotizing pancreatitis.
   Restrictive physiology likely contributed, in setting of obesity and
   abdominal distention.   Progression to ARDS given severity of
   necrotizing pancreatitis.
   - maintain on AC with ARDSnet settings: VT 6cc/kg now at 450 cc, goal
   Pa02>60, plateua pressure 31, permissive hypercapnea.  Esophageal
   balloon suggested under-PEEPing, PEEP now at 21, cont to wean as
   tolerated
   - cont ARDSnet, Pressure Control settings
   - pt has axillary line in place
   - cont sedation with fent and midaz
   - will d/c paralysis, monitor for increasing PIP/plateau pressures
   given poor lung compliance, adjust minute ventilation accordingly
   .
   # Necrotizing pancreatitis:  Currently stable LFTs and bili. Persistent
   abdominal pain was likely [**3-1**] worsening of pancreatitis as seen on CT,
   with resultant distributive physiology in setting of inflammation.
   Suggestion of hemorrhage into pseudocyst given drainage.  Patient also
   has significant leukocytosis and reactive thrombocytosis. Most likely
   due to severe necrotizing pancreatitis, C. diff (-), no evidence of C.
   diff colitis on sigmoidoscopy.  Pt now s/p bedside abdominal drain
   placement.
   - cont aggressive IVF for goal UOP>50-100 cc/hr, MAP>65
   - trend lactate
   - appreciate surgery recs -> ? duration of drain placement given
   infectious risk
   - OGT to suction
   - trend LFTs
   - cont insulin gtt
   - monitor ionized Ca and replete prn
   - empiric Zosyn 4.5 gIV q8h, cont vanc, fluconazole -> vanc trough 14.5
   - trend WBC, diff -> bandemia improving
   - blood cx, urine cx, sputum cx, C. diff (-)
   .
   # Hypotension: currently on levophed, likely [**3-1**] sepsis, exacerbated
   slightly by narcotics and sedation.
   - IVF as above, wean levophed as tolerated for MAP in the 60s
   - phenylephrine off, can restart as second [**Doctor Last Name **] if needed; cont to
   avoid dopa given tachycardia
   .
   # [**Last Name (un) **]
 likely prerenal given septic shock, hypotension.  Could have
   component of ATN
   - urine lytes -> FeNa suggested pre-renal physiology
   - cont to titrate fluid resuscitation to UOP
   - renally dose meds, avoid nephrotoxins
   .
   # Coagulopathy:  Likely due to vitamin K deficiency from poor nutrition
   and recent antibiotics.  No evidence of DIC.
   - monitor coags, including fibrinogen
   - vitamin K 10 mg IV PRN for INR < 2, currently 1.8
   .
   #. Hyponatremia: most likely hypovolemic hyponatremia.
   - IVF, trend Na
   .
   # FEN:  NPO, NGT to suction
   .
   # PPX:
   -DVT ppx with subQ heparin
   - IV pantoprazole
   -bowel regimen
   -Pain management
   -bowel rest given necrotizing pancreatitis
   .
   # ACCESS:  L SCL, PIVs, right axillary a-line
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-1-31**] 03:10 AM
   18 Gauge - [**2146-1-31**] 10:54 PM
   20 Gauge - [**2146-2-1**] 03:30 AM
   Arterial Line - [**2146-2-1**] 08:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-03 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Dr. [**Last Name (STitle) 1318**] stopped by, will speak to Dr. [**Last Name (STitle) 542**]
   - chief [**Doctor First Name 91**] res came by, drain should be left in as long as draining
   and pt improving
   - spiked temp, pan-cx
   - did well off paralytics all day
   - transfused 1 u PRBC o/n
 BLOOD CULTURED - At [**2146-2-2**] 05:00 PM
   BC from aline and BC from CVL
 FEVER - 101.1
F - [**2146-2-3**] 02:00 AM
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Fluconazole - [**2146-2-2**] 10:30 AM
   Vancomycin - [**2146-2-2**] 08:13 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-3**] 12:12 AM
   Infusions:
   Insulin - Regular - 1.5 units/hour
   Midazolam (Versed) - 20 mg/hour
   Fentanyl - 500 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-2**] 07:38 AM
   Heparin Sodium (Prophylaxis) - [**2146-2-3**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-3**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.2
C (100.7
   HR: 125 (119 - 131) bpm
   BP: 100/62(75) {95/49(63) - 114/69(82)} mmHg
   RR: 22 (0 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 127.9 kg (admission): 143 kg
    CVP: 15 (10 - 20)mmHg
   Bladder pressure: 15 (14 - 18) mmHg
                                Total In:
                                                                  4,524 mL
                                                                  1,002 mL
   PO:
                                TF:
   IVF:
                                                                  4,244 mL
                                                                    652 mL
   Blood products:
                                                                    280 mL
                                                                    350 mL
   Total out:
                                                                  2,390 mL
                                                                  1,515 mL
   Urine:
                                                                  1,475 mL
                                                                    640 mL
   NG:
                                                                    425 mL
                                                                    325 mL
   Stool:
   Drains:
                                                                    490 mL
                                                                    550 mL
   Balance:
                                                                  2,134 mL
                                                                   -513 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.31/58/91/23/0
   Ve: 11.2 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, tense, quiet BS
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   195 K/uL
   9.5 g/dL
   82 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.9 mEq/L
   56 mg/dL
   101 mEq/L
   134 mEq/L
   29.6 %
   38.3 K/uL
        [image002.jpg]
                             [**2146-2-2**]  02:42 AM
                             [**2146-2-2**]  05:46 AM
                             [**2146-2-2**]  06:07 AM
                             [**2146-2-2**]  01:48 PM
                             [**2146-2-2**]  03:03 PM
                             [**2146-2-2**]  09:48 PM
                             [**2146-2-2**]  11:11 PM
                             [**2146-2-2**]  11:26 PM
                             [**2146-2-3**]  04:09 AM
                             [**2146-2-3**]  04:31 AM
   WBC
   52.2
   45.4
   38.3
   Hct
   31.1
   29.9
   27.7
   29.6
   Plt
   [**Telephone/Fax (3) 10908**]95
   Cr
   1.4
   1.5
   1.7
   1.8
   TCO2
   30
   29
   30
   28
   30
   31
   Glucose
   124
   115
   109
   82
   Other labs: PT / PTT / INR:21.8/46.7/2.0, CK / CKMB /
   Troponin-T:/2/<0.01, ALT / AST:32/48, Alk Phos / T Bili:68/3.1, Amylase
   / Lipase:225/86, Differential-Neuts:94.0 %, Band:2.0 %, Lymph:1.0 %,
   Mono:2.0 %, Eos:0.0 %, Fibrinogen:580 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:1.7 g/dL, LDH:388 IU/L, Ca++:7.3 mg/dL, Mg++:2.5 mg/dL, PO4:5.8
   mg/dL
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Pt intubated for hypoxia, tachypnea to
   50s, with concern for imminent fatigue.
   Given (-) culture date to date, likely etiology of resp failure is
   distributive shock in setting of necrotizing pancreatitis.  Restrictive
   physiology likely contributed, in setting of very low lung volumes and
   abdominal distention.
   - maintain on AC with ARDSnet settings: VT 6cc/kg now at 450 cc, goal
   Pa02>60, plateua pressure 31, permissive hypercapnea.  Was able to
   tolerate being off paralytics and weaning down PEEP. PIP remained
   elevated, with normal plateau pressures suggesting resistance problem.
   - maintain current settings, esophageal balloon in place showing
   adequate PEEP
   - pt has axillary line in place, will consider D/C in few days if BP
   stable
   - cont sedation with fent and midaz
   .
   # Necrotizing pancreatitis:  Pt initially decompensated [**3-1**] hemorrhage
   into pseudocyst . Drain in place. No e/o infection, has distributive
   shock picture with systemic inflammation. Tbili increased today. Spiked
   to [**Age over 90 **] yesterday, blood cx pending. Leukocytosis continues to improve.
   - q12 hour labs
   - Hct goal >21
   - cont IVF for goal UOP>50-100 cc/hr, MAP>65
   - appreciate surgery recs -> rec keeping drain in place as long as
   draining bloody fluid and patient improving clinically
   - OGT to suction
   - trend LFTs
   - cont insulin gtt
   - monitor ionized Ca and replete prn
   - empiric Zosyn 4.5 gIV q8h, cont vanc, fluconazole
   - trend WBC, diff -> improving
   - blood cx, urine cx, sputum cx, C. diff (-)
   .
   # Hypotension: currently off levophed and not requiring IVF boluses to
   maintain pressure
   - IVF as above, continue to keep off levophed as tolerated for MAP in
   the 60s
   .
   # [**Last Name (un) **]
 likely prerenal given septic shock, hypotension and urine lytes
   c/w this etiology. Could have component of ATN since continuing to
   worsen despite resusitation
   - cont to titrate fluid resuscitation to UOP
   - renally dose meds, avoid nephrotoxins
   .
   # Coagulopathy:  Likely due to vitamin K deficiency from poor nutrition
   and recent antibiotics.  No evidence of DIC.
   - monitor coags, including fibrinogen
   - vitamin K 10 mg IV today for INR 2.0
   .
   #. Nutrition: Pt should be initiated of TPN and be considered for
   trophic feeds with post-pyloric feeding tube
   - discuss feeding tube placement with IR
   - start TPN, add insulin prn and continue insulin gtt
   .
   # FEN:  NPO, OGT to suction
   .
   # PPX:
   -DVT ppx with subQ heparin
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L SCL, PIVs, right axillary a-line
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition: initiate TPN, discuss postpyloric tube with IR
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-1-31**] 03:10 AM
   18 Gauge - [**2146-1-31**] 10:54 PM
   20 Gauge - [**2146-2-1**] 03:30 AM
   Arterial Line - [**2146-2-1**] 08:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-04 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - did well throughout day, off levophed, auto-diuresing with HR cont to
   improve
   - spiked again, resent blood cx
   - desat overnight to mid 70s in setting of being turned, recent
   lightening of sedation
   - required FiO2 100%, PEEP 18 to maintain sats in mid to high 90s
   - CXR, ABG worse than prior, but room to wean FiO2 50%
   - haldol PRN for agitation not used
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Fluconazole - [**2146-2-3**] 10:19 AM
   Vancomycin - [**2146-2-3**] 08:36 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-4**] 12:22 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Midazolam (Versed) - 20 mg/hour
   Fentanyl - 500 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-3**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2146-2-4**] 12:31 AM
   Fentanyl - [**2146-2-4**] 02:30 AM
   Midazolam (Versed) - [**2146-2-4**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-4**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.7
C (101.6
   HR: 115 (112 - 133) bpm
   BP: 128/78(94) {100/57(71) - 142/86(102)} mmHg
   RR: 24 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 127.9 kg (admission): 143 kg
    CVP: 17 (11 - 21)mmHg
   Bladder pressure: 16 (11 - 16) mmHg
   Total In:
                                                                  3,859 mL
                                                                  1,050 mL
   PO:
   TF:
   IVF:
                                                                  3,367 mL
                                                                    747 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  5,310 mL
                                                                  2,195 mL
   Urine:
                                                                  3,655 mL
                                                                  1,420 mL
   NG:
                                                                    725 mL
                                                                    475 mL
   Stool:
   Drains:
                                                                    930 mL
                                                                    300 mL
   Balance:
                                                                 -1,451 mL
                                                                 -1,143 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   SpO2: 96%
   ABG: 7.37/51/102/27/2
   Ve: 11.1 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   153 K/uL
   9.1 g/dL
   117 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.2 mEq/L
   40 mg/dL
   102 mEq/L
   137 mEq/L
   27.7 %
   29.4 K/uL
        [image002.jpg]
                             [**2146-2-2**]  11:26 PM
                             [**2146-2-3**]  04:09 AM
                             [**2146-2-3**]  04:31 AM
                             [**2146-2-3**]  03:00 PM
                             [**2146-2-3**]  05:27 PM
                             [**2146-2-3**]  05:55 PM
                             [**2146-2-4**]  12:50 AM
                             [**2146-2-4**]  03:07 AM
                             [**2146-2-4**]  03:12 AM
                             [**2146-2-4**]  05:23 AM
   WBC
   33.2
   29.4
   Hct
   29.6
   27.6
   27.7
   Plt
   195
   153
   Cr
   1.8
   1.4
   1.1
   TCO2
   30
   31
   31
   31
   31
   32
   31
   Glucose
   82
   95
   117
   Other labs: PT / PTT / INR:20.3/62.3/1.9, CK / CKMB /
   Troponin-T:/2/<0.01, ALT / AST:32/48, Alk Phos / T Bili:68/3.1, Amylase
   / Lipase:225/86, Differential-Neuts:80.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:580 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:1.7 g/dL, LDH:388 IU/L, Ca++:7.7 mg/dL, Mg++:2.5 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Pt intubated for hypoxia, tachypnea to
   50s, with concern for imminent fatigue.
   Given (-) culture date to date, likely etiology of resp failure is
   distributive shock in setting of necrotizing pancreatitis.  Restrictive
   physiology likely contributed, in setting of very low lung volumes and
   abdominal distention.
   - maintain on AC with ARDSnet settings: VT 6cc/kg now at 450 cc, goal
   Pa02>60, plateua pressure 31, permissive hypercapnea.  Was able to
   tolerate being off paralytics and weaning down PEEP. PIP remained
   elevated, with normal plateau pressures suggesting resistance problem.
   - maintain current settings, esophageal balloon in place showing
   adequate PEEP
   - pt has axillary line in place, will consider D/C in few days if BP
   stable
   - cont sedation with fent and midaz
   .
   # Necrotizing pancreatitis:  Pt initially decompensated [**3-1**] hemorrhage
   into pseudocyst . Drain in place. No e/o infection, has distributive
   shock picture with systemic inflammation. Continues to spike.
   Leukocytosis continues to improve.
   - q12 hour labs
   - Hct goal >21
   - cont IVF for goal UOP>50-100 cc/hr, MAP>65
   - appreciate surgery recs -> rec keeping drain for several weeks to
   allow better healing of pseudocyst and prevent future surgery
   - OGT to suction
   - trend LFTs
   - cont insulin gtt
   - monitor ionized Ca and replete prn
   - empiric Zosyn 4.5 gIV q8h, cont vanc, fluconazole
   - trend WBC, diff -> down today
   - blood cx, urine cx, sputum cx, C. diff (-)
   .
   # Hypotension: currently off levophed and not requiring IVF boluses to
   maintain pressure
   - IVF as above, continue to keep off levophed as tolerated for MAP in
   the 60s
   - Pressures excellent, consider need for A-line
   .
   # [**Last Name (un) **]
 likely prerenal given septic shock, hypotension and urine lytes
   c/w this etiology. Could have component of ATN since continuing to
   worsen despite resusitation.  Nearly resolved today
   - cont to titrate fluid resuscitation to UOP
 (UOP ranging from 370 to
   120 per hour in last 12 hours!)
   - renally dose meds, avoid nephrotoxins
   .
   # Coagulopathy:  Likely due to vitamin K deficiency from poor nutrition
   and recent antibiotics.  No evidence of DIC.
   - monitor coags, including fibrinogen
   -  INR of 1.9 today, would hold of on IV K, and consider oral once
   post-pyloric feeding tube is in place to reduce risk of anaphylactoid
   reaction.
   .
   #. Nutrition: Pt should be initiated of TPN and be considered for
   trophic feeds with post-pyloric feeding tube
   - discuss feeding tube placement with IR
   - start TPN, add insulin prn and continue insulin gtt
   .
   # FEN:  NPO, OGT to suction
   .
   # PPX:
   -DVT ppx with subQ heparin
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L SCL, PIVs, right axillary a-line
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition: initiate TPN, discuss postpyloric tube with IR
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-1-31**] 03:10 AM
   18 Gauge - [**2146-1-31**] 10:54 PM
   20 Gauge - [**2146-2-1**] 03:30 AM
   Arterial Line - [**2146-2-1**] 08:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-05 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: -did great, no interventions needed
   -d/c'd a-line
   24 Hour Events:
 SPUTUM CULTURE - At [**2146-2-4**] 01:22 PM
 ARTERIAL LINE - STOP [**2146-2-4**] 11:00 PM
 FEVER - 101.6
F - [**2146-2-4**] 11:00 PM
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Fluconazole - [**2146-2-4**] 11:30 AM
   Vancomycin - [**2146-2-4**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-5**] 12:00 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Midazolam (Versed) - 15 mg/hour
   Fentanyl - 500 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-5**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.4
C (101.2
   HR: 107 (105 - 115) bpm
   BP: 147/85(98) {137/64(79) - 154/85(101)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 144 kg (admission): 143 kg
    CVP: 18 (8 - 18)mmHg
   Bladder pressure: 8 (8 - 10) mmHg
   Total In:
                                                                  4,265 mL
                                                                  1,460 mL
   PO:
   TF:
                                                                     63 mL
                                                                     79 mL
   IVF:
                                                                  2,942 mL
                                                                    723 mL
   Blood products:
   Total out:
                                                                  5,475 mL
                                                                  1,000 mL
   Urine:
                                                                  3,650 mL
                                                                    740 mL
   NG:
                                                                  1,075 mL
   Stool:
   Drains:
                                                                    750 mL
                                                                    260 mL
   Balance:
                                                                 -1,210 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   SpO2: 97%
   ABG: 7.39/50/118/29/3
   Ve: 11.1 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General Appearance: Overweight / Obese, sedated, intubated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, tense, quiet BS
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: sedated, does not respond
   Labs / Radiology
   97 K/uL
   8.4 g/dL
   115 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   26 mg/dL
   107 mEq/L
   142 mEq/L
   26.5 %
   24.1 K/uL
        [image002.jpg]
                             [**2146-2-3**]  04:31 AM
                             [**2146-2-3**]  03:00 PM
                             [**2146-2-3**]  05:27 PM
                             [**2146-2-3**]  05:55 PM
                             [**2146-2-4**]  12:50 AM
                             [**2146-2-4**]  03:07 AM
                             [**2146-2-4**]  03:12 AM
                             [**2146-2-4**]  05:23 AM
                             [**2146-2-4**]  04:17 PM
                             [**2146-2-5**]  03:53 AM
   WBC
   29.4
   24.1
   Hct
   27.6
   27.7
   26.5
   Plt
   153
   97
   Cr
   1.4
   1.1
   0.8
   TCO2
   31
   31
   31
   31
   32
   31
   31
   Glucose
   95
   117
   115
   Other labs: PT / PTT / INR:20.3/46.2/1.9, CK / CKMB /
   Troponin-T:/2/<0.01, ALT / AST:35/45, Alk Phos / T Bili:58/1.7,
   Albumin:1.6 g/dL, LDH:353 IU/L, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   SPUTUM
GRAM STAIN (Final [**2146-2-4**]):
      [**11-21**] PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Pt intubated for hypoxia, tachypnea to
   50s, with concern for imminent fatigue.
   Given (-) culture date to date, likely etiology of resp failure is
   distributive shock in setting of necrotizing pancreatitis.  Restrictive
   physiology likely contributed, in setting of very low lung volumes and
   abdominal distention.
   - maintain on AC with ARDSnet settings: VT 6cc/kg now at 450 cc, goal
   Pa02>60, plateua pressure 31, permissive hypercapnea.  Was able to
   tolerate being off paralytics and weaning down PEEP. PIP remained
   elevated, with normal plateau pressures suggesting resistance problem.
   - maintain current settings, esophageal balloon in place showing
   adequate PEEP
   - trial weaning PEEP to 16
   - cont sedation with fent and midaz
   .
   # Necrotizing pancreatitis:  Pt initially decompensated [**3-1**] hemorrhage
   into pseudocyst . Drain in place. No e/o infection, has distributive
   shock picture with systemic inflammation. Continues to spike.
   Leukocytosis continues to improve. LFTS improving today.
   - q12 hour labs
   - Hct goal >21
   - cont IVF for goal UOP>50-100 cc/hr, MAP>65
   - appreciate surgery recs -> rec keeping drain for several weeks to
   allow better healing of pseudocyst and prevent future surgery
   - trend LFTs
   - cont insulin gtt
   - monitor Ca and replete prn
   - empiric Zosyn 4.5 gIV q8h, cont vanc, fluconazole
   - trend WBC, diff -> down today
   - blood cx, urine cx, sputum cx, C. diff (-)
   .
   # Fevers: Pt continues to have daily fevers despite greatly improved
   hemodynamics and no culture data evident of infection. [**Month (only) 8**] be due to
   systemic inflammatory response to pancreatitis.
   - monitor fever curve
   - daily surveillance cultures
   - f/u sent blood and sputum cx
   .
   # Hypotension: currently off levophed and not requiring IVF boluses to
   maintain pressure
   - IVF as above, continue to keep off levophed as tolerated for MAP in
   the 60s
   .
   # [**Last Name (un) **]
 likely prerenal given septic shock, hypotension and urine lytes
   c/w this etiology. Could have component of ATN since continuing to
   worsen despite resusitation.  Nearly resolved today and autodiuresing
   - renally dose meds, avoid nephrotoxins
   .
   # Coagulopathy:  Likely due to vitamin K deficiency from poor nutrition
   and recent antibiotics.  No evidence of DIC.
   - monitor coags, including fibrinogen
   -  consider PO vitamin K
   .
   #. Nutrition:
   - trophic TF via [**Last Name (un) 1446**]-post-pyloric tube
   - TPN, add insulin prn and continue insulin gtt
   .
   # PPX:
   -DVT ppx with subQ heparin
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L SCL, PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-4**] 05:45 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Vivonex (Full) - [**2146-2-4**] 05:45 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-1-31**] 03:10 AM
   20 Gauge - [**2146-2-1**] 03:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-05 13:05:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis, acute respiratory failure, anemia,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Axillary aline discontinued. Temp to 101 last night. Hemodynamically
   stable.
   PEEP gradually being reduced; down from 21 to 18. Remains on assist
   control; FIO2 0.4.
   LFTs improving.
   Fluid balance slightly negative yesterday.
   24 Hour Events:
 SPUTUM CULTURE - At [**2146-2-4**] 01:22 PM
 ARTERIAL LINE - STOP [**2146-2-4**] 11:00 PM
 FEVER - 101.6
F - [**2146-2-4**] 11:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Fluconazole - [**2146-2-4**] 11:30 AM
   Vancomycin - [**2146-2-5**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-5**] 10:00 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Midazolam (Versed) - 15 mg/hour
   Fentanyl - 500 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-5**] 01:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.9
C (100.3
   HR: 100 (100 - 110) bpm
   BP: 140/71(86) {137/64(79) - 158/85(101)} mmHg
   RR: 25 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 144 kg (admission): 143 kg
   CVP: 17 (8 - 18)mmHg
   Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  4,265 mL
                                                                  2,843 mL
   PO:
   TF:
                                                                     63 mL
                                                                     90 mL
   IVF:
                                                                  2,942 mL
                                                                  1,697 mL
   Blood products:
   Total out:
                                                                  5,475 mL
                                                                  1,980 mL
   Urine:
                                                                  3,650 mL
                                                                  1,380 mL
   NG:
                                                                  1,075 mL
                                                                    340 mL
   Stool:
   Drains:
                                                                    750 mL
                                                                    260 mL
   Balance:
                                                                 -1,210 mL
                                                                    863 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/50/118/29/3
   Ve: 11.3 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, Diminished: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   97 K/uL
   115 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   26 mg/dL
   107 mEq/L
   142 mEq/L
   26.5 %
   24.1 K/uL
        [image002.jpg]
                             [**2146-2-3**]  04:31 AM
                             [**2146-2-3**]  03:00 PM
                             [**2146-2-3**]  05:27 PM
                             [**2146-2-3**]  05:55 PM
                             [**2146-2-4**]  12:50 AM
                             [**2146-2-4**]  03:07 AM
                             [**2146-2-4**]  03:12 AM
                             [**2146-2-4**]  05:23 AM
                             [**2146-2-4**]  04:17 PM
                             [**2146-2-5**]  03:53 AM
   WBC
   29.4
   24.1
   Hct
   27.6
   27.7
   26.5
   Plt
   153
   97
   Cr
   1.4
   1.1
   0.8
   TCO2
   31
   31
   31
   31
   32
   31
   31
   Glucose
   95
   117
   115
   Other labs: PT / PTT / INR:20.3/46.2/1.9, CK / CKMB /
   Troponin-T:/2/<0.01, ALT / AST:35/45, Alk Phos / T Bili:58/1.7, Amylase
   / Lipase:225/86, Differential-Neuts:80.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:580 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:1.6 g/dL, LDH:353 IU/L, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Imaging: CXR: haziness left hemithorax in supine position suggesting
   layering pleural effusion
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 PANCREATITIS, ACUTE
 .H/O CHOLECYSTITIS, CALCULOUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
   ANEMIA
   ===========================
   Pleural pressure about 15. Will decrease PEEP to 16 today. Monitor
   oxygenation. Continue on assist control.
   On antibiotics for possible intra-abdominal infection in setting of
   necrotic pancreatitis. On insulin for hyperglycemia.
   Hemodynamically stable. Arterial line removed.
   Hct stable. Not at transfusion threshold.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-4**] 05:45 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2146-1-31**] 03:10 AM
   20 Gauge - [**2146-2-1**] 03:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2146-02-06 08:01:00 Physician Resident Progress Note
Chief Complaint: hypoxic respiratory failure, necrotizing pancreatitis
   24 Hour Events:
 FEVER - 101.9
F - [**2146-2-5**] 08:00 AM
   - spiked again, sent blood cx
   - weaned PEEP to 16
   History obtained from Medical records
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Fluconazole - [**2146-2-4**] 11:30 AM
   Vancomycin - [**2146-2-5**] 07:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-5**] 11:27 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Fentanyl - 500 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-5**] 11:27 PM
   Other medications:
   Changes to medical and family history:
   intubated and sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2146-2-6**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.7
C (99.8
   HR: 91 (91 - 109) bpm
   BP: 127/60(75) {123/16(40) - 166/89(108)} mmHg
   RR: 16 (8 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 142.1 kg (admission): 143 kg
    CVP: 12 (9 - 17)mmHg
   Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  5,649 mL
                                                                  1,471 mL
   PO:
   TF:
                                                                    200 mL
                                                                     80 mL
   IVF:
                                                                  3,449 mL
                                                                    699 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                    815 mL
   Urine:
                                                                  2,170 mL
                                                                    535 mL
   NG:
                                                                    340 mL
   Stool:
   Drains:
                                                                    460 mL
                                                                    280 mL
   Balance:
                                                                  2,679 mL
                                                                    656 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Agitated
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 99%
   ABG: ///30/
   Ve: 11 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : anterior)
   Abdominal: Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   78 K/uL
   8.4 g/dL
   136 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   21 mg/dL
   108 mEq/L
   144 mEq/L
   26.0 %
   19.9 K/uL
        [image002.jpg]
                             [**2146-2-3**]  05:55 PM
                             [**2146-2-4**]  12:50 AM
                             [**2146-2-4**]  03:07 AM
                             [**2146-2-4**]  03:12 AM
                             [**2146-2-4**]  05:23 AM
                             [**2146-2-4**]  04:17 PM
                             [**2146-2-5**]  03:53 AM
                             [**2146-2-5**]  04:37 PM
                             [**2146-2-5**]  11:48 PM
                             [**2146-2-6**]  04:44 AM
   WBC
   29.4
   24.1
   21.3
   19.9
   Hct
   27.7
   26.5
   25.6
   27.8
   26.0
   Plt
   153
   97
   84
   78
   Cr
   1.1
   0.8
   0.7
   0.7
   TCO2
   31
   31
   32
   31
   31
   Glucose
   117
   115
   88
   136
   Other labs: PT / PTT / INR:20.3/46.2/1.9, CK / CKMB /
   Troponin-T:/2/<0.01, ALT / AST:36/45, Alk Phos / T Bili:58/1.9, Amylase
   / Lipase:225/86, Differential-Neuts:80.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:580 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:1.5 g/dL, LDH:317 IU/L, Ca++:7.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Pt intubated for hypoxia, tachypnea to
   50s, with concern for imminent fatigue.
   Given (-) culture date to date, likely etiology of resp failure is
   distributive shock in setting of necrotizing pancreatitis.  Restrictive
   physiology likely contributed, in setting of very low lung volumes and
   abdominal distention.
   - maintain on AC with ARDSnet settings: VT 6cc/kg now at 450 cc, goal
   Pa02>60, plateua pressure 31, permissive hypercapnea.  Was able to
   tolerate being off paralytics and weaning down PEEP. PIP remained
   elevated, with normal plateau pressures suggesting resistance problem.
   [**Name (NI) **] of CPAP this morning, then will likely place back on PRVC.
   - esophageal balloon in place showing adequate PEEP
   - cont weaning settings as tolerated
   - cont sedation with fent and midaz, consider weaning midaz, converting
   fentanyl to methadone
   .
   # Necrotizing pancreatitis:  Pt initially decompensated [**3-1**] hemorrhage
   into pseudocyst . Drain in place. No e/o infection, has distributive
   shock picture with systemic inflammation. Continues to spike.
   Leukocytosis continues to improve. LFTS improving today.
   - q12 hour labs
   - Hct goal >21
   - cont IVF for goal UOP>50-100 cc/hr, MAP>65
   - appreciate surgery recs -> rec keeping drain for several weeks to
   allow better healing of pseudocyst and prevent future surgery
   - trend LFTs
   - cont insulin gtt
   - monitor Ca and replete prn
   - empiric Zosyn 4.5 gIV q8h, cont vanc, fluconazole
   - trend WBC, diff -> down today
   - blood cx, urine cx, sputum cx, C. diff (-)
   .
   # Fevers: Pt continues to have daily fevers despite greatly improved
   hemodynamics and no culture data evident of infection. [**Month (only) 8**] be due to
   systemic inflammatory response to pancreatitis.
   - monitor fever curve
   - daily surveillance cultures
   - f/u sent blood and sputum cx
   .
   # Hypotension: currently off levophed and not requiring IVF boluses to
   maintain pressure
   - IVF as above, continue to keep off levophed as tolerated for MAP in
   the 60s
   .
   # [**Last Name (un) **]
 likely prerenal given septic shock, hypotension and urine lytes
   c/w this etiology. Could have component of ATN since continuing to
   worsen despite resusitation.  Nearly resolved and autodiuresing
   - renally dose meds, avoid nephrotoxins
   .
   # Coagulopathy:  Likely due to vitamin K deficiency from poor nutrition
   and recent antibiotics.  No evidence of DIC.
   - monitor coags, including fibrinogen
   -  consider IV vitamin K
   .
   #. Nutrition:
   - trophic TF via [**Last Name (un) 1446**]-post-pyloric tube
   - TPN, add insulin prn and continue insulin gtt
   - goal Is/Os (-) 500 cc today
   .
   # PPX:
   -DVT ppx with subQ heparin
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L SCL, PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-5**] 04:44 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Vivonex (Full) - [**2146-2-5**] 09:43 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-1-31**] 03:10 AM
   22 Gauge - [**2146-2-5**] 04:00 PM
   Prophylaxis:  see above
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 4**]

2146-02-06 12:06:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis, acute respiratory failuire, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tolerated decrease in PEEP yesterday. O2 sats stable.
   Fluid balance positive over 2L yesterday.
   24 Hour Events:
 FEVER - 101.9
F - [**2146-2-5**] 08:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-6**] 07:30 AM
   Vancomycin - [**2146-2-6**] 08:30 AM
   Fluconazole - [**2146-2-6**] 11:24 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Midazolam (Versed) - 17 mg/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-6**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-6**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 104 (91 - 109) bpm
   BP: 142/79(94) {123/16(40) - 166/93(108)} mmHg
   RR: 19 (8 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 142.1 kg (admission): 143 kg
   CVP: 17 (9 - 17)mmHg
   Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                  5,649 mL
                                                                  2,967 mL
   PO:
   TF:
                                                                    200 mL
                                                                     90 mL
   IVF:
                                                                  3,449 mL
                                                                  1,797 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                  1,835 mL
   Urine:
                                                                  2,170 mL
                                                                  1,175 mL
   NG:
                                                                    340 mL
                                                                    380 mL
   Stool:
   Drains:
                                                                    460 mL
                                                                    280 mL
   Balance:
                                                                  2,679 mL
                                                                  1,132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, Agitated
   PIP: 28 cmH2O
   Plateau: 27 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 98%
   ABG: ///30/
   Ve: 11.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   78 K/uL
   136 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   21 mg/dL
   108 mEq/L
   144 mEq/L
   26.0 %
   19.9 K/uL
        [image002.jpg]
                             [**2146-2-3**]  05:55 PM
                             [**2146-2-4**]  12:50 AM
                             [**2146-2-4**]  03:07 AM
                             [**2146-2-4**]  03:12 AM
                             [**2146-2-4**]  05:23 AM
                             [**2146-2-4**]  04:17 PM
                             [**2146-2-5**]  03:53 AM
                             [**2146-2-5**]  04:37 PM
                             [**2146-2-5**]  11:48 PM
                             [**2146-2-6**]  04:44 AM
   WBC
   29.4
   24.1
   21.3
   19.9
   Hct
   27.7
   26.5
   25.6
   27.8
   26.0
   Plt
   153
   97
   84
   78
   Cr
   1.1
   0.8
   0.7
   0.7
   TCO2
   31
   31
   32
   31
   31
   Glucose
   117
   115
   88
   136
   Other labs: PT / PTT / INR:20.3/46.2/1.9, CK / CKMB /
   Troponin-T:/2/<0.01, ALT / AST:36/45, Alk Phos / T Bili:58/1.9, Amylase
   / Lipase:225/86, Differential-Neuts:80.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:580 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:1.5 g/dL, LDH:317 IU/L, Ca++:7.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Imaging: CXR: persistent elevation right hemidiaphragm and diffuse
   haziness left hemithorax
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 PANCREATITIS, ACUTE
 .H/O CHOLECYSTITIS, CALCULOUS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
   ACUTE RESPIRATORY FAILURE
   =====================
   Patient switched to PSV today - on 16/10, tidal volumes are 500-600. O2
   sats holding steady for now. If he toleraates this mode of ventilation
   over several hours, would try decreasing sedation and decreasing PEEP
   to 14.
   Continues on antibiotics. WBC slowly coming down.
   BP has been stable. Would begin to diurese to achieve negative fluid
   balance of 0.5 to 1.0 L/day.
   Platelet count has dropped. Check HIT antibody.
   Left calf bigger than right without palpable cord. Check LENI for clot.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-5**] 04:44 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2146-1-31**] 03:10 AM
   22 Gauge - [**2146-2-5**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2146-02-07 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2146-2-6**]:
   - ABG repeated -> oxygenation adequate
   - left lower leg increased swelling -> LENI inconclusive
   - thrombocytopenia -> zosyn vs. heparin vs PPI
   - changed zosyn to cipro per ID, sent HIT Abs
   - cont to auto-diurese, also gave lasix x 3 (10, 40, 40)
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Fluconazole - [**2146-2-6**] 11:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-6**] 04:15 PM
   Ciprofloxacin - [**2146-2-6**] 07:41 PM
   Vancomycin - [**2146-2-6**] 08:45 PM
   Metronidazole - [**2146-2-7**] 07:30 AM
   Infusions:
   Insulin - Regular - 5 units/hour
   Fentanyl (Concentrate) - 400 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2146-2-7**] 01:45 AM
   Heparin Sodium (Prophylaxis) - [**2146-2-7**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-7**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.3
C (100.9
   HR: 107 (99 - 109) bpm
   BP: 134/66(82) {124/58(74) - 170/93(110)} mmHg
   RR: 21 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 137.2 kg (admission): 143 kg
    CVP: 16 (15 - 17)mmHg
   Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                  5,638 mL
                                                                  1,459 mL
   PO:
   TF:
                                                                    200 mL
                                                                     17 mL
   IVF:
                                                                  3,339 mL
                                                                    809 mL
   Blood products:
   Total out:
                                                                  5,195 mL
                                                                  2,610 mL
   Urine:
                                                                  4,065 mL
                                                                  1,710 mL
   NG:
                                                                    410 mL
                                                                    700 mL
   Stool:
   Drains:
                                                                    720 mL
                                                                    200 mL
   Balance:
                                                                    443 mL
                                                                 -1,149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 640 (0 - 640) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 15
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   Compliance: 56.2 cmH2O/mL
   SpO2: 95%
   ABG: 7.46/45/120/31/7
   Ve: 10.2 L/min
   PaO2 / FiO2: 300
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   93 K/uL
   8.1 g/dL
   105 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.7 mEq/L
   23 mg/dL
   106 mEq/L
   144 mEq/L
   25.2 %
   20.4 K/uL
        [image002.jpg]
                             [**2146-2-4**]  03:12 AM
                             [**2146-2-4**]  05:23 AM
                             [**2146-2-4**]  04:17 PM
                             [**2146-2-5**]  03:53 AM
                             [**2146-2-5**]  04:37 PM
                             [**2146-2-5**]  11:48 PM
                             [**2146-2-6**]  04:44 AM
                             [**2146-2-6**]  05:14 PM
                             [**2146-2-6**]  11:11 PM
                             [**2146-2-7**]  05:52 AM
   WBC
   24.1
   21.3
   19.9
   20.4
   Hct
   26.5
   25.6
   27.8
   26.0
   26.2
   25.2
   Plt
   97
   84
   78
   93
   Cr
   0.8
   0.7
   0.7
   0.8
   0.8
   TCO2
   32
   31
   31
   33
   Glucose
   115
   88
   136
   141
   105
   Other labs: PT / PTT / INR:20.3/41.1/1.9, CK / CKMB /
   Troponin-T:/2/<0.01, ALT / AST:43/57, Alk Phos / T Bili:61/1.8, Amylase
   / Lipase:225/86, Differential-Neuts:80.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:580 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:1.5 g/dL, LDH:317 IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue.
   Given (-) culture data to date, likely etiology of resp failure is
   distributive shock in setting of necrotizing pancreatitis.  Restrictive
   physiology likely contributed, in setting of very low lung volumes and
   abdominal distention.
   - maintain on AC with ARDSnet settings: VT 6cc/kg now at 450 cc, goal
   Pa02>60, plateua pressure 31, permissive hypercapnea.  Was able to
   tolerate being off paralytics and weaning down PEEP. PIP remained
   elevated, with normal plateau pressures suggesting resistance problem.
   [**Name (NI) **] of CPAP this morning, then will likely place back on PRVC.
   - esophageal balloon in place showing adequate PEEP
   - cont weaning settings as tolerated
   - cont sedation with fent and midaz, consider weaning midaz, converting
   fentanyl to methadone
   .
   LLE Edema: Unfortunately Doppler was non-diagnostic [**3-1**] body habitus.
   - ? CT study today
   - f/u HIT ab study
   .
   Falling platelets:  patient
s plateletes were as high as 500 at one
   point, they were down to 72 yesterday, up to 93 today.  Suspect zosyn
   vs. HIT.  Concern for HIT increased if above is [**3-1**] thrombus.
   -trend
   -f/u HIT panel
   .
   # Necrotizing pancreatitis:  Pt initially decompensated [**3-1**] hemorrhage
   into pseudocyst . Drain in place. No e/o infection, has distributive
   shock picture with systemic inflammation. Continues to spike.
   Leukocytosis continues to improve. LFTS improving today.
   - QD labs
   - Hct goal >21
   - IVF unnecessary patient had been autodiuresing.
   - appreciate surgery recs -> rec keeping drain for several weeks to
   allow better healing of pseudocyst and prevent future surgery
   - trend LFTs
   - cont insulin gtt
   - monitor Ca and replete prn
   - empiric Zosyn 4.5 gIV q8h, cont vanc, fluconazole - ?
   - trend WBC, diff -> down today
   - blood cx, urine cx, sputum cx, C. diff (-)
   .
   # Fevers: Pt continues to have daily fevers despite greatly improved
   hemodynamics and no culture data evident of infection. [**Month (only) 8**] be due to
   systemic inflammatory response to pancreatitis.
   - monitor fever curve
   - daily surveillance cultures
   - f/u sent blood and sputum cx
   .
   # Hypotension: inactive
   .
   # [**Last Name (un) **]
 likely prerenal given septic shock, hypotension and urine lytes
   c/w this etiology. Could have component of ATN since continuing to
   worsen despite resusitation.  Nearly resolved and autodiuresing thought
   bumped a bit in the setting of lasix yesterday.
   - renally dose meds, avoid nephrotoxins
   .
   # Coagulopathy:  Likely due to vitamin K deficiency from poor nutrition
   and recent antibiotics.  No evidence of DIC.
   - monitor coags, including fibrinogen
   -  avoid another dose of vitamin K as patient recently restarted feeds.
   .
   #. Nutrition:
   - trophic TF via [**Last Name (un) 1446**]-post-pyloric tube
   - TPN, add insulin prn and continue insulin gtt
   .
   # PPX:
   -DVT ppx with subQ heparin
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L SCL, PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-5**] 04:44 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Vivonex (Full) - [**2146-2-5**] 09:43 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-1-31**] 03:10 AM
   22 Gauge - [**2146-2-5**] 04:00 PM
   Prophylaxis:  see above
   DVT: SQ Heparin
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 4**]

2146-02-08 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: HIT (+), DVT on CT scan - started on argatroban
   CT showed:
   1. Interval increase in left pleural effusion, now moderate. Increase
   in
   amount of dependent atelectasis or consolidation bilaterally.
   2. Degree of non-enhancing pancreatic parenchyma c/w necrotizing
   pancreatitis
   is unchanged.
   3. Variable change in size of peripancreatic collections: smaller
   collection
   immediately surrounding pancreatic body (now 12 x 6.6 cm, previously 15
   x 7.6
   cm); but a larger, well-circumscribed collection has developed more
   distally
   in the peritoneum, measuring 11 x 10 cm (previously not demonstrating
   rim-
   enhancement). Heterogeneity of the fluid collections indicating
   hemorrhagic
   foci is unchanged.
   4. Persistent marked attenuation of the SMV at the confluence with
   splenic
   vein and portal vein. Arterial supply remains opacified without filling
   defects.
   5. Moderate ascites, anasarca.
   6. Improved intrahepatic biliary ductal dilatation, now mild.
   24 Hour Events:
 FEVER - 101.9
F - [**2146-2-8**] 12:00 AM
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-6**] 04:15 PM
   Fluconazole - [**2146-2-7**] 11:32 AM
   Vancomycin - [**2146-2-7**] 08:23 PM
   Ciprofloxacin - [**2146-2-7**] 08:56 PM
   Metronidazole - [**2146-2-8**] 12:01 AM
   Infusions:
   Argatroban - 0.75 mcg/Kg/min
   Fentanyl (Concentrate) - 450 mcg/hour
   Insulin - Regular - 4 units/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-7**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-8**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.4
C (101.2
   HR: 118 (105 - 123) bpm
   BP: 148/74(90) {134/62(81) - 156/81(96)} mmHg
   RR: 25 (19 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 137.2 kg (admission): 143 kg
    CVP: 8 (7 - 13)mmHg
   Total In:
                                                                  5,110 mL
                                                                  1,019 mL
   PO:
   TF:
                                                                     17 mL
   IVF:
                                                                  2,952 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  4,810 mL
                                                                  1,460 mL
   Urine:
                                                                  3,320 mL
                                                                    685 mL
   NG:
                                                                    950 mL
                                                                    650 mL
   Stool:
   Drains:
                                                                    540 mL
                                                                    125 mL
   Balance:
                                                                    300 mL
                                                                   -441 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 560) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 11.4 L/min
   Physical Examination
   Gen: intubated, sedated
   HEENT: PERRL, R SC line C/D/I
   CV: RRR, no m/r/g
   PULM: CTAB anteriorly
   AB: distended, positive bowel sounds, mild ecchymoses with decreased
   erythema from prior tracings
   EXT: 2+ pitting edema, equal bilaterally, 2+ PT/DP pulses
   NEURO: sedated, does not follow commands
   Labs / Radiology
   118 K/uL
   8.2 g/dL
   105 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.7 mEq/L
   23 mg/dL
   106 mEq/L
   144 mEq/L
   26.2 %
   18.8 K/uL
        [image002.jpg]
                             [**2146-2-5**]  03:53 AM
                             [**2146-2-5**]  04:37 PM
                             [**2146-2-5**]  11:48 PM
                             [**2146-2-6**]  04:44 AM
                             [**2146-2-6**]  05:14 PM
                             [**2146-2-6**]  11:11 PM
                             [**2146-2-7**]  05:52 AM
                             [**2146-2-7**]  05:51 PM
                             [**2146-2-7**]  11:36 PM
                             [**2146-2-8**]  05:43 AM
   WBC
   24.1
   21.3
   19.9
   20.4
   18.8
   Hct
   26.5
   25.6
   27.8
   26.0
   26.2
   25.2
   25.5
   26.8
   26.2
   Plt
   97
   84
   78
   93
   118
   Cr
   0.8
   0.7
   0.7
   0.8
   0.8
   TCO2
   33
   Glucose
   115
   88
   136
   141
   105
   Other labs: PT / PTT / INR:38.5/108.2/4.0
   ALT / AST:43/57, Alk Phos / T Bili:61/1.8, Amylase / Lipase:225/86,
   Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   .
   MICRO: all cx neg
   .
   CT LE/C/A/P:
   1. Focal nonocclusive thrombus in the inferior vena cava at the level
   of the
   confluence of the common iliac veins. Additionally, occlusive or
   near-occlusive thrombus in the left common femoral vein at the level of
   the
   greater saphenous vein, extending proximally for approximately 6 cm.
   Relatively increased size and subcutaneous edema of the left lower
   extremity
   compared to the right.
   2. Interval increase in left pleural effusion, now moderate. Increase
   in
   amount of dependent atelectasis bilaterally. However, superimposed
   consolidation cannot be excluded.
   3. Stable degree of nonenhancing pancreatic parenchyma consistent with
   necrotizing pancreatitis.
   4. Variable change in size of peripancreatic fluid collections.
   Collection
   surrounding the pancreatic body is smaller than the prior study, but a
   larger,
   well-circumscribed, rim-enhancing collection has developed more
   distally.
   Regions of hemorrhagic fluid within the collections is unchanged.
   5. Persistent marked narrowing of the superior mesenteric vein at the
   confluence with the splenic and portal veins. Good opacification of the
   arterial vessels surrounding the pancreas, without filling defect or
   pseudoaneurysm.
   6. Interval improvement in intrahepatic biliary ductal dilatation, now
   mild.
   7. Moderate ascites and anasarca.
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
   .
   # Hypoxic respiratory failure: Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue.
   Given (-) culture data to date, likely etiology of resp failure is
   distributive shock in setting of necrotizing pancreatitis.  Restrictive
   physiology likely contributed, in setting of very low lung volumes and
   abdominal distention.
   - maintain on AC with ARDSnet settings: VT 6cc/kg now at 450 cc, goal
   Pa02>60, plateua pressure 31, permissive hypercapnea.
   - esophageal balloon in place showing adequate PEEP
   - cont weaning settings as tolerated
   - cont sedation with fent and midaz, consider weaning midaz, converting
   fentanyl to methadone
   .
   LLE Edema: DVT seen on CT venogram. HIT Ab positive so likely
   hypercoaguable due to HIT. Plts beginning to recover.
   - cont argatroban and monitor PTT
   - trend platelets
   - check serotonin assay at 3pm
   - consider IVC filter only if sugery determines there is sufficient
   contraindication to anitcoagulation
   .
   # Fevers: Pt continues to have daily fevers despite greatly improved
   hemodynamics and no culture data evident of infection. Most likely due
   to systemic inflammatory response to pancreatitis. Given pleural
   effusion and new pelvic fluid collection seen on CT, there may be
   occult infection.
   - consider thoracentesis if large enough effusion on bedside U/S, send
   fluid for chem, glucose, pH, GS, cx
   - discuss CT-guided drainage of pelvic fluid collection with surgery
   and send for gram stain/cx
   .
   # Necrotizing pancreatitis:  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst . Drain in place. No e/o infection, has
   distributive shock picture with systemic inflammation. Continues to
   spike. Leukocytosis continues to improve. LFTS improving. CT shows
   newly enlarged fluid collection in pelvis that is concerning since pt
   continues to spike daily fevers, and drain is not positioned in fluid
   collection.
   - QD labs
   - Hct stable for several days, transfuse for goal >21
   - appreciate surgery recs
   - will check amylase in drain output and D/C drain if low amylase
   - trend LFTs
   - cont insulin gtt
   - cont cipro/flagyl (D2), cont vancomycin, fluconazole (D8)
   - IR postpyloric feeding tube
   - OGT to suction
   .
   .
   # [**Last Name (un) **]
 likely prerenal given septic shock, hypotension and urine lytes
   c/w this etiology. Could have component of ATN since continuing to
   worsen despite resusitation.  Nearly resolved and autodiuresing thought
   bumped a bit in the setting of lasix.
   - renally dose meds, avoid nephrotoxins
   .
   # Coagulopathy:  INR increased when argatroban started, so this is most
   likely cause.
   .
   #. Nutrition:
   - holding trophic TF for high residuals
   - TPN, add insulin prn and continue insulin gtt
   .
   # PPX:
   -DVT ppx with argatroban
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L SCL (day 8), PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-7**] 08:22 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-1-31**] 03:10 AM
   22 Gauge - [**2146-2-5**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-09 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2146-2-8**] 12:15 PM
   from L sc tlcl
 BLOOD CULTURED - At [**2146-2-8**] 12:25 PM
   from L sc tlcl
 FEVER - 101.9
F - [**2146-2-8**] 08:00 PM
   - argatroban drip titrated to PTT 80
   - serotonin assay sent
   - D/Ced abx (OK with [**Doctor First Name 91**] and ID)
   - TBB even at midnight
   - [**Doctor First Name 91**] recs: since high amylase in drain output, will leave in
   (although not sure its in correct place), no words on drainage of
   pelvic collection
   - scheduled for IR post-pyloric Dopoff, ? [**Female First Name (un) **]
   - acutely increased RR, increased tachy, and diaphoresis at about
   0400.  ABG, BCx, labs, EKG, CXR done.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-6**] 04:15 PM
   Ciprofloxacin - [**2146-2-8**] 07:22 AM
   Metronidazole - [**2146-2-8**] 08:22 AM
   Vancomycin - [**2146-2-8**] 09:25 AM
   Fluconazole - [**2146-2-8**] 11:30 AM
   Infusions:
   Argatroban - 0.25 mcg/Kg/min
   Insulin - Regular - 3 units/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-8**] 07:29 AM
   Fentanyl - [**2146-2-8**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   intubated and sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2146-2-9**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.1
C (100.6
   HR: 146 (105 - 147) bpm
   BP: 148/87(99) {127/63(79) - 173/156(160)} mmHg
   RR: 32 (17 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 137.2 kg (admission): 143 kg
    CVP: 8 (6 - 11)mmHg
   Bladder pressure: 9 (9 - 9) mmHg
   Total In:
                                                                  3,952 mL
                                                                    911 mL
   PO:
   TF:
   IVF:
                                                                  1,952 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  4,040 mL
                                                                  1,585 mL
   Urine:
                                                                  2,070 mL
                                                                    710 mL
   NG:
                                                                  1,550 mL
                                                                    700 mL
   Stool:
   Drains:
                                                                    420 mL
                                                                    175 mL
   Balance:
                                                                    -88 mL
                                                                   -674 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 60%
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.44/42/70/28/3
   Ve: 13.1 L/min
   PaO2 / FiO2: 117
   Physical Examination
   General Appearance: Overweight / Obese, Diaphoretic, in distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Distended, Tender: diffusely, quiet BS
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   241 K/uL
   9.2 g/dL
   90 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.7 mEq/L
   22 mg/dL
   108 mEq/L
   141 mEq/L
   29.3 %
   25.3 K/uL
        [image002.jpg]
                             [**2146-2-6**]  05:14 PM
                             [**2146-2-6**]  11:11 PM
                             [**2146-2-7**]  05:52 AM
                             [**2146-2-7**]  05:51 PM
                             [**2146-2-7**]  11:36 PM
                             [**2146-2-8**]  05:43 AM
                             [**2146-2-8**]  08:10 PM
                             [**2146-2-8**]  09:02 PM
                             [**2146-2-9**]  03:20 AM
                             [**2146-2-9**]  04:40 AM
   WBC
   20.4
   18.8
   25.3
   Hct
   26.2
   25.2
   25.5
   26.8
   26.2
   24.9
   29.3
   Plt
   93
   118
   241
   Cr
   0.8
   0.8
   0.7
   0.6
   TCO2
   33
   31
   29
   Glucose
   141
   105
   110
   90
   Other labs: PT / PTT / INR:38.5/81.6/4.0, CK / CKMB /
   Troponin-T:/2/<0.01, ALT / AST:57/71, Alk Phos / T Bili:61/1.8, Amylase
   / Lipase:225/86, Differential-Neuts:80.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:222 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:1.5 g/dL, LDH:317 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.9
   mg/dL
   Fluid analysis / Other labs: amylase from abdominal fluid > [**Numeric Identifier 1804**]
   Imaging: CT torso [**2146-2-7**]:
   IMPRESSION:
   1. Focal nonocclusive thrombus in the inferior vena cava at the level
   of the
   confluence of the common iliac veins. Additionally, occlusive or
   near-occlusive thrombus in the left common femoral vein at the level of
   the
   greater saphenous vein, extending proximally for approximately 6 cm.
   Relatively increased size and subcutaneous edema of the left lower
   extremity
   compared to the right.
   2. Interval increase in left pleural effusion, now moderate. Increase
   in
   amount of dependent atelectasis bilaterally. However, superimposed
   consolidation cannot be excluded.
   3. Stable degree of nonenhancing pancreatic parenchyma consistent with
   necrotizing pancreatitis.
   4. Variable change in size of peripancreatic fluid collections.
   Collection
   surrounding the pancreatic body is smaller than the prior study, but a
   larger,
   well-circumscribed, rim-enhancing collection has developed more
   distally.
   Regions of hemorrhagic fluid within the collections is unchanged.
   5. Persistent marked narrowing of the superior mesenteric vein at the
   confluence with the splenic and portal veins. Good opacification of the
   arterial vessels surrounding the pancreas, without filling defect or
   pseudoaneurysm.
   6. Interval improvement in intrahepatic biliary ductal dilatation, now
   mild.
   7. Moderate ascites and anasarca.
   Microbiology: cultures (-) to date
   ECG: sinus tach, normal axis, normal intervals, no ST-T changes
   concerning for ischemia, no evidence of right heart strain
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
 PANCREATITIS, ACUTE  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst . Drain in place. No e/o infection, has
   distributive shock picture with systemic inflammation. Continues to
   spike. Leukocytosis now trending up again. LFTS stable and normal. CT
   shows persistently enlarged fluid collection in pelvis on repeat
   abdomen, with amylase > [**Numeric Identifier 1804**] from drain.  Per Surgery, will continue
   to leave drain in place.  Suspect episode of tachypnea, tachycardia,
   and fever earlier this morning may be [**3-1**] pain from necrotizing
   pancreatitis +/- superimposed infection.
   - QD labs
   - trend Hct, transfuse for goal >21
   - appreciate surgery recs
   - trend LFTs
   - cont insulin gtt
   - culture fluid, restart vanc, zosyn, flagyl for broad coverage (VAP)
   - IR postpyloric feeding tube -> will defer till tomorrow
   - OGT to suction
 HYPOXEMIC RESPIRATORY FAILURE, ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])  Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue. Given (-) culture
   data to date, likely etiology of initial resp failure is distributive
   shock in setting of necrotizing pancreatitis.  Restrictive physiology
   likely contributed, in setting of very low lung volumes and abdominal
   distention.
   - maintain on PSVC/AC with ARDSnet settings: VT 6cc/kg now at 450 cc,
   goal Pa02>60, plateua pressure 28, permissive hypercapnea, PEEP 14,
   FiO2 60%
   - will remove esophageal balloon
   - cont sedation with fent and [**Doctor Last Name 5451**], consider weaning [**Last Name (LF) 5451**], [**First Name3 (LF) 124**]
   continue to convert fentanyl to methadone
   - concern for VAP given acute decompensation this morning off
   antibiotics, will send sputum for culture, start vanc/zosyn/flagyl
   - defer thoracentesis, low suspicion for empyema
   > FEVER/TACHYCARDIA- Infection vs. necrotizing pancreatitis vs. pain,
   or concomittant.  Possible etiologies of infection include VAP,
   abdomen, lines (bacteremia).  PE also a possibility, no hemodynamic
   compromise, unlikely to have such high fever with PE.
   - blood, abdominal fluid, sputum culture
   - treat fever with blanket
   - restart Abx as above
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS- Plt count trending
   up off heparin.  Left subclavian triple lumen cath is heparinized.  On
   argatroban.  Known significant clot burden in common femoral and IVC.
   No indication for IVC filter, as thrombus
   -  will cont argatroban, defer warfarin in short-term
   - cont to trend plts
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- Will monitor, empyema a less likely
   possibility of infection.  Will consider [**Female First Name (un) **] if current infectious
   work up is unrevealing.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely prerenal
   given septic shock, hypotension and urine lytes c/w this etiology.
   Could have component of ATN since continuing to worsen despite
   resusitation.  Nearly resolved and autodiuresing thought bumped a bit
   in the setting of lasix.
   - renally dose meds, avoid nephrotoxins
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.
   .
   #. Nutrition:
   - holding trophic TF for high residuals
   - TPN, add insulin prn and continue insulin gtt
   - will hold on post-pyloric dofhoff tube placement today acute
   decompensation
   .
   # PPX:
   -DVT ppx with argatroban
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L SCL (day 10), PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-8**] 08:20 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:   insulin gtt
   Lines:
   Multi Lumen - [**2146-1-31**] 03:10 AM
   22 Gauge - [**2146-2-5**] 04:00 PM
   Prophylaxis:
   DVT:   argatroban
   Stress ulcer:   pantoprazole
   VAP:   vanc, zosyn, flagyl
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 4**]

2146-02-10 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - continued to be tachycardic and febrile throughout day
   - converted zosyn to meropenem
   - bolused to UOP throughout day
   - left axillary a-line placed
   - hyperkalemia, without ECG changes -> titrated IVF boluses to UOP
   - delayed IR post-pyloric Dobhoff [**3-1**] acute decompensation
   - FEVER - 103.1
F - [**2146-2-9**] 08:02 AM
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Fluconazole - [**2146-2-8**] 11:30 AM
   Ciprofloxacin - [**2146-2-9**] 10:31 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-9**] 01:49 PM
   Meropenem - [**2146-2-9**] 10:53 PM
   Metronidazole - [**2146-2-10**] 03:30 AM
   Vancomycin - [**2146-2-10**] 04:30 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Fentanyl (Concentrate) - 475 mcg/hour
   Midazolam (Versed) - 18 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2146-2-9**] 07:30 AM
   Fentanyl - [**2146-2-9**] 07:30 AM
   Pantoprazole (Protonix) - [**2146-2-9**] 08:11 AM
   Dextrose 50% - [**2146-2-9**] 04:08 PM
   Methadone Hydrochloride - [**2146-2-10**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-10**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37.6
C (99.6
   HR: 141 (138 - 154) bpm
   BP: 98/55(66) {93/45(61) - 129/65(84)} mmHg
   RR: 24 (9 - 38) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 137.2 kg (admission): 143 kg
    CVP: 9 (3 - 10)mmHg
   Bladder pressure: 21 (21 - 21) mmHg
   Total In:
                                                                 10,928 mL
                                                                  2,536 mL
   PO:
   TF:
   IVF:
                                                                  9,209 mL
                                                                  2,536 mL
   Blood products:
   Total out:
                                                                  3,004 mL
                                                                    320 mL
   Urine:
                                                                  1,344 mL
                                                                    320 mL
   NG:
                                                                  1,450 mL
   Stool:
   Drains:
                                                                    210 mL
   Balance:
                                                                  7,924 mL
                                                                  2,216 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.32/53/89.[**Numeric Identifier 299**]/23/0
   Ve: 10.8 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   390 K/uL
   9.8 g/dL
   140 mg/dL
   1.2 mg/dL
   23 mEq/L
   6.6 mEq/L
   42 mg/dL
   106 mEq/L
   137 mEq/L
   32.7 %
   42.7 K/uL
        [image002.jpg]
                             [**2146-2-8**]  09:02 PM
                             [**2146-2-9**]  03:20 AM
                             [**2146-2-9**]  04:40 AM
                             [**2146-2-9**]  07:48 AM
                             [**2146-2-9**]  11:40 AM
                             [**2146-2-9**]  04:09 PM
                             [**2146-2-9**]  05:51 PM
                             [**2146-2-9**]  09:42 PM
                             [**2146-2-9**]  10:09 PM
                             [**2146-2-10**]  03:50 AM
   WBC
   25.3
   38.8
   42.7
   Hct
   24.9
   29.3
   33.8
   30.5
   32.7
   Plt
   241
   256
   390
   Cr
   0.6
   0.9
   1.0
   1.2
   TropT
   <0.01
   TCO2
   29
   26
   25
   29
   Glucose
   90
   [**Telephone/Fax (3) 11019**]
   Other labs: PT / PTT / INR:40.4/99.0/4.2, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:48/51, Alk Phos / T Bili:53/1.6,
   Amylase / Lipase:225/53, Differential-Neuts:83.0 %, Band:4.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:222 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.5 g/dL, LDH:377 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
 PANCREATITIS, ACUTE  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst . Drain in place. No identified source of
   infection, has distributive shock picture with systemic inflammation.
   Continues to spike. Leukocytosis now trending up again. LFTS stable and
   normal. CT shows persistently enlarged fluid collection in pelvis on
   repeat abdomen, with amylase > [**Numeric Identifier 1804**] from drain.  Per Surgery, will
   continue to leave drain in place.  Suspect episode of tachypnea,
   tachycardia, and fever earlier this morning may be [**3-1**] pain from
   necrotizing pancreatitis +/- superimposed infection.   Bladder pressure
   has increased this morning,
   - Concern for abdominal compartment syndrome with LOS + 30L, dwindeling
   urine output, elevated bladder pressure (21), and peak pressure 30-35
   (unable to get plateau).
       - ask surgery re: surgical decompression
       - consult renal re: cvvh
   - QID Electrolytes
   - trend Hct, transfuse for goal >21
   - appreciate surgery recs
   - trend LFTs
   - cont insulin gtt
   - culture fluid, restart vanc, zosyn, flagyl for broad coverage (VAP)
   - IR postpyloric feeding tube -> will defer till tomorrow
   - OGT to suction
   .
   Systemic inflamatory response
   ?peri sepsis with decreased urine output, antibiotics have been
   upgraded to vanc and [**Last Name (un) **].
   - low threshold for pressors
   - bolus liberally
   .
   Hyperkalemia/[**Last Name (un) **]
 Concern for abdominal compartment leading to
   decreased perfusion, cre climbing, UOP dwindling, could also be
   hypoperfusion.  Patient is non-response to lasix.
   - consult renal re: CVVH
   - MAPs greater than 65
   .
 HYPOXEMIC RESPIRATORY FAILURE, ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])  Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue. Given (-) culture
   data to date, likely etiology of initial resp failure is distributive
   shock in setting of necrotizing pancreatitis.  Restrictive physiology
   likely contributed, in setting of very low lung volumes and abdominal
   distention.
   - maintain on PSVC/AC with ARDSnet settings: VT 6cc/kg now at 450 cc,
   goal Pa02>60, plateua pressure 28, permissive hypercapnea, PEEP 14,
   FiO2 60%
   - will remove esophageal balloon
   - cont sedation with fent and [**Doctor Last Name 5451**], consider weaning [**Last Name (LF) 5451**], [**First Name3 (LF) 124**]
   continue to convert fentanyl to methadone
   - concern for VAP given acute decompensation this morning off
   antibiotics, will send sputum for culture, start vanc/zosyn/flagyl
   - defer thoracentesis, low suspicion for empyema
   > FEVER/TACHYCARDIA- Infection vs. necrotizing pancreatitis vs. pain,
   or concomittant.  Possible etiologies of infection include VAP,
   abdomen, lines (bacteremia).  PE also a possibility, no hemodynamic
   compromise, unlikely to have such high fever with PE.
   - blood, abdominal fluid, sputum culture
   - treat fever with blanket
   - restart Abx as above
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS- Plt count trending
   up off heparin.  Left subclavian triple lumen cath is heparinized.  On
   argatroban.  Known significant clot burden in common femoral and IVC.
   No indication for IVC filter, as thrombus
   -  will cont argatroban, defer warfarin in short-term
   - cont to trend plts
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- Will monitor, empyema a less likely
   possibility of infection.  Will consider [**Female First Name (un) **] if current infectious
   work up is unrevealing.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely prerenal
   given septic shock, hypotension and urine lytes c/w this etiology.
   Could have component of ATN since continuing to worsen despite
   resusitation.  Nearly resolved and autodiuresing thought bumped a bit
   in the setting of lasix.
   - renally dose meds, avoid nephrotoxins
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.
   .
   #. Nutrition:
   - holding trophic TF for high residuals
   - TPN, add insulin prn and continue insulin gtt
   - will hold on post-pyloric dofhoff tube placement today acute
   decompensation
   .
   # PPX:
   -DVT ppx with argatroban
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L SCL (day 10), PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
 SHOCK, SEPTIC
 PANCREATITIS, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEPARIN-INDUCED THROMBOCYTOPENIA
 TACHYCARDIA, OTHER
 HYPOTENSION (NOT SHOCK)
 PLEURAL EFFUSION, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O CHOLECYSTITIS, CALCULOUS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-1-31**] 03:10 AM
   22 Gauge - [**2146-2-5**] 04:00 PM
   20 Gauge - [**2146-2-9**] 04:35 PM
   Arterial Line - [**2146-2-9**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-11 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - Renal wants CVVH, Pat placed line
   - Sub-clavian d/c'd, replaced with Left IJ
   - 1 bottle grew back gram positive cocci
   24 Hour Events:
 DIALYSIS CATHETER - START [**2146-2-10**] 10:16 PM
 MULTI LUMEN - STOP [**2146-2-10**] 10:51 PM
 MULTI LUMEN - START [**2146-2-10**] 11:30 PM
 FEVER - 102.4
F - [**2146-2-10**] 08:00 PM
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Fluconazole - [**2146-2-8**] 11:30 AM
   Ciprofloxacin - [**2146-2-9**] 10:31 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-9**] 01:49 PM
   Vancomycin - [**2146-2-10**] 12:00 PM
   Meropenem - [**2146-2-10**] 04:25 PM
   Metronidazole - [**2146-2-10**] 08:35 PM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-10**] 08:00 AM
   Methadone Hydrochloride - [**2146-2-11**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-11**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.8
C (100.1
   HR: 129 (128 - 141) bpm
   BP: 101/55(69) {92/47(63) - 135/78(93)} mmHg
   RR: 0 (0 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 137.2 kg (admission): 143 kg
    CVP: 13 (13 - 13)mmHg
   Bladder pressure: 12 (12 - 15) mmHg
   Total In:
                                                                  4,843 mL
                                                                    275 mL
   PO:
   TF:
   IVF:
                                                                  4,843 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                  2,770 mL
                                                                    430 mL
   Urine:
                                                                  1,110 mL
                                                                    430 mL
   NG:
                                                                  1,620 mL
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                  2,073 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: 7.30/54/110/24/0
   Ve: 10.8 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   437 K/uL
   7.5 g/dL
   133 mg/dL
   2.0 mg/dL
   24 mEq/L
   5.7 mEq/L
   70 mg/dL
   106 mEq/L
   139 mEq/L
   25.4 %
   35.1 K/uL
        [image002.jpg]
                             [**2146-2-9**]  05:51 PM
                             [**2146-2-9**]  09:42 PM
                             [**2146-2-9**]  10:09 PM
                             [**2146-2-10**]  03:50 AM
                             [**2146-2-10**]  08:33 AM
                             [**2146-2-10**]  10:23 AM
                             [**2146-2-10**]  01:50 PM
                             [**2146-2-10**]  11:14 PM
                             [**2146-2-11**]  04:29 AM
                             [**2146-2-11**]  04:52 AM
   WBC
   42.7
   46.6
   35.1
   Hct
   30.5
   32.7
   30.0
   25.4
   Plt
   390
   407
   437
   Cr
   1.0
   1.2
   1.5
   2.0
   2.0
   TCO2
   25
   29
   28
   28
   28
   Glucose
   165
   140
   104
   108
   133
   Other labs: PT / PTT / INR:30.9/75.1/3.1,
   ALT / AST:43/50, Alk Phos / T Bili:49/1.3, Amylase / Lipase:225/53
   Ca++:6.9 mg/dL, Mg++:2.4 mg/dL, PO4:6.6 mg/dL
   BLOOD CX: GMC in clusters
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
 PANCREATITIS, ACUTE  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal. CT shows enlarged fluid
   collection in pelvis on repeat abdomen.  Per Surgery, will continue to
   leave drain in place (draining amylase but not in fluid collection).
   - Concern for abdominal compartment syndrome with LOS + 30L, dwindling
   urine output, elevated bladder pressure (21), and peak pressure 30-35
   (unable to get plateau).
       - ask surgery re: surgical decompression vs CT-guided fluid
   collection drainage
   - QID Electrolytes
   - trend Hct, transfuse for goal >21
   - trend LFTs
   - cont insulin gtt
   - on  vanc, meropenem, flagyl for broad coverage
   - IR postpyloric feeding tube -> will defer till tomorrow if getting
   CVVH today
   - OGT to suction
   .
   #. GMC BACTEREMIA: Anaerobic bottle from [**2146-2-9**] growing GMC in
   clusters
   - lines changed
   - f/u speciation and sensis
   - cont vancomycin
   - check daily trough given changing renal function
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN,
   continuing to worsen with hyperK and phos.
   - appreciate renal recs
   - CVVH today, line placed
   - renally dose meds, avoid nephrotoxins
   .
 HYPOXEMIC RESPIRATORY FAILURE, ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])  Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue. Given (-) culture
   data to date, likely etiology of initial resp failure is distributive
   shock in setting of necrotizing pancreatitis.  Restrictive physiology
   likely contributed, in setting of very low lung volumes and abdominal
   distention.
   - maintain on PSVC/AC with ARDSnet settings: VT 6cc/kg now at 450 cc,
   goal Pa02>60, plateua pressure 28, permissive hypercapnea, PEEP 16,
   FiO2 60%
   - cont sedation with fent and [**Doctor Last Name 5451**], consider weaning [**Last Name (LF) 5451**], [**First Name3 (LF) 124**]
   continue to convert fentanyl to methadone
   - given positive blood cx,  defer thoracentesis, low suspicion for
   empyema
   .
   > ANEMIA: Hct drop 5 pts today. Has occurred in past with no found
   source.
   - q6h Hct checks
   - transfusion goal >21
   .
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS- Plt count trending
   up off heparin.  On argatroban.  Known significant clot burden in
   common femoral and IVC.  No indication for IVC filter since pt has
   alternate explanation for fevers and tachycardia (bacteremia).
   -  will cont argatroban
   - cont to trend plts
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- Will monitor, empyema a less likely
   possibility of infection.
   -CVVH to address fluid overload
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.
   .
   #. Nutrition:
   - holding trophic TF for high residuals
   - TPN, add insulin prn and continue insulin gtt
   - will hold on post-pyloric dofhoff tube placement today acute
   decompensation
   .
   # PPX:
   -DVT ppx with argatroban
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L IJ, axillary A-line, PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-2-9**] 04:35 PM
   Arterial Line - [**2146-2-9**] 07:00 PM
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-12 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - blood cx growing CoNS, less convinced that caused
   decompensation
   - on CVVH
   - drain fluid sent for cx
   - renal rec Lasix in addition to CVVH, got 40 mg IV
   - Hct dropped to 23 then 21.9, got CT AB/PELV --> no RP/intra-ab bleed
   24 Hour Events:
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Ciprofloxacin - [**2146-2-9**] 10:31 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-2-9**] 01:49 PM
   Metronidazole - [**2146-2-11**] 12:00 PM
   Vancomycin - [**2146-2-11**] 08:30 PM
   Meropenem - [**2146-2-12**] 01:58 AM
   Infusions:
   Argatroban - 0.12 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Midazolam (Versed) - 10 mg/hour
   Insulin - Regular - 2 units/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-11**] 09:03 AM
   Furosemide (Lasix) - [**2146-2-11**] 06:21 PM
   Methadone Hydrochloride - [**2146-2-12**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-12**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96.1
   HR: 108 (94 - 115) bpm
   BP: 110/65(80) {97/54(70) - 145/77(97)} mmHg
   RR: 24 (0 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 137.2 kg (admission): 143 kg
    CVP: 12 (7 - 12)mmHg
   Total In:
                                                                  3,655 mL
                                                                  1,361 mL
   PO:
   TF:
   IVF:
                                                                  3,655 mL
                                                                  1,011 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  5,816 mL
                                                                  1,456 mL
   Urine:
                                                                  1,851 mL
                                                                    430 mL
   NG:
                                                                    875 mL
                                                                    145 mL
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                 -2,161 mL
                                                                    -95 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   SpO2: 97%
   ABG: 7.38/54/48/27/4
   Ve: 10.7 L/min
   PaO2 / FiO2: 80
   Physical Examination
   GEN: intubated, sedated, open eyes to voice, nonresponsive
   HEENT: L IJ in place, R HD line, sclera anicteric
   CV: RRR, no m/r/g
   PULM: CTAB anteriorly
   AB: distended, grimaces to palpation, quiet bowel sounds
   EXT: 2+ edema on R, 3+ on left, warm
   Labs / Radiology
   345 K/uL
   8.0 g/dL
   111 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   57 mg/dL
   105 mEq/L
   139 mEq/L
   26.5 %
   29.6 K/uL
        [image002.jpg]
                             [**2146-2-11**]  04:52 AM
                             [**2146-2-11**]  09:59 AM
                             [**2146-2-11**]  10:05 AM
                             [**2146-2-11**]  03:26 PM
                             [**2146-2-11**]  03:36 PM
                             [**2146-2-11**]  09:10 PM
                             [**2146-2-11**]  09:24 PM
                             [**2146-2-12**]  03:08 AM
                             [**2146-2-12**]  03:25 AM
                             [**2146-2-12**]  04:14 AM
   WBC
   29.6
   Hct
   23.0
   21.9
   26.5
   Plt
   345
   Cr
   1.7
   1.3
   1.3
   TCO2
   28
   26
   28
   31
   33
   33
   Glucose
   100
   110
   123
   111
   Other labs: PT / PTT / INR:29.3/71.0/2.9
    Ca++:7.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   MICRO:
   Drain output cx no polys, no orgs
   Blood cx [**2-9**] CoNS
   CT AB/PELV: increased pleural effusions L>R, increased ascites, stable
   size of fluid collection, no bleed
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
 PANCREATITIS, ACUTE  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal. Repeat CT shows increased ascites
   and stable sized fluid collection in pelvis, no source of bleeding.
   Per Surgery, will continue to leave drain in place (draining amylase
   but not in fluid collection). Drain fluid sent for cx, gram stain neg.
   Unlikely to have developed infection in abdomen at this point.
   - appreciate surgery recs, unlikely to drain fluid collection unless
   clinical indication of infection
   - QID Electrolytes
   - trend LFTs
   - cont insulin gtt
   - on  vanc for CoNS, meropenem empirically, would continue at least 10
   days given decompensation when D/Ced in past
   - IR postpyloric feeding tube next week
   - OGT to suction
   .
   #. CoNS BACTEREMIA: Anaerobic bottle from [**2146-2-9**] growing CoNS, less
   convincing that this explaned patient
s decompensation that day. Line
   had been placed emergently by surgery, so it may have been an
   infectious source.
   - lines changed
   - cont vancomycin 1g q24 while on CVVH
   - check daily trough given changing renal function
   - appreciate ID recs
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN. Started
   on CVVH with improvement in lytes and Cr. Patient currently more
   tachycardic, suggesting diuresis too aggressive or just too rapid.
   Remains 32L positive LOS, but largely this is not intravascular.
   - goal 1-2L negative today
   - Lasix prn to assist in fluid removal in addition to CVVH
   - appreciate renal recs
   - renally dose meds, avoid nephrotoxins
   .
   .
 HYPOXEMIC RESPIRATORY FAILURE, ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])  Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue. Given (-) culture
   data to date, likely etiology of initial resp failure is distributive
   shock in setting of necrotizing pancreatitis.  Restrictive physiology
   likely contributed, in setting of very low lung volumes and abdominal
   distention.
   - maintain on PSVC/AC with ARDSnet settings: VT 6cc/kg now at 450 cc,
   goal Pa02>60, plateua pressure 28, permissive hypercapnea, PEEP 16,
   FiO2 60%
   - cont sedation with fent and midaz, wean fentanyl daily and continue
   methadone
   .
   > ANEMIA: Hct drop 10 pts over 24 hours without obvious source. Pt had
   non-bloody BM, no hematuria. CT did not show source of bleeding, no RP
   bleed. [**Month (only) 8**] be due to blood loss and hemolysis in tubing for CVVH and
   equilibrium changes with fluid shifts. Received 1 U PRBCs with good
   response to 26.
   - guiaic OGT output
   - q6h Hct checks
   - transfusion goal >21
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS- Plt count trending
   up off heparin.  On argatroban.  Known significant clot burden in
   common femoral and IVC.  No indication for IVC filter since pt has
   alternate explanation for fevers and tachycardia (bacteremia). PTT at
   goal
   -  will cont argatroban and monitor PTT, goal 60-80
   .
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- Will monitor, empyema a less likely
   possibility of infection.
   -CVVH to address fluid overload
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.
   .
   #. Nutrition:
   - holding trophic TF for high residuals
   - restart TPN, add insulin prn and continue insulin gtt
   .
   # PPX:
   -DVT ppx with argatroban
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L IJ, R HD line, axillary A-line, PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-2-9**] 04:35 PM
   Arterial Line - [**2146-2-9**] 07:00 PM
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I have examined Mr [**Known lastname 10695**] and have reviewed his history and laboratory
   studies and imaging and was present for the key portions of the
   services provided today.  I have reviewed Dr [**Last Name (STitle) 659**]
s note and agree
   with her findings and plan of care.  This young man remains stably but
   critically ill, with necrotizing pancreatitis, resp failure, renal
   failure, and  HIT with ileofemoral clot.  We appreciate the input of
   medical and surgical consultants.  The patient
s resp failure now is as
   much due to  fluid overload as anything, and we will attempt to
   gradually keep him 1-2 L neg per day. We will try to utilize lasix for
   this as his kidneys allow, and meanwhile wean his Fentanyl, while
   keeping his pain under control with methadone.  Nutritiion is still via
   TPN.  He remains on argatroban for HIT. As he
s not showing any signs
   of worse sepsis, we will hold off on any IR attempts to drain any
   additional abdominal collections.
   45 min spent in the care of this critically ill patient.
   [**First Name8 (NamePattern2) 711**] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2146-2-12**] 13:50 ------

2146-02-13 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - continued CVVH
   - continued vanc and meropenem empirically
   - Hct stable
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Metronidazole - [**2146-2-11**] 12:00 PM
   Meropenem - [**2146-2-12**] 06:00 PM
   Vancomycin - [**2146-2-12**] 07:45 PM
   Infusions:
   Argatroban - 0.15 mcg/Kg/min
   Insulin - Regular - 2 units/hour
   Midazolam (Versed) - 6 mg/hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2146-2-13**] 03:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-13**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 103 (98 - 119) bpm
   BP: 135/68(87) {109/60(75) - 154/76(98)} mmHg
   RR: 20 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 137.2 kg (admission): 143 kg
    CVP: 15 (9 - 19)mmHg
   LOS: +25L
   Total In:
                                                                  7,051 mL
                                                                  2,122 mL
   PO:
   TF:
   IVF:
                                                                  6,701 mL
                                                                  2,122 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                 11,585 mL
                                                                  5,196 mL
   Urine:
                                                                  1,401 mL
                                                                    335 mL
   NG:
                                                                    545 mL
                                                                    275 mL
   Stool:
   Drains:
                                                                     40 mL
                                                                     20 mL
   Balance:
                                                                 -4,534 mL
                                                                 -3,074 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   SpO2: 98%
   ABG: 7.43/48/99.[**Numeric Identifier 299**]/30/6
   Ve: 10.8 L/min
   PaO2 / FiO2: 198
   Physical Examination
   GEN: intubated, sedated, open eyes to voice, nonresponsive
   HEENT: L IJ in place, R HD line, sclera anicteric
   CV: RRR, no m/r/g
   PULM: CTAB anteriorly
   AB: distended, grimaces to palpation, quiet bowel sounds
   EXT: 2+ edema on R, 3+ on left, warm
   Labs / Radiology
   364 K/uL
   7.9 g/dL
   97 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.7 mEq/L
   39 mg/dL
   101 mEq/L
   140 mEq/L
   25.0 %
   30.5 K/uL
        [image002.jpg]
                             [**2146-2-12**]  04:14 AM
                             [**2146-2-12**]  06:42 AM
                             [**2146-2-12**]  08:58 AM
                             [**2146-2-12**]  09:06 AM
                             [**2146-2-12**]  03:04 PM
                             [**2146-2-12**]  03:22 PM
                             [**2146-2-12**]  09:00 PM
                             [**2146-2-12**]  09:11 PM
                             [**2146-2-13**]  02:50 AM
                             [**2146-2-13**]  03:10 AM
   WBC
   30.5
   Hct
   24.6
   24.0
   23.9
   25.0
   Plt
   364
   Cr
   1.2
   1.0
   1.0
   TCO2
   33
   32
   31
   34
   34
   33
   Glucose
   95
   86
   85
   97
   Other labs: PT / PTT / INR:27.0/61.7/2.6, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:43/50, Alk Phos / T Bili:49/1.4,
   Amylase / Lipase:225/53, Differential-Neuts:83.0 %, Band:4.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:222 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.5 g/dL, LDH:326 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
 PANCREATITIS, ACUTE  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal. Repeat CT shows increased ascites
   and stable sized fluid collection in pelvis, no source of bleeding.
   Per Surgery, will continue to leave drain in place (draining amylase
   but not in fluid collection). Drain fluid sent for cx, gram stain neg.
   Unlikely to have developed infection in abdomen at this point.
   - appreciate surgery recs, unlikely to drain fluid collection unless
   clinical indication of infection
   - QID Electrolytes
   - trend LFTs
   - cont insulin gtt
   - on  vanc for CoNS, meropenem empirically, would continue at least 10
   days given decompensation when D/Ced in past
   - appreciate ID concerns however patient has clinically decompensated
   x2 when pseudomnoal coverage was decreased to anything less than
   zosyn.  At this point would continue meropenem until we can
   definitively r/o infected collection, which may have to be surgical.
   - Hold of on IR guided post-pyloric while we are still having high
   output from OGT.
   - OGT to suction
   .
   #. CoNS BACTEREMIA: Anaerobic bottle from [**2146-2-9**] growing CoNS, less
   convincing that this explaned patient
s decompensation that day. Line
   had been placed emergently by surgery, so it may have been an
   infectious source.
   - lines changed
   - cont vancomycin 1g q24 while on CVVH
   - check daily trough given changing renal function
   - appreciate ID recs
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN. Started
   on CVVH with improvement in lytes and Cr. Currently tolerating fluid
   removal VERY well, heart rate is as low as it has been on this
   hospitalization and his SBP has held up very well. Currently 25L (down
   from 32) positive LOS, but largely this is not intravascular.
   - goal is as negative as he can handle today keeping SBP>100
   - appreciate renal recs
   - renally dose meds, avoid nephrotoxins
   .
 HYPOXEMIC RESPIRATORY FAILURE, ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])  Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue. Given (-) culture
   data to date, likely etiology of initial resp failure is distributive
   shock in setting of necrotizing pancreatitis.  Restrictive physiology
   likely contributed, in setting of very low lung volumes and abdominal
   distention.
   - maintain on PSVC/AC with ARDSnet settings: VT 6cc/kg now at 450 cc,
   goal Pa02>60, plateua pressure 28, permissive hypercapnea, PEEP 16,
   FiO2 50%
   - cont sedation with fent and midaz, wean fentanyl daily and continue
   methadone
   - As fluid balance becomes progressively more negative can consider
   dropping PEEP
   .
   > ANEMIA: Hct drop 10 pts over 24 hours without obvious source. Pt had
   non-bloody BM, no hematuria. CT did not show source of bleeding, no RP
   bleed. [**Month (only) 8**] be due to blood loss and hemolysis in tubing for CVVH and
   equilibrium changes with fluid shifts.  HCT stable throughout the day
   yesterday
   - guiaic OGT output
   - q6h Hct checks
   - transfusion goal >21
   .
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS- Plt count trending
   up off heparin.  On argatroban.  Known significant clot burden in
   common femoral and IVC.  No indication for IVC filter since pt has
   alternate explanation for fevers and tachycardia (bacteremia). PTT at
   goal
   -  will cont argatroban and monitor PTT, goal 60-80
   .
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- Will monitor, empyema a less likely
   possibility of infection.
   -CVVH to address fluid overload
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.
   .
   #. Nutrition:
   - holding trophic TF for high residuals
   - restart TPN, add insulin prn and continue insulin gtt
   .
   # PPX:
   -DVT ppx with argatroban
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L IJ, R HD line, axillary A-line, PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-2-9**] 04:35 PM
   Arterial Line - [**2146-2-9**] 07:00 PM
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT: argatroban
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined Mr [**Known lastname 10695**] and was present for the key portions of
   the services provided.  I have reviewed Dr [**Last Name (STitle) 10932**]
s note above and
   agree with his findings and plan of care.
   [**Known firstname 884**] has done well in the past couple of days with hemodynamic
   stability, no evidence (on abx) of worse sepsis, and improving fluid
   status with the help of CVVH which  was able to make his I/O 4.5 L
   negative for yesterday.  His FiO2 is being decreased and his pleural
   effusions look a bit less on CXR.  He is still very sedated on
   methadone and fentanyl and the latter will continue to be decreased 20%
   daily.
   The issue of  antibiotic duration has been raised and I
ve spoken with
   Dr [**Last Name (STitle) 11063**], ID attending, who is understandably concerned about fungal
   superinfection in this young man who has been on abx for much of 3
   wks.  Dr [**Last Name (STitle) 11063**] agrees to continue current abx for [**3-2**] more days at
   which time ID, ICU, and surgery teams should confer to plan what to do
   if and when pt spikes fever when abx stopped (IR drainage of a
   pocket?).
   40 min spent in the care of this critically ill pt
   [**Name (NI) 711**] [**Name (NI) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2146-2-13**] 16:49 ------

2146-02-14 06:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ID wants to d/c meropenem, we respectfully declined
   - Cultured for "spike" on CVVH
   - fluid removal with no issues
   - around midnight became disynchronous with the vent, epigastrum was
   increasingly firm, tender.  WBC elevated, lactate normal.  Surgery
   called suggested non-urgent CT to evaluate for abscess, underlying
   abdominal pathology. Bladder pressure was 6, PIP was 30.  No concern
   for abdominal compartment.
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Metronidazole - [**2146-2-11**] 12:00 PM
   Vancomycin - [**2146-2-13**] 08:00 PM
   Meropenem - [**2146-2-14**] 02:03 AM
   Infusions:
   Argatroban - 0.3 mcg/Kg/min
   Insulin - Regular - 2 units/hour
   Midazolam (Versed) - 14 mg/hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-13**] 08:00 AM
   Methadone Hydrochloride - [**2146-2-14**] 03:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-14**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 105 (99 - 116) bpm
   BP: 142/78(98) {114/58(76) - 143/81(100)} mmHg
   RR: 23 (17 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 142 kg (admission): 143 kg
    CVP: 11 (5 - 15)mmHg
   Bladder pressure: 6 (6 - 6) mmHg
   19 liters positive LOS
   Total In:
                                                                  8,999 mL
                                                                  2,564 mL
   PO:
                                  TF:
   IVF:
                                                                  8,474 mL
                                                                  2,060 mL
   Blood products:
   Total out:
                                                                 18,421 mL
                                                                  2,338 mL
   Urine:
                                                                    958 mL
                                                                    200 mL
   NG:
                                                                  1,150 mL
                                                                    375 mL
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                 -9,422 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   SpO2: 98%
   ABG: 7.48/45/82.[**Numeric Identifier 253**]/31/8
   Ve: 11.6 L/min
   PaO2 / FiO2: 166
   Physical Examination
   GEN: intubated, sedated, open eyes to voice, nonresponsive
   HEENT: L IJ in place, R HD line, sclera anicteric
   CV: RRR, no m/r/g
   PULM: CTAB anteriorly
   AB: markedly more distended firm, had been exquisitely tender
   overnight, now no response with massively increased pain meds, quiet
   bowel sounds
   EXT: 2+ edema on R, 3+ on left, warm
   Labs / Radiology
   347 K/uL
   7.6 g/dL
   111 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.5 mEq/L
   30 mg/dL
   100 mEq/L
   140 mEq/L
   24.9 %
   37.8 K/uL
        [image002.jpg]
                             [**2146-2-13**]  09:22 AM
                             [**2146-2-13**]  01:02 PM
                             [**2146-2-13**]  02:55 PM
                             [**2146-2-13**]  03:15 PM
                             [**2146-2-13**]  09:00 PM
                             [**2146-2-13**]  09:07 PM
                             [**2146-2-14**]  12:42 AM
                             [**2146-2-14**]  12:57 AM
                             [**2146-2-14**]  02:52 AM
                             [**2146-2-14**]  03:06 AM
   WBC
   40.1
   37.8
   Hct
   23.5
   24.1
   24.6
   24.9
   Plt
   364
   347
   Cr
   0.8
   0.9
   0.8
   0.8
   TCO2
   35
   35
   34
   33
   34
   Glucose
   82
   118
   116
   111
   Other labs: PT / PTT / INR:26.7/62.6/2.6, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:43/50, Alk Phos / T Bili:49/1.4,
   Amylase / Lipase:225/53, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:222 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:1.5 g/dL, LDH:326 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
 PANCREATITIS, ACUTE  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal.  Patient acutely worsened
   overnight with increased abdominal pain, distension and tenderness.  In
   addition his white count continues to rise and he continues to spike
   fevers.   Further he was fighting the vent and tachycardic overnight,
   all of which likely represent worsening abdominal pathology.  KUB was
   unfotunately unhelpful given habitus.  Suspicion for compartment
   syndrome is low  given unchanged PIPs and low bladder pressures.
   Suspicion for infected fluid collection is high, and patient continues
   to bump his white count and spike intermittently but is never culture
   positive.
   - Repeat abdominal CT today.
   - Discuss drainage with surgery.
   - Continue meropenem empirically, would continue at least 10 days given
   decompensation when D/Ced in past
   - QID Electrolytes
   - cont insulin gtt
   - appreciate ID concerns however patient has clinically decompensated
   x2 when pseudomnoal coverage was decreased to anything less than
   zosyn.  At this point would continue meropenem until we can
   definitively r/o infected collection, which may have to be surgical.
   - Hold of on IR guided post-pyloric while we are still having high
   output from OGT.
   - OGT to suction
   .
   #. CoNS BACTEREMIA: Anaerobic bottle from [**2146-2-9**] growing CoNS, less
   convincing that this explaned patient
s decompensation that day. Line
   had been placed emergently by surgery, so it may have been an
   infectious source.
   - lines changed
   - cont vancomycin 1g q24 while on CVVH
   - check daily trough given changing renal function
   - appreciate ID recs
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN. Started
   on CVVH with improvement in lytes and Cr. Currently tolerating fluid
   removal well, heart rate is as low as it has been on this
   hospitalization and his SBP has held up very well. Unclear as to
   whether event yesterday was somehow related to fluid shifts so patient
   was kept even overnight.  As he has now clinically stabilized, we will
   restart diuresis.  Currently 19L (down from peak 32) positive LOS.
    - goal is more gentle today, max of
([**6-3**])
   - appreciate renal recs
   - renally dose meds, avoid nephrotoxins
   .
 HYPOXEMIC RESPIRATORY FAILURE, ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])  Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue. Given (-) culture
   data to date, likely etiology of initial resp failure is distributive
   shock in setting of necrotizing pancreatitis.  Restrictive physiology
   likely contributed, in setting of very low lung volumes and abdominal
   distention.
   - maintain on PSVC/AC with ARDSnet settings: VT 6cc/kg now at 450 cc,
   goal Pa02>50, plateua pressure 28, permissive hypercapnea, PEEP 16,
   FiO2 50%
   - cont sedation with fent and midaz.
   - Will attempt to wean fentanyl daily while titrating up methadone
   - As fluid balance becomes progressively more negative can consider
   dropping PEEP
   .
   > ANEMIA:HCT stabilized
   .
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS- Plt count trending
   up off heparin.  On argatroban.  Known significant clot burden in
   common femoral and IVC.  No indication for IVC filter since pt has
   alternate explanation for fevers and tachycardia (bacteremia). PTT at
   goal
   -  will cont argatroban and monitor PTT, goal 60-80
   .
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- Will monitor, empyema a less likely
   possibility of infection.
   -CVVH to address fluid overload
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.
   .
   #. Nutrition:
   - holding trophic TF for high residuals
   - restart TPN, add insulin prn and continue insulin gtt
   .
   # PPX:
   -DVT ppx with argatroban
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L IJ, R HD line, axillary A-line, PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-2-9**] 04:35 PM
   Arterial Line - [**2146-2-9**] 07:00 PM
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT: argatroban
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   On this day I examined [**Known firstname 884**] and also reviewed the 24hr events and
   lab/imaging data. I was present for the key portion of the services
   provided and have reviewed Dr [**Last Name (STitle) 10932**]
s note above. I agree with his
   findings and plan of care.
   The major event overnight has been epigastric protuberance and pain in
   the setting of fever and leukocytosis, all concerning for an
   intrabdominal (?retroperitoneal?) process.  CT scan done and results
   pending. We will collaborate with our surgical, radiological, and ID
   colleagues to decide if there is anything in the pt
s belly that needs
   drainage or a change in abx at this time.
   Meanwhile the patient has been otherwise quite stable, being able to
   hemodynamically  tolerate having over 10L removed via CVVH yesterday.
   Resp status unchanged, but with ETT now for over 2wks I think he will
   need a trache, as has been previously anticipated.  For now pain med
   reduction on hold in light of pt
s pain last night.  HIT ileofemoral
   thrombosis stable as best as we can tell, and pt has adequate
   anticoagulation on argatroban.
   45 min spent in the care of this critically ill pt
   [**Name (NI) 711**] [**Name (NI) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2146-2-14**] 11:44 ------

2146-02-15 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - vanco trough 5.2, increased to 1g q12, needs trough checked [**2-16**] AM
   - repeat CT showed nothing that surgery was interested in draining
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-14**] 09:43 PM
   Meropenem - [**2146-2-15**] 02:01 AM
   Infusions:
   Argatroban - 0.4 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Midazolam (Versed) - 14 mg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2146-2-15**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-15**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 120 (104 - 122) bpm
   BP: 115/61(78) {105/57(73) - 164/99(120)} mmHg
   RR: 24 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 142 kg (admission): 143 kg
    CVP: 10 (10 - 14)mmHg
   Bladder pressure: 8 (8 - 8) mmHg
   Total In:
                                                                 10,178 mL
                                                                  3,510 mL
   PO:
   TF:
   IVF:
                                                                  7,328 mL
                                                                  2,928 mL
   Blood products:
   Total out:
                                                                  8,458 mL
                                                                  3,381 mL
   Urine:
                                                                    880 mL
                                                                    275 mL
   NG:
                                                                    875 mL
                                                                     50 mL
   Stool:
   Drains:
                                                                     25 mL
   Balance:
                                                                  1,720 mL
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 56.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/55/82.[**Numeric Identifier 253**]/31/9
   Ve: 11.7 L/min
   PaO2 / FiO2: 166
   GEN: intubated, sedated, open eyes to voice, nonresponsive
   HEENT: L IJ in place, R HD line, sclera anicteric
   CV: RRR, no m/r/g
   PULM: CTAB anteriorly
   AB: markedly more distended firm, had been exquisitely tender
   overnight, now no response with massively increased pain meds, quiet
   bowel sounds
   EXT: 2+ edema on R, 3+ on left, warm
   Labs / Radiology
   313 K/uL
   7.2 g/dL
   97 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.7 mEq/L
   31 mg/dL
   97 mEq/L
   136 mEq/L
   23.5 %
   36.8 K/uL
        [image002.jpg]
                             [**2146-2-14**]  03:06 AM
                             [**2146-2-14**]  07:46 AM
                             [**2146-2-14**]  08:25 AM
                             [**2146-2-14**]  01:48 PM
                             [**2146-2-14**]  02:04 PM
                             [**2146-2-14**]  08:08 PM
                             [**2146-2-14**]  08:36 PM
                             [**2146-2-15**]  12:01 AM
                             [**2146-2-15**]  03:11 AM
                             [**2146-2-15**]  03:34 AM
   WBC
   34.7
   36.8
   Hct
   21.9
   23.6
   23.5
   Plt
   307
   313
   Cr
   0.8
   0.8
   0.7
   0.8
   TCO2
   34
   35
   35
   35
   38
   Glucose
   122
   123
   116
   97
   Other labs: PT / PTT / INR:27.8/55.6/2.7, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:38/55, Alk Phos / T Bili:57/1.2,
   Amylase / Lipase:225/53, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:222 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:1.8 g/dL, LDH:250 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   1. Stable heterogenous enhancement of the pancreas with lack of
   enhancement
   involving the pancreatic head, neck and proximal body, consistent with
   necrotizing pancreatitis. Slight interval decrease in size of
   pancreatic fluid
   collection. Slight interval decrease in size of heterogenous left
   abdominal
   fluid collection with enhancing rim, slightly more homogenous in
   appearance
   but still c/w evolving hemorrhagic products. superinfection cannot be
   excluded.
   2. stable narrowing of the confluence of the SMV, portal vein extending
   to
   proximal splenic vein.
   3. stable splenic infarcts.
   4. stable expansion of left femoral vein c/w known clot.
   5. intrahepatic biliary dilitation, not significantly changed.
   6. diffuse anasarca and intraabdominal ascites.
   7. mod to large left and small right pleural effusions with adjacent
   compressive atelectasis. stable ground glass opacity in the right
   middle lobe
   which could represent infection. clinical correlation is recommended.
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
 PANCREATITIS, ACUTE  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal.  Patient acutely worsened
   overnight with increased abdominal pain, distension and tenderness.  In
   addition his white count continues to rise and he continues to spike
   fevers.   Further he was fighting the vent and tachycardic overnight,
   all of which likely represent worsening abdominal pathology.  KUB was
   unfotunately unhelpful given habitus.  Suspicion for compartment
   syndrome is low given unchanged PIPs and low bladder pressures.
   Suspicion for infected fluid collection is high, and patient continues
   to bump his white count and spike intermittently but is never culture
   positive.  Despite a CT that only showed interval resolution, he
   continues to be distended with frank tenderness on exam.
   - Surgery refused drainage yesterday, would readdress today.  Abscess
   is very high in the differential, given known standing fluid
   collections, white count and fever refractory to antibiotics.  The only
   definitive treatment for an abscess is obviously drainage and we can
   never know if he has an abscess without draining it.
   - Continue meropenem empirically, would continue at least 10 days given
   decompensation when D/Ced in past
   - QID Electrolytes
   - cont insulin gtt
   - continue switching pain meds over to methadone, increase to 40mg q4,
   wean down fentanyl.
   - would place an OG tube to suction
   - appreciate ID concerns however patient has clinically decompensated
   x2 when pseudomnoal coverage was decreased to anything less than
   zosyn.  At this point would continue meropenem until we can
   definitively r/o infected collection, which may have to be surgical.
   - resume running negative on CVVH
   - Hold off on IR guided post-pyloric while we are still having high
   output from OGT.
   - leave post-pyloric tube in place for eventual feedings
   .
   #. CoNS BACTEREMIA: Anaerobic bottle from [**2146-2-9**] growing CoNS, less
   convincing that this explaned patient
s decompensation that day. Line
   had been placed emergently by surgery, so it may have been an
   infectious source.
   - lines changed
   - cont vancomycin 1g q12 while on CVVH
   - check daily trough given changing renal function
   - appreciate ID recs
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN. Started
   on CVVH with improvement in lytes and Cr. Currently tolerating fluid
   removal well, heart rate is as low as it has been on this
   hospitalization and his SBP has held up very well. Unclear as to
   whether event yesterday was somehow related to fluid shifts so patient
   was kept even overnight.  As he has now clinically stabilized, we will
   restart diuresis.  Currently 20L (down from peak 32) positive LOS.
    - goal is as negative as his hemodynamics will tolerate today
   - appreciate renal recs
   - renally dose meds, avoid nephrotoxins
   .
 HYPOXEMIC RESPIRATORY FAILURE, ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])  Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue. Given (-) culture
   data to date, likely etiology of initial resp failure is distributive
   shock in setting of necrotizing pancreatitis.  Restrictive physiology
   likely contributed, in setting of very low lung volumes and abdominal
   distention.
   - maintain on PSVC/AC with ARDSnet settings: VT 6cc/kg now at 450 cc,
   goal Pa02>50, plateua pressure 28, permissive hypercapnea, PEEP 16,
   FiO2 50%
   - cont sedation with fent and midaz.
   - Will attempt to wean fentanyl daily while titrating up methadone
   - As fluid balance becomes progressively more negative can consider
   dropping PEEP
   .
   > ANEMIA:HCT stabilized
   .
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS- Plt count trending
   up off heparin.  On argatroban.  Known significant clot burden in
   common femoral and IVC.  No indication for IVC filter since pt has
   alternate explanation for fevers and tachycardia (bacteremia). PTT at
   goal
   -  will cont argatroban and monitor PTT, goal 60-80
   .
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- Will monitor, empyema a less likely
   possibility of infection.
   -CVVH to address fluid overload
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.
   .
   #. Nutrition:
   - holding trophic TF for high residuals
   - restart TPN, add insulin prn and continue insulin gtt
   .
   # PPX:
   -DVT ppx with argatroban
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L IJ, R HD line, axillary A-line, PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-14**] 03:56 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-2-9**] 07:00 PM
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   20 Gauge - [**2146-2-14**] 10:00 AM
   Prophylaxis:
   DVT: argatroban
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-15 10:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Increased abdominal pain yesterday, [**Doctor Last Name **] without dramatic change in abd
   CT scan --> no surgical intervention planned.
   More sedation today.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Meropenem - [**2146-2-15**] 02:01 AM
   Vancomycin - [**2146-2-15**] 09:00 AM
   Infusions:
   Argatroban - 0.4 mcg/Kg/min
   Midazolam (Versed) - 14 mg/hour
   Insulin - Regular - 3 units/hour
   Fentanyl (Concentrate) - 450 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Methadone Hydrochloride - [**2146-2-15**] 08:10 AM
   Pantoprazole (Protonix) - [**2146-2-15**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-31**] Mild
   Pain location: epigastric pain
   Flowsheet Data as of  [**2146-2-15**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 108 (85 - 122) bpm
   BP: 127/61(80) {105/57(73) - 164/99(120)} mmHg
   RR: 24 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 142 kg (admission): 143 kg
   CVP: 13 (10 - 14)mmHg
   Bladder pressure: 8 (8 - 8) mmHg
   Total In:
                                                                 10,178 mL
                                                                  5,407 mL
   PO:
   TF:
   IVF:
                                                                  7,328 mL
                                                                  4,535 mL
   Blood products:
   Total out:
                                                                  8,458 mL
                                                                  6,063 mL
   Urine:
                                                                    880 mL
                                                                    440 mL
   NG:
                                                                    875 mL
                                                                    450 mL
   Stool:
   Drains:
                                                                     25 mL
   Balance:
                                                                  1,720 mL
                                                                   -656 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 56.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/52/114/34/10
   Ve: 10.8 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, Tender: , Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.2 g/dL
   313 K/uL
   96 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.4 mEq/L
   31 mg/dL
   94 mEq/L
   136 mEq/L
   23.5 %
   36.8 K/uL
        [image002.jpg]
                             [**2146-2-14**]  08:25 AM
                             [**2146-2-14**]  01:48 PM
                             [**2146-2-14**]  02:04 PM
                             [**2146-2-14**]  08:08 PM
                             [**2146-2-14**]  08:36 PM
                             [**2146-2-15**]  12:01 AM
                             [**2146-2-15**]  03:11 AM
                             [**2146-2-15**]  03:34 AM
                             [**2146-2-15**]  07:50 AM
                             [**2146-2-15**]  08:31 AM
   WBC
   34.7
   36.8
   Hct
   21.9
   23.6
   23.5
   Plt
   307
   313
   Cr
   0.8
   0.7
   0.8
   TCO2
   35
   35
   35
   38
   37
   Glucose
   123
   116
   97
   96
   Other labs: PT / PTT / INR:27.8/63.5/2.7, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:38/55, Alk Phos / T Bili:57/1.2,
   Amylase / Lipase:225/53, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:222 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:1.8 g/dL, LDH:250 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   28 yom gallstone pancreatitis, now complicated by necrosis and
   pseudocyst, hypoxic respiratory failure.
   RESPIRATORY FAILURE -- persistent, likely attributed to acute
   pancreatitis.  Chest wall contributing to restirictive mechanics.  Plan
   continue mechanical ventilation.  Would plan to proceed with trach.
   ACUTE PANCREATITIS --   severe, necrotic, complicated with pseudocyst.
   Repeat CT scan without dramatic change.  Active inflammation.  Maintain
   percutaneous drain.  Maintain OGT to suction (may need to reposition to
   decompress stomach).  General Surgery to follow.
   BACTEREMIA -- coagulase negative, likely line related.  Central line
   d/c'd --> new lines in place.
   PAIN MANAGEMENT -- continue to optimize.  Fentanyl
   RENAL FAILURE -- continue CVVH.
   FLIUDS -- net volume resussitation fluid positive.  Hope to be able to
   net diurese.
   HYPOTKALEMIA
 replete to K> 4.0
   NUTRITIONAL SUPPORT -- continue TPN.  Hope to iniitate trophic TF once
   post-pyloric (?jejunal) tube placed.
   HIT+ -- continue argatroban.
   DVT -- line-related.  Continue anticoagulation.
   PLEURAL EFFUSION, ACUTE -- attributed to acute pancreatitis.
   h/o CHOLECYSTITIS, CALCULOUS -- Resolved.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-14**] 03:56 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-2-9**] 07:00 PM
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   20 Gauge - [**2146-2-14**] 10:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, Argantroban)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2146-02-16 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - plan for radiology-guided post-pyloric NG tube placement (for
   nutrition), while withdrawing current OG tube to stomach for continuous
   suction
   - cont on CVVH
   - received one unit of PRBC overnight for Hct 21.3
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-15**] 05:10 PM
   Meropenem - [**2146-2-15**] 09:27 PM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Fentanyl (Concentrate) - 375 mcg/hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-15**] 08:17 AM
   Methadone Hydrochloride - [**2146-2-16**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-16**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 112 (104 - 121) bpm
   BP: 141/76(98) {111/50(69) - 142/78(100)} mmHg
   RR: 26 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 142 kg (admission): 143 kg
    CVP: 11 (9 - 13)mmHg
   Bladder pressure: 5 (5 - 8) mmHg
   LOS - + 15.5
   Total In:
                                                                 12,655 mL
                                                                  3,720 mL
   PO:
                               TF:
   IVF:
                                                                 10,480 mL
                                                                  2,932 mL
   Blood products:
                                                                    175 mL
                                                                    175 mL
   Total out:
                                                                 16,410 mL
                                                                  4,838 mL
   Urine:
                                                                    910 mL
                                                                    230 mL
   NG:
                                                                  1,490 mL
                                                                    415 mL
   Stool:
   Drains:
                                                                    275 mL
                                                                    250 mL
   Balance:
                                                                 -3,755 mL
                                                                 -1,118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.42/53/146/29/8
   Ve: 11.9 L/min
   PaO2 / FiO2: 292
   Physical Examination
   GEN: intubated, sedated, open eyes to voice, nonresponsive
   HEENT: L IJ in place, R HD line, sclera anicteric
   CV: RRR, no m/r/g
   PULM: CTAB anteriorly
   AB: markedly more distended firm, no longer  tender overnight, now no
   response with massively increased pain meds, quiet bowel sounds
   EXT: 2+ edema on R, 3+ on left, warm
   Labs / Radiology
   213 K/uL
   7.2 g/dL
   131
   0.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   35 mg/dL
   99 mEq/L
   135 mEq/L
   23.1 %
   26.3 K/uL
        [image002.jpg]
                             [**2146-2-15**]  03:34 AM
                             [**2146-2-15**]  07:50 AM
                             [**2146-2-15**]  08:31 AM
                             [**2146-2-15**]  01:59 PM
                             [**2146-2-15**]  02:23 PM
                             [**2146-2-15**]  08:10 PM
                             [**2146-2-15**]  08:44 PM
                             [**2146-2-16**]  02:49 AM
                             [**2146-2-16**]  03:14 AM
                             [**2146-2-16**]  05:00 AM
   WBC
   26.3
   Hct
   21.3
   23.1
   Plt
   213
   Cr
   0.8
   TCO2
   38
   37
   37
   35
   36
   Glucose
   96
   106
   104
   110
   131
   Other labs: PT / PTT / INR:30.4/70.9/3.0, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:37/58, Alk Phos / T Bili:59/2.7,
   Amylase / Lipase:225/53, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:222 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:1.8 g/dL, LDH:250 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
 PANCREATITIS, ACUTE  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal.  Patient acutely worsened
   overnight with increased abdominal pain, distension and tenderness.  In
   addition his white count continues to rise and he continues to spike
   fevers.   Further he was fighting the vent and tachycardic overnight,
   all of which likely represent worsening abdominal pathology.  KUB was
   unfotunately unhelpful given habitus.  Suspicion for compartment
   syndrome is low given unchanged PIPs and low bladder pressures.
   Suspicion for infected fluid collection is high, and patient continues
   to bump his white count and spike intermittently but is never culture
   positive.  Despite a CT that only showed interval resolution, he
   continues to be distended with frank tenderness on exam.
   - Surgery has refused drainage, would readdress this daily.  Abscess is
   very high in the differential, given known standing fluid collections,
   white count and fever refractory to antibiotics.  The only definitive
   treatment for an abscess is obviously drainage and we can never know if
   he has an abscess without draining it.  However today white count has
   dropped 10 points, and would defer while clinically improving as our
   evidence for abscess will remain clinical.
   - Continue meropenem empirically, would continue at least 10 days given
   decompensation when D/Ced in past
   - QID Electrolytes
   - cont insulin gtt
   - continue switching pain meds over to methadone, increase to 40mg q4,
   wean down fentanyl.
   - IR to place postpyloric feeding tube, and pull back current tube for
   stomach decompression.
   - appreciate ID concerns however patient has clinically decompensated
   x2 when pseudomnoal coverage was decreased to anything less than
   zosyn.  At this point would continue meropenem until we can
   definitively r/o infected collection, which may have to be surgical.
   - resume running negative on CVVH (15L + LOS currently)
   .
   #. CoNS BACTEREMIA: Anaerobic bottle from [**2146-2-9**] growing CoNS, less
   convincing that this explaned patient
s decompensation that day. Line
   had been placed emergently by surgery, so it may have been an
   infectious source.
   - lines changed
   - cont vancomycin 1g q12 while on CVVH
   - check daily trough given changing renal function
   - appreciate ID recs
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN. Started
   on CVVH with improvement in lytes and Cr. Currently tolerating fluid
   removal well, heart rate is as low as it has been on this
   hospitalization and his SBP has held up very well. Unclear as to
   whether event yesterday was somehow related to fluid shifts so patient
   was kept even overnight.  As he has now clinically stabilized, we will
   restart diuresis.  Currently 20L (down from peak 32) positive LOS.
    - goal is as negative as his hemodynamics will tolerate today
   - appreciate renal recs
   - renally dose meds, avoid nephrotoxins
   .
 HYPOXEMIC RESPIRATORY FAILURE, ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])  Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue. Given (-) culture
   data to date, likely etiology of initial resp failure is distributive
   shock in setting of necrotizing pancreatitis.  Restrictive physiology
   likely contributed, in setting of very low lung volumes and abdominal
   distention.
   - maintain on PSVC/AC with ARDSnet settings: VT 6cc/kg now at 450 cc,
   goal Pa02>50, plateua pressure 28, permissive hypercapnea, PEEP 16,
   FiO2 50%
   - cont sedation with fent and midaz.
   - Will attempt to wean fentanyl daily while titrating up methadone
   - As fluid balance becomes progressively more negative can consider
   dropping PEEP
   - Trach?
   .
   > ANEMIA:HCT stabilized
   .
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS- Plt count trending
   up off heparin.  On argatroban.  Known significant clot burden in
   common femoral and IVC.  No indication for IVC filter since pt has
   alternate explanation for fevers and tachycardia (bacteremia). PTT at
   goal
   -  will cont argatroban and monitor PTT, goal 60-80
   .
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- Will monitor, empyema a less likely
   possibility of infection.
   -CVVH to address fluid overload
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.
   .
   #. Nutrition:
   - holding trophic TF for high residuals
   - restart TPN, add insulin prn and continue insulin gtt
   .
   # PPX:
   -DVT ppx with argatroban
   - IV pantoprazole
   -bowel regimen
   -Pain management
   .
   # ACCESS:  L IJ, R HD line, axillary A-line, PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-14**] 03:56 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-2-9**] 07:00 PM
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   20 Gauge - [**2146-2-14**] 10:00 AM
   Prophylaxis:
   DVT: argatroban
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-16 11:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Briefly awake this AM, opens eyes to command, and squeezes hands to
   command.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-16**] 08:29 AM
   Meropenem - [**2146-2-16**] 09:42 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Argatroban - 0.65 mcg/Kg/min
   Fentanyl (Concentrate) - 375 mcg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-16**] 08:30 AM
   Methadone Hydrochloride - [**2146-2-16**] 09:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-2-16**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 101 (101 - 121) bpm
   BP: 131/70(91) {111/50(69) - 142/79(101)} mmHg
   RR: 24 (17 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 142 kg (admission): 143 kg
   CVP: 13 (9 - 13)mmHg
   Bladder pressure: 5 (5 - 5) mmHg
                              Total In:
                                                                 12,666 mL
                                                                  6,288 mL
   PO:
                              TF:
   IVF:
                                                                 10,491 mL
                                                                  5,157 mL
   Blood products:
                                                                    175 mL
                                                                    175 mL
   Total out:
                                                                 16,410 mL
                                                                  8,119 mL
   Urine:
                                                                    910 mL
                                                                    440 mL
   NG:
                                                                  1,490 mL
                                                                    615 mL
   Stool:
   Drains:
                                                                    275 mL
                                                                    250 mL
   Balance:
                                                                 -3,744 mL
                                                                 -1,831 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   Compliance: 112.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/55/134/29/5
   Ve: 11.2 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   No(t) Tender: , Obese, Firm rounded density in epigastric region
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.2 g/dL
   213 K/uL
   131
   0.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   35 mg/dL
   99 mEq/L
   135 mEq/L
   23.1 %
   26.3 K/uL
        [image002.jpg]
                             [**2146-2-15**]  07:50 AM
                             [**2146-2-15**]  08:31 AM
                             [**2146-2-15**]  01:59 PM
                             [**2146-2-15**]  02:23 PM
                             [**2146-2-15**]  08:10 PM
                             [**2146-2-15**]  08:44 PM
                             [**2146-2-16**]  02:49 AM
                             [**2146-2-16**]  03:14 AM
                             [**2146-2-16**]  05:00 AM
                             [**2146-2-16**]  10:38 AM
   WBC
   26.3
   Hct
   21.3
   23.1
   Plt
   213
   Cr
   0.8
   TCO2
   37
   37
   35
   36
   33
   Glucose
   96
   106
   104
   110
   131
   Other labs: PT / PTT / INR:30.4/76.9/3.0, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:37/58, Alk Phos / T Bili:59/2.7,
   Amylase / Lipase:225/53, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:222 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:1.8 g/dL, LDH:250 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   28 yom gallstone pancreatitis, now complicated by necrosis and
   pseudocyst, hypoxic respiratory failure.
   RESPIRATORY FAILURE -- persistent, multifactorial likely predominately
   attributed to acute pancreatitis.  Chest wall contributing to
   restrictive mechanics.  Plan continue mechanical ventilation.  Hope to
   wean PEEP.  Would plan to proceed with trach.
   ACUTE PANCREATITIS --   severe, necrotic, complicated with pseudocyst.
   Repeat CT scan without dramatic change.  Active inflammation persists.
   Maintain percutaneous drain.  Maintain OGT to suction (may need to
   reposition to decompress stomach).  General Surgery to follow.
   BACTEREMIA -- coagulase negative, likely line related.  Central line
   d/c'd --> new lines in place.
   PAIN MANAGEMENT -- continue to optimize.  Fentanyl, now slowly
   tapering.
   RENAL FAILURE -- attributed to iv contrast dye nephropathy;  continue
   CVVH as tolerated.
   FLUIDS -- net volume resussitation fluid positive.  Plan to continue to
   net diurese.
   HYPOTKALEMIA
 replete to K> 4.0
   NUTRITIONAL SUPPORT -- continue TPN.  Hope to iniitate trophic TF once
   post-pyloric (?jejunal) tube placed.
   HIT+ -- continue argatroban.
   DVT -- line-related.  Continue anticoagulation.
   PLEURAL EFFUSION, ACUTE -- attributed to acute pancreatitis.
   h/o CHOLECYSTITIS, CALCULOUS -- Resolved.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-15**] 03:49 PM 83 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-2-9**] 07:00 PM
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   20 Gauge - [**2146-2-14**] 10:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2146-02-17 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - semi-elemental TF for trophic feeds: Peptamen 1.5 at 10cc/hr goal at
   55
   - vanc dosing changed to q12h
   - Went down for OG and post "ligament of treitz" feeding tube.  When OG
   was placed to suction, immediately drained 350cc of bile and contrast.
   epigastrum still firm.
   Allergies:
   Morphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-16**] 08:05 PM
   Meropenem - [**2146-2-16**] 10:08 PM
   Infusions:
   Argatroban - 0.65 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-16**] 08:30 AM
   Fentanyl - [**2146-2-16**] 11:03 PM
   Midazolam (Versed) - [**2146-2-17**] 02:20 AM
   Methadone Hydrochloride - [**2146-2-17**] 06:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-17**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 110 (101 - 120) bpm
   BP: 135/72(94) {118/63(81) - 149/82(104)} mmHg
   RR: 16 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 136.6 kg (admission): 143 kg
    CVP: 8 (8 - 13)mmHg
   Total In:
                                                                 10,777 mL
                                                                  3,437 mL
   PO:
   TF:
                                                                     52 mL
                                                                     71 mL
   IVF:
                                                                  8,498 mL
                                                                  2,773 mL
   Blood products:
                                                                    175 mL
   Total out:
                                                                 15,046 mL
                                                                  4,993 mL
   Urine:
                                                                  1,165 mL
                                                                    320 mL
   NG:
                                                                  1,470 mL
                                                                    575 mL
   Stool:
   Drains:
                                                                    600 mL
                                                                     80 mL
   Balance:
                                                                 -4,269 mL
                                                                 -1,556 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 150 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/50/168/27/6
   Ve: 12.2 L/min
   PaO2 / FiO2: 336
   Physical Examination
   GEN: intubated, sedated, open eyes to voice, nonresponsive
   HEENT: L IJ in place, R HD line, sclera anicteric
   CV: RRR, no m/r/g
   PULM: CTAB anteriorly
   AB: slightly less distended and  firm, tender, absent bowel sounds
   EXT: 2+ edema on R, 3+ on left, warm
   Labs / Radiology
   197 K/uL
   6.7 g/dL
   126 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.2 mEq/L
   29 mg/dL
   101 mEq/L
   138 mEq/L
   21.6 %
   20.9 K/uL
        [image002.jpg]
                             [**2146-2-16**]  05:00 AM
                             [**2146-2-16**]  10:21 AM
                             [**2146-2-16**]  10:38 AM
                             [**2146-2-16**]  05:52 PM
                             [**2146-2-16**]  06:10 PM
                             [**2146-2-16**]  09:15 PM
                             [**2146-2-17**]  12:00 AM
                             [**2146-2-17**]  12:07 AM
                             [**2146-2-17**]  06:15 AM
                             [**2146-2-17**]  06:18 AM
   WBC
   20.9
   Hct
   22.6
   21.6
   Plt
   197
   Cr
   0.8
   0.7
   TCO2
   33
   33
   33
   32
   33
   Glucose
   131
   133
   91
   126
   Other labs: PT / PTT / INR:31.0/69.9/3.1, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:37/58, Alk Phos / T Bili:59/2.7,
   Amylase / Lipase:225/53, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:222 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.8 g/dL, LDH:250 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
 PANCREATITIS, ACUTE  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal.  Patient acutely worsened
   overnight with increased abdominal pain, distension and tenderness.  In
   addition his white count continues to rise and he continues to spike
   fevers.   Further he was fighting the vent and tachycardic overnight,
   all of which likely represent worsening abdominal pathology.  KUB was
   unfotunately unhelpful given habitus.  Suspicion for compartment
   syndrome is low given unchanged PIPs and low bladder pressures.
   Suspicion for infected fluid collection is high, and patient continues
   to bump his white count and spike intermittently but is never culture
   positive.  Despite a CT that only showed interval resolution, he
   continues to be distended with frank tenderness on exam.
   - Surgery has refused drainage, would readdress this daily.  Abscess is
   very high in the differential, given known standing fluid collections,
   white count and fever refractory to antibiotics.  The only definitive
   treatment for an abscess is obviously drainage and we can never know if
   he has an abscess without draining it.  However white count continues
   to drop, and would defer while clinically improving as our evidence for
   abscess will remain clinical.
   - Continue meropenem empirically, would continue at least 10 days
   ([**11-20**] last day) given decompensation when D/Ced in past
   - QID Electrolytes
   - cont insulin gtt
   - continue switching pain meds over to methadone, increase to 60mg q4,
   wean down fentanyl.
   - wean down midaz,switch to seroquel PRN
   - Post-pyloric feeding tube placed, gastric decompression initiated
   (-1.2L)
   - appreciate ID concerns however patient has clinically decompensated
   x2 when pseudomnoal coverage was decreased to anything less than
   zosyn.  At this point would continue meropenem until we can
   definitively r/o infected collection, which may have to be surgical.
   - resume running negative on CVVH (10.9L + LOS currently)
   .
   #. CoNS BACTEREMIA: Anaerobic bottle from [**2146-2-9**] growing CoNS, less
   convincing that this explaned patient
s decompensation that day. Line
   had been placed emergently by surgery, so it may have been an
   infectious source.
   - lines changed
   - cont vancomycin 1500g q12 while on CVVH
   - check daily trough given changing renal function
   - appreciate ID recs
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN. Started
   on CVVH with improvement in lytes and Cr. Currently tolerating fluid
   removal well, heart rate is as low as it has been on this
   hospitalization and his SBP has held up very well. Unclear as to
   whether event yesterday was somehow related to fluid shifts so patient
   was kept even overnight.  As he has now clinically stabilized, we will
   restart diuresis.  Currently 10.9L (down from peak 32) positive LOS.
    - goal is as negative as his hemodynamics will tolerate today
   -  Would not consider stopping CVVH until at least back to admission
   weight
   - appreciate renal recs
   - renally dose meds, avoid nephrotoxins
   .
 HYPOXEMIC RESPIRATORY FAILURE, ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])  Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue. Given (-) culture
   data to date, likely etiology of initial resp failure is distributive
   shock in setting of necrotizing pancreatitis.  Restrictive physiology
   likely contributed, in setting of very low lung volumes and abdominal
   distention.
   - weaned down to 10/10 of pressure support with 40% FI O2 this morning
 would continue to wean as tolerated
   - cont sedation with fent and midaz. Weaning as tolerated, this will be
   major barrier.
   - Will attempt to wean fentanyl daily while titrating up methadone
   - Given strides over past 24 hours, would hold off on trach decision
   until the weekend.
   .
   > ANEMIA:HCT stabilized PM crit xfuse to 21
   .
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS-  On argatroban.
   Known significant clot burden in common femoral and IVC.  No indication
   for IVC filter since pt has alternate explanation for fevers and
   tachycardia (bacteremia). PTT at goal
   -  will cont argatroban and monitor PTT, goal 60-80
   .
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- Will monitor, empyema a less likely
   possibility of infection.
   -CVVH to address fluid overload
   - would not tap, as will introduce new source of infection
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.
   .
   #. Nutrition:
   - Post-pyloric tubefeeds
   - continue TPN until at goal
   .
   # ACCESS:  L IJ, R HD line, axillary A-line, PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-14**] 03:56 PM 83.[**Telephone/Fax (5) 2407**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-2-9**] 07:00 PM
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   20 Gauge - [**2146-2-14**] 10:00 AM
   Prophylaxis:
   DVT: argatroban
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-17 09:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Tolerating reduction of
   PEEP 16 --> 10 cmH2O.  This AM, tolerating IPS mode.
   Remains sedated, but able to opens eyes to name.  Fentanyl at lower
   dose.
   Post pyloric feeding tube placed (jejunal).
   Gastric tube draining bilious material.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Morphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-16**] 08:05 PM
   Meropenem - [**2146-2-16**] 10:08 PM
   Infusions:
   Argatroban - 0.65 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Fentanyl - [**2146-2-16**] 11:03 PM
   Midazolam (Versed) - [**2146-2-17**] 02:20 AM
   Methadone Hydrochloride - [**2146-2-17**] 06:06 AM
   Pantoprazole (Protonix) - [**2146-2-17**] 08:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-31**] Mild
   Pain location: abdominal, epigastric
   Flowsheet Data as of  [**2146-2-17**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 115 (101 - 120) bpm
   BP: 135/69(92) {118/63(81) - 149/82(104)} mmHg
   RR: 17 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 136.6 kg (admission): 143 kg
   CVP: 8 (8 - 12)mmHg
   Total In:
                                                                 10,777 mL
                                                                  4,513 mL
   PO:
   TF:
                                                                     52 mL
                                                                     92 mL
   IVF:
                                                                  8,498 mL
                                                                  3,652 mL
   Blood products:
                                                                    175 mL
   Total out:
                                                                 15,046 mL
                                                                  7,506 mL
   Urine:
                                                                  1,165 mL
                                                                    500 mL
   NG:
                                                                  1,470 mL
                                                                    975 mL
   Stool:
   Drains:
                                                                    600 mL
                                                                     80 mL
   Balance:
                                                                 -4,269 mL
                                                                 -2,993 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 150 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/50/168/26/6
   Ve: 11.6 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   6.7 g/dL
   197 K/uL
   109 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.2 mEq/L
   27 mg/dL
   102 mEq/L
   138 mEq/L
   21.6 %
   20.9 K/uL
        [image002.jpg]
                             [**2146-2-16**]  05:00 AM
                             [**2146-2-16**]  10:21 AM
                             [**2146-2-16**]  10:38 AM
                             [**2146-2-16**]  05:52 PM
                             [**2146-2-16**]  06:10 PM
                             [**2146-2-16**]  09:15 PM
                             [**2146-2-17**]  12:00 AM
                             [**2146-2-17**]  12:07 AM
                             [**2146-2-17**]  06:15 AM
                             [**2146-2-17**]  06:18 AM
   WBC
   20.9
   Hct
   22.6
   21.6
   Plt
   197
   Cr
   0.8
   0.7
   0.7
   TCO2
   33
   33
   33
   32
   33
   Glucose
   131
   133
   91
   126
   109
   Other labs: PT / PTT / INR:31.0/69.9/3.1, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:42/59, Alk Phos / T Bili:60/2.1,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:222 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.8 g/dL, LDH:233 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   28 yom gallstone pancreatitis, now complicated by necrosis and
   pseudocyst, hypoxic respiratory failure.
   RESPIRATORY FAILURE -- Persistent, multifactorial likely predominately
   attributed to acute pancreatitis.  Chest wall contributing to
   restrictive mechanics.  Plan continue mechanical ventilation.  Hope to
   wean PEEP.  Continue to work towards SBT, and hope for extubation
   trial.  Main obstacle to extubation is intraabdominal inflammation,
   pain.  [**Month (only) 8**] require trach.
   ACUTE PANCREATITIS --   severe, necrotic, complicated with pseudocyst.
   Recent repeat CT scan without dramatic change.  Active inflammation
   persists.  Maintain percutaneous drain.  Maintain OGT to suction.
   General Surgery to follow.
   BACTEREMIA -- coagulase negative, likely line related.  Central line
   d/c'd --> new lines in place.
   PAIN MANAGEMENT -- continue to optimize.  Fentanyl, now slowly
   tapering.
   RENAL FAILURE -- attributed to iv contrast dye nephropathy;  continue
   CVVH as tolerated.
   FLUIDS -- net volume resussitation fluid positive.  Plan to continue to
   net diurese, approaching dry weight.
   HYPOTKALEMIA
 replete to K> 4.0
   NUTRITIONAL SUPPORT -- continue TPN.  Continue TF with post-pyloric
   (jejunal) tube --> advance as tolerated.
   HIT+ -- continue argatroban.
   DVT -- line-related.  Continue anticoagulation.
   PLEURAL EFFUSION, ACUTE -- left side; attributed to acute pancreatitis.
   h/o CHOLECYSTITIS, CALCULOUS -- Resolved.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-16**] 03:47 PM 83 mL/hour
   Peptamen 1.5 (Full) - [**2146-2-16**] 06:49 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-2-9**] 07:00 PM
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, Argatroban)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2146-02-18 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2146-2-17**] 11:09 PM
 URINE CULTURE - At [**2146-2-17**] 11:09 PM
 FEVER - 101.6
F - [**2146-2-17**] 11:00 PM
   - did great on PSV all day
   - at 9pm slightly more tachypnic and very rhoncorous on PSV, got
   suctioned, CXR and ABG 7.34/57/253 so increased PSV, eventually went
   back to AC for rest O/N
   - spiked 102 at 11pm, pan-cultured cx
   - kept A-line since concern for stability and noninvasive not
   consistent in correlation
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsMorphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-17**] 08:04 PM
   Meropenem - [**2146-2-17**] 09:35 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Argatroban - 0.65 mcg/Kg/min
   Fentanyl (Concentrate) - 400 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-17**] 08:37 AM
   Methadone Hydrochloride - [**2146-2-18**] 06:18 AM
   Other medications:
   Changes to medical and family history:
   denies pain, sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: abdominal drain
   Genitourinary: Foley
   Flowsheet Data as of  [**2146-2-18**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38
C (100.4
   HR: 121 (110 - 127) bpm
   BP: 138/77(98) {117/61(80) - 147/79(101)} mmHg
   RR: 18 (13 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 128.1 kg (admission): 143 kg
    CVP: 6 (6 - 7)mmHg
   Total In:
                                                                 12,609 mL
                                                                  4,056 mL
   PO:
   TF:
                                                                    482 mL
                                                                    342 mL
   IVF:
                                                                 10,122 mL
                                                                  3,119 mL
   Blood products:
   Total out:
                                                                 19,907 mL
                                                                  5,880 mL
   Urine:
                                                                  1,360 mL
                                                                    380 mL
   NG:
                                                                  1,950 mL
                                                                    725 mL
   Stool:
   Drains:
                                                                    760 mL
                                                                     40 mL
   Balance:
                                                                 -7,298 mL
                                                                 -1,824 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 623 (596 - 755) mL
   PS : 15 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: 7.39/50/150/27/4
   Ve: 11.5 L/min
   PaO2 / FiO2: 375
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, Crackles : left anterior)
   Abdominal: Soft, quiet bowel sounds, firm masses in epigastrium?RUQ
   unchanged
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   216 K/uL
   6.9 g/dL
   118 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.4 mEq/L
   27 mg/dL
   104 mEq/L
   141 mEq/L
   23.1 %
   22.7 K/uL
        [image002.jpg]
                             [**2146-2-17**]  11:25 AM
                             [**2146-2-17**]  11:42 AM
                             [**2146-2-17**]  05:39 PM
                             [**2146-2-17**]  06:03 PM
                             [**2146-2-17**]  06:35 PM
                             [**2146-2-17**]  09:47 PM
                             [**2146-2-17**]  11:28 PM
                             [**2146-2-17**]  11:35 PM
                             [**2146-2-18**]  05:25 AM
                             [**2146-2-18**]  05:37 AM
   WBC
   20.0
   22.7
   Hct
   21.7
   23.1
   Plt
   204
   216
   Cr
   0.6
   0.6
   0.7
   TCO2
   32
   32
   33
   32
   31
   31
   Glucose
   105
   115
   105
   118
   Other labs: PT / PTT / INR:31.2/76.3/3.1, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:49/64, Alk Phos / T Bili:68/2.3,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:222 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.8 g/dL, LDH:273 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Microbiology: [**2-17**] blood, urine, sputum cx pending
   Assessment and Plan
 SHOCK, SEPTIC
 PANCREATITIS, ACUTE
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEPARIN-INDUCED THROMBOCYTOPENIA
 TACHYCARDIA, OTHER
 HYPOTENSION (NOT SHOCK)
 PLEURAL EFFUSION, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O CHOLECYSTITIS, CALCULOUS
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
 PANCREATITIS, ACUTE  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal.  Patient acutely worsened with
   increased abdominal pain, distension and tenderness.  In addition his
   white count rose and he continued to spiked fevers.  Suspicion for
   compartment syndrome was low given unchanged PIPs and low bladder
   pressures.  Suspicion for infected fluid collection is high, and
   patient continues to bump his white count and spike intermittently but
   is never culture positive.  Despite a CT that only showed interval
   resolution, he continues to be distended.
   - Surgery did not support drainage, will readdress this daily.  Abscess
   is very high in the differential, given known standing fluid
   collections, white count and fever refractory to antibiotics.  The only
   definitive treatment for an abscess is obviously drainage and we can
   never know if he has an abscess without draining it.  However white
   count continues to drop, and would defer while clinically improving as
   our evidence for abscess will remain clinical.
   - Continue meropenem and vancomycin empirically, would continue at
   least 10 days ([**2-20**] last day) given decompensation when D/Ced in past
   - QID Electrolytes
   - cont insulin gtt
   - continue switching pain meds over to methadone, increase to 40 mg q3,
   wean down fentanyl.
   - wean down midaz,switch to seroquel PRN
   - Post-pyloric feeding tube placed, gastric decompression initiated,
   cont to have copious output from stomach, bilious
   - appreciate ID concerns however patient has clinically decompensated
   x2 when pseudomnoal coverage was decreased to anything less than
   zosyn.  At this point would continue meropenem and vancomycin until we
   can definitively r/o infected collection, which may have to be
   surgical.
   - resume running negative on CVVH -> will ? CVVH duration with Renal
   re: goal weight
   .
   #. CoNS BACTEREMIA: Anaerobic bottle from [**2146-2-9**] growing CoNS, less
   convincing that this explaned patient
s decompensation that day. Line
   had been placed emergently by surgery, so it may have been an
   infectious source.
   - lines changed
   - cont vancomycin 1500g q12 while on CVVH, trough adequate, today day
   [**11-10**]
   - check daily trough given changing renal function
   - appreciate ID recs
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN. Started
   on CVVH with improvement in lytes and Cr. Currently tolerating fluid
   removal well, heart rate is as low as it has been on this
   hospitalization and his SBP has held up very well. Unclear as to
   whether event was somehow related to fluid shifts so patient was kept
   even overnight.  As he has now clinically stabilized, we will cont
   diuresis.
    - goal is as negative as his hemodynamics will tolerate today
   -  Would not consider stopping CVVH until at least back to admission
   weight
   - appreciate renal recs
   - renally dose meds, avoid nephrotoxins
   .
 HYPOXEMIC RESPIRATORY FAILURE, ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])  Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue. Given (-) culture
   data to date, likely etiology of initial resp failure is distributive
   shock in setting of necrotizing pancreatitis.  Restrictive physiology
   likely contributed, in setting of very low lung volumes and abdominal
   distention.  Tachypnea overnight likely [**3-1**] secretion/mucous plus, ABG
   unchanged, rested on AC overnight.
   - weaned down to 10/10 of pressure support with 40% FI O2 yesterday
   would continue to wean as tolerated
   - cont sedation with fent and midaz. Weaning as tolerated, this will be
   major barrier.
   - Will attempt to wean fentanyl daily while titrating up methadone
   - Given strides over past 48 hours, would hold off on trach decision
   until the weekend.
   .
   > ANEMIA:HCT stabilized PM crit xfuse to 21
   .
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS-  On argatroban.
   Known significant clot burden in common femoral and IVC.  No indication
   for IVC filter since pt has alternate explanation for fevers and
   tachycardia (bacteremia). PTT at goal
   -  will cont argatroban and monitor PTT, goal 60-80
   .
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- Will monitor, empyema a less likely
   possibility of infection.
   -CVVH to address fluid overload
   - would not tap, as will introduce new source of infection
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.  Cont to trend LFTs.
   .
   #. Nutrition:
   - Post-pyloric tubefeeds
   - continue TPN until at goal
   .
   # ACCESS:  L IJ, R HD line, axillary A-line, PIVs -> monitoring left
   axillary a-line, does not always correlate with NIBP.  Will remove in
   next 24-48 hours pending continued vent wean
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-17**] 03:42 PM 83 mL/hour
   Peptamen 1.5 (Full) - [**2146-2-18**] 04:02 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-2-9**] 07:00 PM
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT:   argatroban, SCDs
   Stress ulcer:   pantoprazole
   VAP:    meropenem, vanc
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2146-02-18 11:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains sedated.
   Tolerating TF @ goal.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Morphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-18**] 07:14 AM
   Meropenem - [**2146-2-18**] 10:06 AM
   Infusions:
   Argatroban - 0.65 mcg/Kg/min
   Midazolam (Versed) - 12 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-18**] 08:09 AM
   Methadone Hydrochloride - [**2146-2-18**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-31**] Mild
   Pain location: abdominal
   Flowsheet Data as of  [**2146-2-18**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.9
C (100.3
   HR: 122 (110 - 127) bpm
   BP: 104/55(73) {104/55(73) - 152/85(108)} mmHg
   RR: 13 (13 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 125 kg (admission): 143 kg
   CVP: 10 (6 - 10)mmHg
   Total In:
                                                                 12,609 mL
                                                                  6,275 mL
   PO:
   TF:
                                                                    482 mL
                                                                    417 mL
   IVF:
                                                                 10,122 mL
                                                                  4,878 mL
   Blood products:
   Total out:
                                                                 19,907 mL
                                                                  9,873 mL
   Urine:
                                                                  1,360 mL
                                                                    660 mL
   NG:
                                                                  1,950 mL
                                                                  1,225 mL
   Stool:
   Drains:
                                                                    760 mL
                                                                     40 mL
   Balance:
                                                                 -7,298 mL
                                                                 -3,598 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 818 (596 - 818) mL
   PS : 15 cmH2O
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 98%
   ABG: 7.39/50/150/27/4
   Ve: 11.3 L/min
   PaO2 / FiO2: 375
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : ), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   6.9 g/dL
   216 K/uL
   118 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.4 mEq/L
   27 mg/dL
   104 mEq/L
   141 mEq/L
   23.1 %
   22.7 K/uL
        [image002.jpg]
                             [**2146-2-17**]  11:25 AM
                             [**2146-2-17**]  11:42 AM
                             [**2146-2-17**]  05:39 PM
                             [**2146-2-17**]  06:03 PM
                             [**2146-2-17**]  06:35 PM
                             [**2146-2-17**]  09:47 PM
                             [**2146-2-17**]  11:28 PM
                             [**2146-2-17**]  11:35 PM
                             [**2146-2-18**]  05:25 AM
                             [**2146-2-18**]  05:37 AM
   WBC
   20.0
   22.7
   Hct
   21.7
   23.1
   Plt
   204
   216
   Cr
   0.6
   0.6
   0.7
   TCO2
   32
   32
   33
   32
   31
   31
   Glucose
   105
   115
   105
   118
   Other labs: PT / PTT / INR:31.2/76.3/3.1, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:49/64, Alk Phos / T Bili:68/2.3,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:222 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.8 g/dL, LDH:273 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   28 yom gallstone pancreatitis, now complicated by necrosis and
   pseudocyst, hypoxic respiratory failure.
   RESPIRATORY FAILURE -- Persistent, multifactorial likely predominately
   attributed to acute pancreatitis.  Chest wall contributing to
   restrictive mechanics.  Plan continue mechanical ventilation.  Hope to
   wean PEEP.  Continue to work towards SBT, and hope for extubation
   trial.  Main obstacle to extubation is intraabdominal inflammation,
   pain.  [**Month (only) 8**] require trach.
   ACUTE PANCREATITIS --   severe, necrotic, complicated with pseudocyst.
   Recent repeat CT scan without dramatic change.  Active inflammation
   persists.  Maintain percutaneous drain.  Maintain OGT to suction.
   General Surgery to follow.
   FEVER
 attributed to intraabdominal inflammation.  Need to monitor
   closely for new infection:  line-related, hepatobiliary, infected
   pancreatic pseudocyst.
   BACTEREMIA -- coagulase negative, likely line related.  Central line
   d/c'd --> new lines in place.   Complete course of Vanco.
   ELEVATED TBILI -- repeat RUQ U/S.  Continue to follow exam and LFTs.
   General surgery to f/u.
   PAIN MANAGEMENT -- continue to optimize.  Fentanyl, now slowly
   tapering.
   RENAL FAILURE -- attributed to iv contrast dye nephropathy;  consider
   discontinuing CVVH and monitor.
   FLUIDS -- net volume resussitation fluid positive.  Plan to continue to
   net diurese, approaching dry weight.
   HYPOTKALEMIA
 replete to K> 4.0
   NUTRITIONAL SUPPORT -- continue TPN.  Continue TF with post-pyloric
   (jejunal) tube --> advance as tolerated.
   HIT+ -- continue argatroban.
   DVT -- line-related.  Continue anticoagulation.
   PLEURAL EFFUSION, ACUTE -- left side; attributed to acute pancreatitis.
   h/o CHOLECYSTITIS, CALCULOUS -- Resolved.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-2-17**] 03:42 PM 83 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-2-9**] 07:00 PM
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2146-02-19 07:38:00 Physician Resident Progress Note
Chief Complaint: gallstone pancreatitis
   24 Hour Events:
 EKG - At [**2146-2-18**] 08:17 AM
   to check qtc
 BLOOD CULTURED - At [**2146-2-18**] 10:25 AM
   from left ij quad lumen
 SPUTUM CULTURE - At [**2146-2-18**] 10:25 AM
 ULTRASOUND - At [**2146-2-18**] 02:49 PM
   abdominal
 PAN CULTURE - At [**2146-2-19**] 04:40 AM
   blood, urine, abd. fluid, sputum
 FEVER - 101.6
F - [**2146-2-19**] 03:00 AM
   - CVVH continued over day
   - started ketamine, goal of rapid weaning of fentanyl, and plan to
   convert midaz to seroquel
   - CVVH filter clotted overnight, discontinued
   - fever and tachycardia resumed overnight, did not d/c a-line in
   setting of possible overdiuresis
   - received 3 liters NS
   - pan-cultured again
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsMorphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-18**] 07:14 AM
   Meropenem - [**2146-2-18**] 10:24 PM
   Infusions:
   Argatroban - 0.4 mcg/Kg/min
   Midazolam (Versed) - 2.5 mg/hour
   Ketamine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-18**] 08:09 AM
   Methadone Hydrochloride - [**2146-2-18**] 06:20 PM
   Other medications:
   Changes to medical and family history:
   sedated
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2146-2-19**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 134 (112 - 141) bpm
   BP: 125/71(88) {104/55(73) - 152/90(108)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 121.4 kg (admission): 143 kg
    CVP: 5 (5 - 10)mmHg
   Total In:
                                                                 13,296 mL
                                                                  3,034 mL
   PO:
   TF:
                                                                  1,070 mL
                                                                    417 mL
   IVF:
                                                                 10,858 mL
                                                                  2,617 mL
   Blood products:
   Total out:
                                                                 18,732 mL
                                                                  1,440 mL
   Urine:
                                                                  1,215 mL
                                                                    390 mL
   NG:
                                                                  2,225 mL
                                                                    950 mL
   Stool:
   Drains:
                                                                    840 mL
                                                                    100 mL
   Balance:
                                                                 -5,436 mL
                                                                  1,594 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 630 (630 - 818) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 86
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.35/54/144/24/3
   Ve: 10.7 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: No(t) Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   228 K/uL
   6.2 g/dL
   108 mg/dL
   1.0 mg/dL
   24 mEq/L
   5.8 mEq/L
   37 mg/dL
   110 mEq/L
   138 mEq/L
   20.3 %
   22.3 K/uL
        [image002.jpg]
                             [**2146-2-17**]  11:35 PM
                             [**2146-2-18**]  05:25 AM
                             [**2146-2-18**]  05:37 AM
                             [**2146-2-18**]  11:50 AM
                             [**2146-2-18**]  12:10 PM
                             [**2146-2-18**]  06:02 PM
                             [**2146-2-18**]  06:17 PM
                             [**2146-2-19**]  03:51 AM
                             [**2146-2-19**]  04:12 AM
                             [**2146-2-19**]  05:44 AM
   WBC
   22.7
   29.9
   22.3
   Hct
   23.1
   23.9
   21.2
   20.3
   Plt
   [**Telephone/Fax (3) 11128**]
   Cr
   0.7
   0.8
   0.9
   1.0
   TCO2
   31
   31
   28
   30
   31
   Glucose
   118
   147
   110
   92
   108
   Other labs: PT / PTT / INR:31.2/83.9/3.1, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:46/55, Alk Phos / T Bili:68/1.9,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:222 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:248 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.6 mg/dL
   Imaging: RUQ u/s pending
   Microbiology: all culture data (-) to date
   Assessment and Plan
 SHOCK, SEPTIC
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEPARIN-INDUCED THROMBOCYTOPENIA
 HYPOTENSION (NOT SHOCK)
 PLEURAL EFFUSION, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O CHOLECYSTITIS, CALCULOUS
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
   .
   >  FEVER/TACHYCARDIA- fever likely [**3-1**] inflammatory response from
   pancreatitis.  Tachycardia likely [**3-1**] fever, pain, possible
   intravascular volume depletion.  Received IVF overnight with modest
   improvement.
   - cont to treat fever
   - f/u pan-culture data
   .
 PANCREATITIS, ACUTE  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal.  Patient acutely worsened with
   increased abdominal pain, distension and tenderness.  In addition his
   white count rose and he continued to spiked fevers.  Suspicion for
   compartment syndrome was low given unchanged PIPs and low bladder
   pressures.  Suspicion for infected fluid collection is high, and
   patient continues to bump his white count and spike intermittently but
   is never culture positive.  Despite a CT that only showed interval
   resolution, he continues to be distended.
   - Surgery did not support drainage, will readdress this daily.  Abscess
   is very high in the differential, given known standing fluid
   collections, white count and fever refractory to antibiotics.  The only
   definitive treatment for an abscess is obviously drainage and we can
   never know if he has an abscess without draining it.  Patient did spike
   to 102 overnight on [**2146-2-18**] on CVVH and [**2146-2-19**] off CVVH.  Concern for
   abscess remains high.  Pan-cultured, NTD.
   - Continue meropenem empirically, would continue at least 10 days ([**2-20**]
   last day) given decompensation when D/Ced in past
   - QID Electrolytes
   - continue switching pain meds over to methadone, increase to 40 mg q2,
   wean down fentanyl and versed, convert seroquel to standing and
   continue ketamine
   - Post-pyloric feeding tube placed, gastric decompression initiated,
   cont to have copious output from stomach, bilious -> determine today if
   methylene blue is in TFs, suggesting residuals
   - appreciate ID concerns however patient has clinically decompensated
   x2 when pseudomnoal coverage was decreased to anything less than
   zosyn.  At this point would continue meropenem until we can
   definitively r/o infected collection, which may have to be surgical
   - ? Surgery re: abscess drainage
   - f/u RUQ u/s
   .
   .
   #. CoNS BACTEREMIA: Anaerobic bottle from [**2146-2-9**] growing CoNS, less
   convincing that this explaned patient
s decompensation that day. Line
   had been placed emergently by surgery, so it may have been an
   infectious source.
   - lines changed
   - d/c vancomycin
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN. Started
   on CVVH with improvement in lytes and Cr. Currently tolerating fluid
   removal well, heart rate is as low as it has been on this
   hospitalization and his SBP has held up very well. Unclear as to
   whether event was somehow related to fluid shifts so patient was kept
   even overnight.  As he has now clinically stabilized, we will cont
   diuresis.  CVVH filter clotted overnight, stopped.  Lytes this morning
   suggest need for CVVH, K trending up
   - volume goal is pre-admission weight
   - appreciate renal recs
   - renally dose meds, avoid nephrotoxins
   - restart CVVH, goal 1-2 liters (-) today, will d/w family re:
   patient
s pre-admission weight
   .
 HYPOXEMIC RESPIRATORY FAILURE, ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])  Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue. Given (-) culture
   data to date, likely etiology of initial resp failure is distributive
   shock in setting of necrotizing pancreatitis.  Restrictive physiology
   likely contributed, in setting of very low lung volumes and abdominal
   distention.  Tachypnea overnight likely [**3-1**] secretion/mucous plus, ABG
   unchanged, rested on AC overnight.
   - weaned down to 10/8 of pressure support with 40% FI O2
 would
   continue to wean as tolerated
   - wean sedation as above
   .
   > ANEMIA:HCT stabilized PM crit xfuse to 21
   .
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS-  On argatroban.
   Known significant clot burden in common femoral and IVC.  No indication
   for IVC filter since pt has alternate explanation for fevers and
   tachycardia (bacteremia). PTT at goal
   -  will cont argatroban and monitor PTT, goal 60-80
   .
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- Will monitor, empyema a less likely
   possibility of infection.
   - CVVH to address fluid overload
   - would not tap, as will introduce new source of infection
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.  Cont to trend LFTs.
   .
   #. Nutrition:
   - Post-pyloric tubefeeds -> will stain with methylene blue to determine
   if copious NG output is TFs
   - will d/c TPN, TFs at goal, methylene blue experiement as above
   .
   # ACCESS:  L IJ, R HD line, axillary A-line, PIVs -> monitoring left
   axillary a-line, does correlate with NIBP today, VBG and ABG
   correlate.  Will d/c today
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2146-2-19**] 05:20 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-2-9**] 07:00 PM
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-19 10:24:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   HPI: See H&P for details.  In brief, 28M w/severe pancreatitis.
   24 Hour Events:
 EKG
 Following QTC
 BLOOD CULTURED for fever to 38.7
 ULTRASOUND
 Abdominal for elevated TBili
 CVVH clotted off, trialed off
 Worsening fever and tachycardia off of CVVH
 Given 3L NS w/minimal change in HR
 Sedation changed to ketamine and methadone, weaning off of
   midaz/fentanyl
 Potassium uptrending off of CVVH
 No methylene blue return in TF
   Allergies:
   Morphine - ?sweating
   Heparin Agents
 HIT+ve
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-18**] 07:14 AM - d/c
   Meropenem - [**2146-2-18**] 10:24 PM
   Infusions:
   Argatroban - 0.4 mcg/Kg/min
   Midazolam (Versed)
 tapering off
   Ketamine - 0.3 mcg/Kg/min
   Fentanyl (Concentrate) - off
   Other ICU medications:
   Pantoprazole (Protonix)
   Methadone 40 q2h
   Other medications:
   Methylene Blue x1, insulin, seroquel, artifical tears, chlorhexidine,
   tylenol
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-19**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 39.3
C (102.8
   Tcurrent: 39.3
C (102.8
   HR: 135 (112 - 141) bpm
   BP: 130/75(92) {104/55(73) - 142/90(106)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 121.4 kg (admission): 143 kg
   CVP: 10 (5 - 10)mmHg
   Total In:
                                                                 13,296 mL
                                                                  3,222 mL
   PO:
   TF:
                                                                  1,070 mL
                                                                    533 mL
   IVF:
                                                                 10,858 mL
                                                                  2,689 mL
   Blood products:
   Total out:
                                                                 18,732 mL
                                                                  1,570 mL
   Urine:
                                                                  1,215 mL
                                                                    520 mL
   NG:
                                                                  2,225 mL
                                                                    950 mL
   Stool:
   Drains:
                                                                    840 mL
                                                                    100 mL
   Balance:
                                                                 -5,436 mL
                                                                  1,653 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 630 (630 - 750) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 86
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.38/54/144/24/3
   Ve: 10.7 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, Edematous
   Eyes / Conjunctiva: PERRL, Sclera icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: 2+ radial and DP bilaterally
   Respiratory / Chest: (Breath Sounds: Crackles at bases, Bronchial
   throughout, decreased at R base )
   Abdominal: Soft, No Bowel sounds present, Distended, Firm midline upper
   abdominal masses
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Somnolent, Responds to: Tactile stimuli, Movement: minimal
   non-purposeful
   Labs / Radiology
   6.2 g/dL
   228 K/uL
   108 mg/dL
   1.0 mg/dL
   24 mEq/L
   5.8 mEq/L
   37 mg/dL
   110 mEq/L
   138 mEq/L
   20.3 %
   22.3 K/uL
        [image002.jpg]
                             [**2146-2-17**]  11:35 PM
                             [**2146-2-18**]  05:25 AM
                             [**2146-2-18**]  05:37 AM
                             [**2146-2-18**]  11:50 AM
                             [**2146-2-18**]  12:10 PM
                             [**2146-2-18**]  06:02 PM
                             [**2146-2-18**]  06:17 PM
                             [**2146-2-19**]  03:51 AM
                             [**2146-2-19**]  04:12 AM
                             [**2146-2-19**]  05:44 AM
   WBC
   22.7
   29.9
   22.3
   Hct
   23.1
   23.9
   21.2
   20.3
   Plt
   [**Telephone/Fax (3) 11128**]
   Cr
   0.7
   0.8
   0.9
   1.0
   TCO2
   31
   31
   28
   30
   31
   Glucose
   118
   147
   110
   92
   108
   Other labs: PT / PTT / INR:31.2/83.9/3.1, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:46/55, Alk Phos / T Bili:68/1.9,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:222 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:248 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.6 mg/dL
   RUQ US
 persistent mild biliary dilatation, fluid collection
   CXR
 ETT and lines in position, stably elevated R hemidiaphragm,
   layering L pleural effsion, L retrocardiac opacity
   Assessment and Plan
 NECROTIZING PANCREATITIS
 Severe, multiple intrabdominal fluid
   collections.  Has a drain in an unclear abdominal location putting out
   amylase [**Doctor First Name **] fluid.
   - Discuss with surgery re if any need for drainage of fluid collection
   - Follow drain output, reculture, including from abdominal drain
 FEVER
 Worsened overnight off of CVVH.  Pan-cultured, no clear
   evidence of infection.  Still has extensive abdominal drain output and
   concern for ongoing intraabdominal inflammation.  RUQ US unrevealing,
   but Tbili down-trending.
   - Pan cultured, continue meropenem
   - Discuss with surgery again if any need to sample abdominal fluid
   collections
   - Tylenol, cooling blanket
 TACHYCARDIA
 HR up to the 140s to 150s off of CVVH.  Hct stable,
   giving 1U PRBCs, restarting CVVH, working to decrease temperature.
   - Trend Hct, transfuse as above
   - Will reassess once temperature down
 ACUTE RESPIRATORY DISTRESS SYNDROME/RESPIRATORY FAILURE
 Improving
   CXR, doing well on PSV.  Will continue to optimize volume status with
   CVVH, decrease vent support as tolerated.
   - Continue fluid removal as hemodynamically tolerated
   - Working to optimize mental status
   - If not in a position to be extubated by Monday, would proceed for
   tracheostomy
 HEPARIN-INDUCED THROMBOCYTOPENIA/DVT
 Serotonin release assay
   positive, extensive LE clot burden, on argatroban.
   - Continue argatroban, PTT at goal.
 LEFT PLEURAL EFFUSION
 Possibly improved by CXR, has never been
   tapped.
   - Follow daily CXR
 RENAL FAILURE, ACUTE
 Likely [**3-1**] CIN, started on CVVH for
   hyperkalemia and volume overload.  Per wife baseline weight is ~235lbs,
   currently ~260, but has gotten to being approximately even for LOS.
   Has had increasing potassium off of CVVH, will restart.
   - Follow lytes
   - Continue to run negative as BP tolerates
   - Restart CVVH
   - Appreciate renal input
 Pain/Sedation
 Switching from fent/versed to
   methadone/ketamine/seroquel, will try to wean fent/versed to off,
   monitor for possible benzo withdrawal.  Will discuss with pharmacy as
   to ketamin dosing, optimal sedation regimen.
   - IV bolus fentanyl for pain with turns
   - Continue methadone and seroquel
   - Discuss ketamine vs. restarting versed with taper with pharmacy
   ICU Care
   Nutrition: On TFs
   Glycemic Control: Insulin drip
   Lines:
   Arterial Line - [**2146-2-9**] 07:00 PM
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT: Argatroban
   Stress ulcer: PPI
   VAP: Chlorhexidine, HOB elevated
   Comments:
   Communication:  Wife updated on condition
   Code status: Full code
   Disposition : MICU
   Total time spent: 40min
   Patient is critically ill

2146-02-20 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - Rate was an issue all day, some concern for Versed
   withdrawl, back-titrated to 7 per hour with marginally improved rate
   control.  intermittent fentanyl boluses helped also.
   - now off fentanyl, replaced by methadone and ketamine
   - Fever came way down with CVVH
   - Surgery still doesnt want to drain or sample anything.
   - Wife says dry weight is 238
   - moving bowels!
   24 Hour Events:
 SPUTUM CULTURE - At [**2146-2-19**] 10:39 PM
 FEVER - 102.8
F - [**2146-2-19**] 08:00 AM
   Allergies:
   Morphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-18**] 07:14 AM
   Meropenem - [**2146-2-19**] 10:00 PM
   Infusions:
   Argatroban - 0.4 mcg/Kg/min
   Midazolam (Versed) - 10 mg/hour
   Ketamine - 0.3 mg/Kg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-19**] 08:10 AM
   Midazolam (Versed) - [**2146-2-20**] 12:00 AM
   Methadone Hydrochloride - [**2146-2-20**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-20**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 39.3
C (102.8
   Tcurrent: 36.1
C (96.9
   HR: 103 (103 - 150) bpm
   BP: 132/79(99) {112/64(79) - 174/98(127)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 118.2 kg (admission): 143 kg
    CVP: 7 (7 - 10)mmHg
   Total In:
                                                                  9,168 mL
                                                                  2,965 mL
   PO:
   TF:
                                                                  1,100 mL
                                                                    161 mL
   IVF:
                                                                  7,603 mL
                                                                  2,743 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                 11,812 mL
                                                                  4,420 mL
   Urine:
                                                                  1,475 mL
                                                                    220 mL
   NG:
                                                                  2,950 mL
                                                                    600 mL
   Stool:
   Drains:
                                                                    120 mL
                                                                    350 mL
   Balance:
                                                                 -2,644 mL
                                                                 -1,455 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 662 (512 - 662) mL
   PS : 12 cmH2O
   RR (Spontaneous): 13
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.36/48/152/25/1
   Ve: 9 L/min
   PaO2 / FiO2: 434
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, opens eyes
   to name, follows commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Bowel sounds present, Distended but improving, non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, significantly improved
   Skin:  Warm
   Neurologic: responds to voice, moves all extremities on command, tone
   wnl
   Labs / Radiology
   281 K/uL
   7.4 g/dL
   139 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   31 mg/dL
   106 mEq/L
   142 mEq/L
   24.1 %
   29.1 K/uL
        [image002.jpg]
                             [**2146-2-19**]  03:51 AM
                             [**2146-2-19**]  04:12 AM
                             [**2146-2-19**]  05:44 AM
                             [**2146-2-19**]  03:00 PM
                             [**2146-2-19**]  03:07 PM
                             [**2146-2-19**]  10:08 PM
                             [**2146-2-19**]  10:14 PM
                             [**2146-2-20**]  12:05 AM
                             [**2146-2-20**]  04:20 AM
                             [**2146-2-20**]  04:29 AM
   WBC
   22.3
   29.1
   Hct
   21.2
   20.3
   22.6
   23.9
   24.1
   Plt
   228
   281
   Cr
   0.9
   1.0
   1.0
   0.9
   TCO2
   31
   29
   28
   28
   28
   Glucose
   92
   108
   142
   135
   139
   Other labs: PT / PTT / INR:26.2/77.8/2.5, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:46/55, Alk Phos / T Bili:68/1.9,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:445 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:248 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.5 mg/dL
[**2146-2-18**] 10:28 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2146-2-18**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      commensal respiratory flora.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   RUQ U/S:
   Persistent mild intrahepatic biliary
   dilatation, within limitations of cross comparison between studies, not
   significantly changed since CT examination from [**2146-2-14**].
   2. Partially imaged organizing fluid collections as seen on recent CT
   from
   [**2146-2-14**].
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
   .
   >  FEVER/TACHYCARDIA-  Continues to spike fevers, there is some concern
   for abscess, however fevers more likely to represent non-infectious,
   inflammatory response. RUQ U/S negative for abscess.Tachycardia likely
   [**3-1**] fever, pain.  Withdrawal from benzo could also be contributing, and
   rate improved with increased versed. Will cont to follow pharm
   recommended weaning plan for versed and fentanyl. Will continue to
   trend WBC and rule out infection, CIS.
   - attempt to taper benzos very gradually
   - cont to treat fever
   - f/u pan-culture data
   .
 PANCREATITIS, ACUTE  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal.  CT showed stable fluid
   collections. Ab distention improved with OGT to suction. Now tolerated
   TFs at goal. Moving bowels after lactulose.
   - discuss need for pancreatic enzyme replacement with GI since on TF at
   goal and having diarrhea
   - cont to pan-cx for fevers
   - peritoneal drain fluid with no cells or organisms, likely necrotic
   debris since no cells present
   - Continue meropenem empirically, [**11-10**] empiric course, will review
   literature for further guidance
   - QID Electrolytes on CVVH
   - continue switching pain meds over to methadone, seroquel, ketamine
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN. Started
   on CVVH with improvement in lytes and Cr. Currently tolerating fluid
   removal well, now negative LOS but not at baseline weight. Was trialed
   off CVVH due to clotting off, and electrolytes increased.
   - plan is to continue aggressive diuresis until next time filter
   clots/expires, then stop CVVH
   - renally dose meds, avoid nephrotoxins
   - goal neg as much as possible
   .
 HYPOXEMIC RESPIRATORY FAILURE, ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])  Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue. Given (-) culture
   data to date, likely etiology of initial resp failure is distributive
   shock in setting of necrotizing pancreatitis.  Restrictive physiology
   likely contributed, in setting of very low lung volumes and abdominal
   distention.  Doing well on PSV.
   - continue to wean PSV as tolerated, attempt to gradually wean to [**6-1**]
   today
   - consult IP vs [**Doctor First Name 91**] tomororw for trach, will make this decision
   mid-week, but trach is likely the way to go for safe extubation and
   wife seems to agree at this point
   .
   > ANEMIA: Transfued 1 unit PRBC yesterday, and HCT stabilized since.
   - cont [**Hospital1 **] Hct checks and transfuse >21
   .
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS-  On argatroban.
   Known significant clot burden in common femoral and IVC.  No indication
   for IVC filter since pt has alternate explanation for fevers and
   tachycardia (bacteremia). PTT at goal
   -  will cont argatroban and monitor PTT, goal 60-80
   .
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- appears significantly improved on CXR
   - CVVH to address fluid overload
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.  Cont to trend LFTs.
   .
   #. Nutrition:
   - will d/c TPN, TFs at goal
   .
   # ACCESS:  L IJ, R HD line, axillary A-line, PIVs -> monitoring left
   axillary a-line, does correlate with NIBP today, VBG and ABG
   correlate.  Will d/c today
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2146-2-20**] 04:00 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-2-9**] 07:00 PM
 D/C today
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT: argatroban
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 4**]

2146-02-20 11:11:00 Physician Attending Progress Note
Chief Complaint: NECROTIZING PANCREATITIS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   See H&P for details.
   24 Hour Events:
 PAN CULTURED
 FEVER - 102.8
F yesterday AM
 Restarted on CVVH
 Versed restarted for tachycardia and hypertension
   Allergies:
   Morphine
   Heparin Agents - HIT;
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-18**] 07:14 AM
   Meropenem - [**2146-2-20**] 10:30 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Argatroban - 0.4 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Ketamine - 0.3 mg/Kg/hour
   Other ICU medications:
   Midazolam (Versed)
   Pantoprazole
   Other medications:
   Colace, Methadone, Seroquel, Lactulose (held),
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-20**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 36.2
C (97.1
   HR: 115 (102 - 150) bpm
   BP: 129/74(94) {112/64(79) - 174/98(127)} mmHg
   RR: 15 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 118.2 kg (admission): 143 kg
   CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  9,168 mL
                                                                  5,113 mL
   PO:
   TF:
                                                                  1,100 mL
                                                                    383 mL
   IVF:
                                                                  7,603 mL
                                                                  4,610 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                 11,812 mL
                                                                  6,411 mL
   Urine:
                                                                  1,475 mL
                                                                    285 mL
   NG:
                                                                  2,950 mL
                                                                    850 mL
   Stool:
   Drains:
                                                                    120 mL
                                                                    350 mL
   Balance:
                                                                 -2,644 mL
                                                                 -1,298 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 620 (512 - 662) mL
   PS : 12 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI: 42
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.36/48/152/25/1
   Ve: 11.7 L/min
   PaO2 / FiO2: 434
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, Eyes open
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: Tachycardic, S1, S2, no RMG
   Peripheral Vascular: 2+ DP and radial pulses bilat
   Respiratory / Chest: (Breath Sounds: Bronchial: , Diminished: Left
   base)
   Abdominal: Firm, soft bowel sounds, mild TTP in mid epigastrium,
   slightly distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Minimal, Sedated,
   Tone: Not assessed, Opens eyes to voice, slight movement in bilateral
   extremities
   Labs / Radiology
   7.4 g/dL
   281 K/uL
   139 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   31 mg/dL
   106 mEq/L
   142 mEq/L
   24.1 %
   29.1 K/uL
        [image002.jpg]
                             [**2146-2-19**]  03:51 AM
                             [**2146-2-19**]  04:12 AM
                             [**2146-2-19**]  05:44 AM
                             [**2146-2-19**]  03:00 PM
                             [**2146-2-19**]  03:07 PM
                             [**2146-2-19**]  10:08 PM
                             [**2146-2-19**]  10:14 PM
                             [**2146-2-20**]  12:05 AM
                             [**2146-2-20**]  04:20 AM
                             [**2146-2-20**]  04:29 AM
   WBC
   22.3
   29.1
   Hct
   21.2
   20.3
   22.6
   23.9
   24.1
   Plt
   228
   281
   Cr
   0.9
   1.0
   1.0
   0.9
   TCO2
   31
   29
   28
   28
   28
   Glucose
   92
   108
   142
   135
   139
   Other labs: PT / PTT / INR:26.2/77.8/2.5, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:46/55, Alk Phos / T Bili:68/1.9,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:445 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:248 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   CXR
 Improving bilateral effusions, stable R hemidiaphragm elevation,
   ETT, CVC, and HD line all in position
   Assessment and Plan
 PANCREATITIS, ACUTE
 Improving, but still has fevers and multiple
   intra-abdominal fluid collections.  Surgery has been following, feel no
   drainage currently indicated.  Had been aggressively fluid
   resuscitated, now doing well with fluid removal.  Had jejunal feeding
   tube placed, now stooling.
   - Continue tube feeds
   - Monitor intra-abdominal drain output
   - Discuss with GI if he requires pancreatic enzyme replacement
 FEVER
 Unclear etiology, concern for sterile inflammation secondary
   to pancreatitis vs superinfection vs iatrogenic infection.  Line sites
   look fine, cultures unrevealing.  Has been on meropenem for 10days, has
   decompensated when stopped prior.
   - Continue surveillance cultures
   - Monitor abdominal exam
   - Plan empiric 14d course of meropenem
 TACHYCARDIA
 Markedly tachycardic yesterday in the setting of
   stopping CVVH, rapid weaning of versed, and high fever.  Now improved
   with restarting versed and CVVH.
   - Slower versed taper, current pain regimen
   - Continue to remove fluid w/CVVH
   - Control fevers as needed
 RESPIRATORY FAILURE
 CXR improving w/fluid removal, will continue to
   decrease ventilator support as tolerated.  Mental status improved, but
   overall may still require tracheostomy.
   - Will try to decrease PEEP and PS over the day
   - AM RSBI, SBT
   - Obtain IP consult in AM for possible trach
 HEPARIN-INDUCED THROMBOCYTOPENIA/DVT
 On argatroban, will need at
   least 6 months of anticoagulation for DVT.
 PLEURAL EFFUSION, ACUTE
 Large L-sided effusion, appears improved
   w/fluid removal.  Follow CXR, respiratory status.  If still febrile,
   could consider tapping, particularly if extubated or on minimal PEEP.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 Had worsening
   fever, tachycardia, increasing potassium off of CVVH.  Will try to
   aggressively remove volume while still on CVVH, but if it goes down,
   will likely transition to HD if still requiring RRT.
   - Appreciate renal input
   - CVVH today, run as negative as tolerated
   - Monitor lytes, especially K
 .H/O CHOLECYSTITIS, CALCULOUS s/p CHOLECYSTECTOMY
 Follow LFTs, T
   bili stable to down trending, RUQ US without marked change
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2146-2-20**] 04:00 AM 55 mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   Arterial Line - [**2146-2-9**] 07:00 PM
 d/c
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT: Argatroban
   Stress ulcer: Pantoprazole
   VAP: Chlorhexidine, HOB elevated
   Comments:
   Communication:  Updated wife
   [**Name (NI) 156**] status: Full code
   Disposition : MICU
   Total time spent: 30 minutes

2146-02-21 07:39:00 Physician Resident Progress Note
Chief Complaint: necrotizing pancreatitis, hypoxic resp failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2146-2-20**] 10:10 PM
   - D/Ced A-line
   - weaned vent to [**6-1**]!
   - discussed pancreatic enzyme supplementation with nutrition, is on low
   fat/elemental feeds that do not require much panc enzymes, tabs do not
   work crushed, so held off
   - postpyloric tube clogged --> need to call IR
   - renal recs: CVVH at max until filter is done
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsMorphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Meropenem - [**2146-2-20**] 09:24 PM
   Infusions:
   Argatroban - 0.4 mcg/Kg/min
   Midazolam (Versed) - 8 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Ketamine - 0.3 mg/Kg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-20**] 08:14 AM
   Methadone Hydrochloride - [**2146-2-21**] 03:59 AM
   Midazolam (Versed) - [**2146-2-21**] 04:46 AM
   Other medications:
   Changes to medical and family history:
   sedated this morning, follows commands, does not answer yes/no
   questions
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2146-2-21**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 117 (105 - 138) bpm
   BP: 126/75(87) {119/65(77) - 151/128(134)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 143 kg
    CVP: 3 (3 - 352)mmHg
   Total In:
                                                                 10,590 mL
                                                                  2,715 mL
   PO:
   TF:
                                                                    777 mL
   IVF:
                                                                  9,693 mL
                                                                  2,715 mL
   Blood products:
   Total out:
                                                                 16,590 mL
                                                                  4,459 mL
   Urine:
                                                                    715 mL
                                                                    175 mL
   NG:
                                                                  2,100 mL
                                                                    475 mL
   Stool:
   Drains:
                                                                    450 mL
                                                                     80 mL
   Balance:
                                                                 -6,000 mL
                                                                 -1,744 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 673 (620 - 673) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 29
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.38/47/122/29/2
   Ve: 9.7 L/min
   PaO2 / FiO2: 349
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Bowel sounds present, Tender: epigastrium
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   341 K/uL
   7.3 g/dL
   100 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.0 mEq/L
   28 mg/dL
   101 mEq/L
   143 mEq/L
   24.4 %
   28.4 K/uL
        [image002.jpg]
                             [**2146-2-20**]  12:05 AM
                             [**2146-2-20**]  04:20 AM
                             [**2146-2-20**]  04:29 AM
                             [**2146-2-20**]  12:01 PM
                             [**2146-2-20**]  12:20 PM
                             [**2146-2-20**]  01:15 PM
                             [**2146-2-20**]  05:35 PM
                             [**2146-2-20**]  09:44 PM
                             [**2146-2-20**]  09:49 PM
                             [**2146-2-21**]  03:52 AM
   WBC
   29.1
   21.0
   28.4
   Hct
   24.1
   24.5
   24.4
   Plt
   [**Telephone/Fax (3) 11139**]
   Cr
   0.9
   0.9
   0.8
   0.9
   TCO2
   28
   28
   26
   28
   29
   Glucose
   139
   121
   117
   114
   100
   Other labs: PT / PTT / INR:26.1/66.0/2.5, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:56/49, Alk Phos / T Bili:83/1.6,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:445 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:282 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Imaging: Distal end of feeding tube projects over 3rd portion of
   duodenum
   Microbiology: all culture data (-) to date
   Assessment and Plan
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEPARIN-INDUCED THROMBOCYTOPENIA
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 PLEURAL EFFUSION, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O CHOLECYSTITIS, CALCULOUS
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
   .
   >  FEVER/TACHYCARDIA-  Continues to spike fevers, there is some concern
   for abscess, however fevers more likely to represent non-infectious,
   inflammatory response. RUQ U/S negative for abscess.Tachycardia likely
   [**3-1**] fever, pain.  Withdrawal from benzo could also be contributing, and
   rate improved with increased versed. Will cont to follow pharm
   recommended weaning plan for versed and fentanyl. Will continue to
   trend WBC and rule out infection, CIS.
   - attempt to taper benzos very gradually
   - cont to treat fever
   - f/u pan-culture data
   - post-pyloric NG tube blocked with methadone, not able to deliver any
   meds enterally, will call IR to replace post-pyloric NG tube
   - cont to treat agitation with PRN boluses of midaz, limit as able
   given possible extubation today
   .
 PANCREATITIS, [**Name (NI) 11141**]  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal.  CT showed stable fluid
   collections. Ab distention improved with OGT to suction. Now tolerated
   TFs at goal. Moving bowels after lactulose.
   - will hold on pancreatic enzymes while delivering TFs
   - cont to pan-cx for fevers
   - peritoneal drain fluid with no cells or organisms, likely necrotic
   debris since no cells present
   - Continue meropenem empirically, [**12-11**] empiric course, will review
   literature for further guidance
   - TID Electrolytes
   - continue switching pain meds over to methadone, seroquel, ketamine ->
   will cont methadone IV given blocked NG tube
   -  will d/w pharm re: abrupt cessation of ketamine and possible
   withdrawal; ideally would treat pain PRN pain meds following
   extubation, consider dilaudid PCA
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN. Started
   on CVVH with improvement in lytes and Cr. Currently tolerating fluid
   removal well, now negative LOS but not at baseline weight.  Recnet
   trial off CVVH due to clotting off, and electrolytes increased.   CVVH
   filter clotted this a.m., now off CVVH.
   - renally dose meds, avoid nephrotoxins
   - goal even today
   .
 HYPOXEMIC RESPIRATORY FAILURE, ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])  Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue. Given (-) culture
   data to date, likely etiology of initial resp failure is distributive
   shock in setting of necrotizing pancreatitis.  Restrictive physiology
   likely contributed, in setting of very low lung volumes and abdominal
   distention.  Doing well on PSV.
   - continue to wean PSV as tolerated, attempt to extubate today
   following replacement of post-pyloric NG tube
   - consult IP vs [**Doctor First Name 91**] for trach if patient fails extubation, will make
   this decision mid-week, but trach is likely the way to go for safe
   extubation and wife seems to agree at this point, as sedation continues
   to be limiting factor
   .
   > ANEMIA: Transfued 1 unit PRBC yesterday, and HCT stabilized since.
   - cont [**Hospital1 **] Hct checks and transfuse >21
   .
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS-  On argatroban.
   Known significant clot burden in common femoral and IVC.  No indication
   for IVC filter since pt has alternate explanation for fevers and
   tachycardia (bacteremia). PTT at goal
   -  will cont argatroban and monitor PTT, goal 60-80
   .
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- appears significantly improved on CXR
   - CVVH to address fluid overload
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.  Cont to trend LFTs.
   .
   #. Nutrition:
   - d/c
d TPN, restart TFs once NG tube replaced
   .
   # ACCESS:  L IJ, R HD line, PIVs ->d/c
d left axillary a-line yesterday
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT:   argatroban
   Stress ulcer:   pantoprazole
   VAP:  meropenem
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 4**]

2146-02-21 11:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerating SBT overnight.
   Now on lower doses of narcotics, sedative.
   Remains on CVVH.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Morphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Meropenem - [**2146-2-21**] 09:07 AM
   Infusions:
   Argatroban - 0.25 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2146-2-21**] 04:46 AM
   Pantoprazole (Protonix) - [**2146-2-21**] 08:00 AM
   Methadone Hydrochloride - [**2146-2-21**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-31**] Mild
   Pain location: abd, diffuse
   Flowsheet Data as of  [**2146-2-21**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 130 (114 - 138) bpm
   BP: 119/67(80) {119/65(77) - 151/128(134)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 143 kg
   CVP: 2 (2 - 352)mmHg
   Total In:
                                                                 10,590 mL
                                                                  3,050 mL
   PO:
   TF:
                                                                    777 mL
   IVF:
                                                                  9,693 mL
                                                                  3,050 mL
   Blood products:
   Total out:
                                                                 16,590 mL
                                                                  4,833 mL
   Urine:
                                                                    715 mL
                                                                    257 mL
   NG:
                                                                  2,100 mL
                                                                    625 mL
   Stool:
   Drains:
                                                                    450 mL
                                                                    125 mL
   Balance:
                                                                 -6,000 mL
                                                                 -1,783 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 596 (575 - 673) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 29
   PIP: 6 cmH2O
   SpO2: 96%
   ABG: 7.40/52/98.[**Numeric Identifier 20**]/29/5
   Ve: 8.9 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.3 g/dL
   341 K/uL
   100 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.0 mEq/L
   28 mg/dL
   101 mEq/L
   143 mEq/L
   24.4 %
   28.4 K/uL
        [image002.jpg]
                             [**2146-2-20**]  04:20 AM
                             [**2146-2-20**]  04:29 AM
                             [**2146-2-20**]  12:01 PM
                             [**2146-2-20**]  12:20 PM
                             [**2146-2-20**]  01:15 PM
                             [**2146-2-20**]  05:35 PM
                             [**2146-2-20**]  09:44 PM
                             [**2146-2-20**]  09:49 PM
                             [**2146-2-21**]  03:52 AM
                             [**2146-2-21**]  10:29 AM
   WBC
   29.1
   21.0
   28.4
   Hct
   24.1
   24.5
   24.4
   Plt
   [**Telephone/Fax (3) 11139**]
   Cr
   0.9
   0.9
   0.8
   0.9
   TCO2
   28
   26
   28
   29
   33
   Glucose
   139
   121
   117
   114
   100
   Other labs: PT / PTT / INR:26.1/66.0/2.5, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:56/49, Alk Phos / T Bili:83/1.6,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:445 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:282 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   28 yom gallstone pancreatitis, now complicated by necrosis and
   pseudocyst, hypoxic respiratory failure.
   RESPIRATORY FAILURE -- Persistent, multifactorial likely predominately
   attributed to acute pancreatitis.  Chest wall contributing to
   restrictive mechanics.  Tolerating SBT, and hope for extubation trial.
   Main obstacle to extubation has been intraabdomininal inflammation,
   pain and level of sedation.  Reduce sedatives.  [**Month (only) 8**] require trach if
   not able to extubate.
   ACUTE PANCREATITIS -- severe, necrotic, complicated with pseudocyst.
   Maintain percutaneous drain.  Maintain OGT to suction.  General Surgery
   following.
   FEVER
 attributed to intraabdominal inflammation.  Need to monitor
   closely for new infection:  line-related, hepatobiliary, infected
   pancreatic pseudocyst.
   BACTEREMIA -- coagulase negative, likely line related.  Central line
   d/c'd --> new lines in place.   Completed course of Vanco.
   PAIN MANAGEMENT -- continue to optimize.  Fentanyl now off.
   RENAL FAILURE -- attributed to iv contrast dye nephropathy.  Monitor
   off CVVH.
   FLUIDS -- net volume resussitation fluid positive.  Plan to continue to
   net diurese, approaching dry weight.
   HYPOTKALEMIA
 replete to K> 4.0
   NUTRITIONAL SUPPORT -- continue TPN.  Continue TF with post-pyloric
   (jejunal) tube --> advance as tolerated.
   HIT+ -- continue argatroban.
   DVT -- line-related.  Continue anticoagulation.
   PLEURAL EFFUSION, ACUTE -- left side; attributed to acute pancreatitis.
   h/o CHOLECYSTITIS, CALCULOUS -- Resolved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-02-22 07:49:00 Physician Resident Progress Note
Chief Complaint: necrotizing pancreatitis, hypoxic resp failure
   24 Hour Events:
 URINE CULTURE - At [**2146-2-21**] 11:50 AM
   from foley
 BLOOD CULTURED - At [**2146-2-21**] 12:00 PM
   from left ij quad lumen central line
 BLOOD CULTURED - At [**2146-2-21**] 12:13 PM
   peripheral
 SPUTUM CULTURE - At [**2146-2-21**] 12:13 PM
 FEVER - 102.7
F - [**2146-2-21**] 03:00 PM
   - alert and agitated in morning, a bit too sedated for extubation
   - IR replaced post-pyloric NG tube, restarted TFs
   - CVVH stopped in A.M., marginal UOP, monitoring lytes
   - plan for extubation in morning, hold TFs, discontinued ketamine,
   started propofol
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsMorphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Meropenem - [**2146-2-21**] 10:30 PM
   Infusions:
   Argatroban - 0.5 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-21**] 08:00 AM
   Midazolam (Versed) - [**2146-2-21**] 09:05 PM
   Methadone Hydrochloride - [**2146-2-22**] 04:00 AM
   Propofol - [**2146-2-22**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   sedated, but alert, comfortable
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley
   Flowsheet Data as of  [**2146-2-22**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.2
C (100.8
   HR: 142 (112 - 162) bpm
   BP: 137/72(86) {119/56(71) - 158/94(108)} mmHg
   RR: 21 (14 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 143 kg
    CVP: 4 (2 - 9)mmHg
   Total In:
                                                                  4,244 mL
                                                                    627 mL
   PO:
   TF:
                                                                    275 mL
   IVF:
                                                                  3,849 mL
                                                                    337 mL
   Blood products:
                                                                    229 mL
   Total out:
                                                                  5,649 mL
                                                                  1,020 mL
   Urine:
                                                                    778 mL
                                                                    500 mL
   NG:
                                                                    725 mL
                                                                    500 mL
   Stool:
   Drains:
                                                                    320 mL
                                                                     20 mL
   Balance:
                                                                 -1,405 mL
                                                                   -393 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 532 (464 - 639) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 35
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.40/52/98.[**Numeric Identifier 20**]/28/5
   Ve: 8.1 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   348 K/uL
   5.7 g/dL
   85 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.5 mEq/L
   47 mg/dL
   106 mEq/L
   144 mEq/L
   19.0 %
   23.0 K/uL
        [image002.jpg]
                             [**2146-2-20**]  12:20 PM
                             [**2146-2-20**]  01:15 PM
                             [**2146-2-20**]  05:35 PM
                             [**2146-2-20**]  09:44 PM
                             [**2146-2-20**]  09:49 PM
                             [**2146-2-21**]  03:52 AM
                             [**2146-2-21**]  10:29 AM
                             [**2146-2-21**]  03:49 PM
                             [**2146-2-22**]  03:54 AM
                             [**2146-2-22**]  05:07 AM
   WBC
   21.0
   28.4
   21.8
   23.0
   Hct
   24.5
   24.4
   18.5
   19.0
   Plt
   [**Telephone/Fax (3) 11159**]48
   Cr
   0.9
   0.8
   0.9
   1.3
   1.0
   TCO2
   26
   28
   29
   33
   Glucose
   117
   114
   100
   93
   85
   Other labs: PT / PTT / INR:27.2/75.8/2.7, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:95/125, Alk Phos / T Bili:84/2.8,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:445 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:282 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Microbiology: sputum [**2-19**] - GNRs, 1+
   all other culture data (-) to date
   Assessment and Plan
 DIARRHEA
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEPARIN-INDUCED THROMBOCYTOPENIA
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 PLEURAL EFFUSION, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O CHOLECYSTITIS, CALCULOUS
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
   .
   >  FEVER/TACHYCARDIA-  Continues to spike fevers, there is some concern
   for abscess, however fevers more likely to represent non-infectious,
   inflammatory response. RUQ U/S negative for abscess.Tachycardia likely
   [**3-1**] fever, pain.  Withdrawal from benzo could also be contributing, and
   rate improved with increased versed. Will cont to follow pharm
   recommended weaning plan for versed and fentanyl. Will continue to
   trend WBC and rule out infection, CIS.
   - attempt to taper benzos very gradually
   - cont to treat fever
   - f/u pan-culture data
   - post-pyloric NG tube blocked with methadone, not able to deliver any
   meds enterally, will call IR to replace post-pyloric NG tube
   - cont to treat agitation with PRN boluses of midaz, limit as able
   given possible extubation today
   .
 PANCREATITIS, [**Name (NI) 11141**]  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal.  CT showed stable fluid
   collections. Ab distention improved with OGT to suction. Now tolerated
   TFs at goal. Moving bowels after lactulose.
   - will hold on pancreatic enzymes while delivering TFs
   - cont to pan-cx for fevers
   - peritoneal drain fluid with no cells or organisms, likely necrotic
   debris since no cells present
   - Continue meropenem empirically, [**12-11**] empiric course, will review
   literature for further guidance
   - TID Electrolytes
   - continue switching pain meds over to methadone, seroquel, ketamine ->
   will cont methadone IV given blocked NG tube
   -  will d/w pharm re: abrupt cessation of ketamine and possible
   withdrawal; ideally would treat pain PRN pain meds following
   extubation, consider dilaudid PCA
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN. Started
   on CVVH with improvement in lytes and Cr. Currently tolerating fluid
   removal well, now negative LOS but not at baseline weight.  Recnet
   trial off CVVH due to clotting off, and electrolytes increased.   CVVH
   filter clotted this a.m., now off CVVH.
   - renally dose meds, avoid nephrotoxins
   - goal even today
   .
 HYPOXEMIC RESPIRATORY FAILURE, ACUTE RESPIRATORY DISTRESS SYNDROME
   (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])  Pt initially intubated for hypoxia,
   tachypnea to 50s, with concern for imminent fatigue. Given (-) culture
   data to date, likely etiology of initial resp failure is distributive
   shock in setting of necrotizing pancreatitis.  Restrictive physiology
   likely contributed, in setting of very low lung volumes and abdominal
   distention.  Doing well on PSV.
   - continue to wean PSV as tolerated, attempt to extubate today
   following replacement of post-pyloric NG tube
   - consult IP vs [**Doctor First Name 91**] for trach if patient fails extubation, will make
   this decision mid-week, but trach is likely the way to go for safe
   extubation and wife seems to agree at this point, as sedation continues
   to be limiting factor
   .
   > ANEMIA: Transfued 1 unit PRBC yesterday, and HCT stabilized since.
   - cont [**Hospital1 **] Hct checks and transfuse >21
   .
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS-  On argatroban.
   Known significant clot burden in common femoral and IVC.  No indication
   for IVC filter since pt has alternate explanation for fevers and
   tachycardia (bacteremia). PTT at goal
   -  will cont argatroban and monitor PTT, goal 60-80
   .
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- appears significantly improved on CXR
   - CVVH to address fluid overload
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.  Cont to trend LFTs.
   .
   #. Nutrition:
   - d/c
d TPN, restart TFs once NG tube replaced
   .
   # ACCESS:  L IJ, R HD line, PIVs ->d/c
d left axillary a-line yesterday
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-22 08:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerating IPS mode at minimal support.
   No increase in respiratory secretions.
   Completed dialysis yesterday AM, continues with good urine output.
   Diarrhea today, copious.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Morphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Meropenem - [**2146-2-21**] 10:30 PM
   Infusions:
   Argatroban - 0.5 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2146-2-21**] 09:05 PM
   Methadone Hydrochloride - [**2146-2-22**] 04:00 AM
   Propofol - [**2146-2-22**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-2-22**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.6
C (101.5
   HR: 147 (112 - 162) bpm
   BP: 159/76(95) {119/56(71) - 159/94(108)} mmHg
   RR: 30 (14 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 143 kg
   CVP: 4 (2 - 9)mmHg
   Total In:
                                                                  4,244 mL
                                                                    796 mL
   PO:
   TF:
                                                                    275 mL
   IVF:
                                                                  3,849 mL
                                                                    386 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  5,649 mL
                                                                  1,080 mL
   Urine:
                                                                    778 mL
                                                                    560 mL
   NG:
                                                                    725 mL
                                                                    500 mL
   Stool:
   Drains:
                                                                    320 mL
                                                                     20 mL
   Balance:
                                                                 -1,405 mL
                                                                   -284 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 664 (464 - 664) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 35
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.40/52/98.[**Numeric Identifier 20**]/28/5
   Ve: 9.6 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , Bronchial: Right, No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   5.7 g/dL
   348 K/uL
   85 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.5 mEq/L
   47 mg/dL
   106 mEq/L
   144 mEq/L
   19.0 %
   23.0 K/uL
        [image002.jpg]
                             [**2146-2-20**]  12:20 PM
                             [**2146-2-20**]  01:15 PM
                             [**2146-2-20**]  05:35 PM
                             [**2146-2-20**]  09:44 PM
                             [**2146-2-20**]  09:49 PM
                             [**2146-2-21**]  03:52 AM
                             [**2146-2-21**]  10:29 AM
                             [**2146-2-21**]  03:49 PM
                             [**2146-2-22**]  03:54 AM
                             [**2146-2-22**]  05:07 AM
   WBC
   21.0
   28.4
   21.8
   23.0
   Hct
   24.5
   24.4
   18.5
   19.0
   Plt
   [**Telephone/Fax (3) 11159**]48
   Cr
   0.9
   0.8
   0.9
   1.3
   1.0
   TCO2
   26
   28
   29
   33
   Glucose
   117
   114
   100
   93
   85
   Other labs: PT / PTT / INR:27.2/75.8/2.7, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:95/125, Alk Phos / T Bili:84/2.8,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:445 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:282 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   28 yom gallstone pancreatitis, now complicated by necrosis and
   pseudocyst, hypoxic respiratory failure.
   RESPIRATORY FAILURE -- Persistent, multifactorial likely predominately
   attributed to acute pancreatitis.  Chest wall contributing to
   restrictive mechanics, but improved.  Tolerating reduced PEEP.
   Tolerating SBT, and hope for extubation trial.  Main obstacle to
   extubation has been intraabdomininal inflammation, pain and level of
   sedation.  Tolerated reduction of sedatives.  Plan to proceed with
   extubation trial today, may require trach if not able to extubate
   successfully.
   ACUTE PANCREATITIS -- severe, necrotic, complicated with pseudocysts.
   Maintain percutaneous drain of one pseudocyst.  Maintain OGT to
   suction.  General Surgery following.
   FEVER
 attributed to intraabdominal inflammation.  Need to monitor
   closely for new infection:  line-related, hepatobiliary, infected
   pancreatic pseudocyst.
   BACTEREMIA -- coagulase negative, likely line related.  Central line
   d/c'd --> new lines in place.   Completed course of Vanco.
   DIARRHEA -- concern for C. diff --> check stool for C. diff toxin.
   ANEMIA -- persistent, likely in part to phlebotomy.  With most recent
   decline, will plan reimaging to assess for intraabdominal bleed (esp
   while receiving anticoagulation).
   PAIN MANAGEMENT -- continue to optimize.  Fentanyl now off.
   RENAL FAILURE -- attributed to iv contrast dye nephropathy.  Monitor
   off CVVH.
   FLUIDS -- net volume resussitation fluid positive.  Plan to continue to
   net diurese, approaching dry weight.
   HYPOTKALEMIA
 replete to K> 4.0
   NUTRITIONAL SUPPORT -- continue TPN.  TF with post-pyloric (jejunal)
   tube --> tolerated.  TF on hold pending extubation trial.
   HIT+ -- continue argatroban.
   DVT -- line-related.  Continue anticoagulation.
   PLEURAL EFFUSION, ACUTE -- left side; attributed to acute
   pancreatitis.  Resolving.
   h/o CHOLECYSTITIS, CALCULOUS -- Resolved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, Argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2146-02-23 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - continues to have lots of stool
   - Extubated! Sating well on room air
   - HCT with appropriate bump to 1 unit, dropped from 22-21,
   re-transfused.
   - GPC's on BCX, started on vanc, placed 2 18G peripherals lines pulled.
   Allergies:
   Morphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Meropenem - [**2146-2-22**] 10:00 PM
   Vancomycin - [**2146-2-23**] 04:10 AM
   Infusions:
   Other ICU medications:
   Methadone Hydrochloride - [**2146-2-22**] 12:00 PM
   Lorazepam (Ativan) - [**2146-2-22**] 11:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-23**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.9
C (102
   Tcurrent: 38.9
C (102
   HR: 128 (123 - 147) bpm
   BP: 133/43(57) {129/43(57) - 159/80(95)} mmHg
   RR: 25 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 143 kg
    CVP: 3 (2 - 7)mmHg
   Total In:
                                                                  1,457 mL
                                                                    348 mL
   PO:
   TF:
                                                                      4 mL
   IVF:
                                                                    697 mL
                                                                    294 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,180 mL
                                                                    580 mL
   Urine:
                                                                  1,460 mL
                                                                    440 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
                                                                    120 mL
                                                                    140 mL
   Balance:
                                                                   -723 mL
                                                                   -232 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 664 (664 - 664) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 9.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   347 K/uL
   6.9 g/dL
   112 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.7 mEq/L
   46 mg/dL
   114 mEq/L
   149 mEq/L
   22.1 %
   26.4 K/uL
        [image002.jpg]
                             [**2146-2-20**]  09:49 PM
                             [**2146-2-21**]  03:52 AM
                             [**2146-2-21**]  10:29 AM
                             [**2146-2-21**]  03:49 PM
                             [**2146-2-22**]  03:54 AM
                             [**2146-2-22**]  05:07 AM
                             [**2146-2-22**]  11:05 AM
                             [**2146-2-22**]  05:26 PM
                             [**2146-2-22**]  11:48 PM
                             [**2146-2-23**]  03:27 AM
   WBC
   28.4
   21.8
   23.0
   30.8
   26.4
   Hct
   24.4
   18.5
   19.0
   22.3
   21.4
   22.7
   22.1
   Plt
   [**Telephone/Fax (3) 11163**]68
   347
   Cr
   0.9
   1.3
   1.0
   1.0
   TCO2
   29
   33
   Glucose
   100
   93
   85
   112
   Other labs: PT / PTT / INR:27.0/64.6/2.6, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:97/124, Alk Phos / T Bili:80/1.8,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:366 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:330 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 DIARRHEA
 PANCREATITIS, ACUTE
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 BACTEREMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DELIRIUM / CONFUSION
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEPARIN-INDUCED THROMBOCYTOPENIA
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 PLEURAL EFFUSION, ACUTE
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O CHOLECYSTITIS, CALCULOUS
   .
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
   Gram Positive Cocci  Bacteremia
 Patient with multiple long standing
   IV
s as a possible risk factor for GPC
s in his blood. Likely
   contributing to fever.
   - placed two peripheral 18G IV
   - Pulled central lines
   - started vancomycin, check through before 4^th dose
   .
   Gram Negative rods in sputum
 These started growing on the 22^nd, and
   occurred despite meropenem.  Gram negative rods that are known to be
   resitant to meropenem include AE Bacter, Legionella, and
   Stenotrophomonas.  Likely contributing to fever.
   - Would call down to lab later today and see if we can get better
   speciation as there is no single [**Doctor Last Name **] for all three.
   - f/u urine legionella ag
   - Woul hold off on empiric abx as would require broad coverage with
   varied side effects.
   .
   >  TACHYCARDIA-  Continues to spike fevers, there is some concern for
   abscess, however fevers more likely to represent non-infectious,
   inflammatory response. RUQ U/S negative for abscess.Tachycardia likely
   [**3-1**] fever, pain.  Withdrawal from benzo could also be contributing, and
   rate improved with increased versed. Will cont to follow pharm
   recommended weaning plan for versed and fentanyl. Will continue to
   trend WBC and rule out infection, CIS.
   - attempt to taper benzos very gradually, replace midaz with lorazepam
   post-extubation
   - cont to treat fever
   - f/u pan-culture data
   .
 PANCREATITIS, [**Name (NI) 11141**]  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal.  CT showed stable fluid
   collections. Ab distention improved with OGT to suction. Now tolerated
   TFs at goal. Moving bowels after lactulose.
   - will hold on pancreatic enzymes while delivering TFs
   - cont to pan-cx for fevers
   - peritoneal drain fluid with no cells or organisms, likely necrotic
   debris since no cells present
   - Continue meropenem empirically, [**1-10**] empiric course
   - TID Electrolytes
   - pain control with methadone IV, can add morphine or dilaudid if
   needed; benzo/atypical anti-psychotic as above
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN. Started
   on CVVH with improvement in lytes and Cr. Currently tolerating fluid
   removal well, now negative LOS but not at baseline weight.  Recnet
   trial off CVVH due to clotting off, and electrolytes increased.   CVVH
   filter clotted yesterday., now off CVVH.
   - renally dose meds, avoid nephrotoxins
   - monitor UOP, TID lytes
   .
   > ANEMIA: Hct drop to 18 this morning, confirmed on repeat.
   -  will check DIC, hemolysis labs
   - one unit PRBCs, post-Hct check
   - CT non-con A/P
   .
   >  Diarrhea- increased over past 24 hours.  Has received long course of
   Abx.  Guaiac (-).
   -  will check C. diff, stool studies
   .
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS-  On argatroban.
   Known significant clot burden in common femoral and IVC.  No indication
   for IVC filter since pt has alternate explanation for fevers and
   tachycardia (bacteremia). PTT at goal
   -  will cont argatroban and monitor PTT, goal 60-80
   .
 HYPOTENSION (NOT SHOCK)
Resolved, likely [**3-1**] significant
   inflammation and distributive physiology.
 PLEURAL EFFUSION, ACUTE- appears significantly improved on CXR
   - CVVH to address fluid overload
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.  Cont to trend LFTs.
   .
   #. Nutrition:
   - cont TFs
   .
   # ACCESS:  L IJ, R HD line, PIVs,  Renal will consider pulling right IJ
   dialysis catheter
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   Prophylaxis:
   DVT:  argatroban
   Stress ulcer:    PPI
   VAP:   on meropenem
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 10062**] Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2146-2-23**] 06:14 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   18 Gauge - [**2146-2-23**] 06:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-02-23 11:40:00 Physician Attending Progress Note
Chief Complaint: Acute pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday, remains extubated.
   More awake.  Voice stronger.  Reasonable cough.
   Denies dyspnea, chest pain, abd pain.
   Exhibits disorientation, but able to re-orient.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Morphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Meropenem - [**2146-2-22**] 10:00 PM
   Vancomycin - [**2146-2-23**] 08:30 AM
   Infusions:
   Other ICU medications:
   Methadone Hydrochloride - [**2146-2-22**] 12:00 PM
   Lorazepam (Ativan) - [**2146-2-22**] 11:03 PM
   Pantoprazole (Protonix) - [**2146-2-23**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-2-23**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.9
C (102
   Tcurrent: 38.3
C (101
   HR: 129 (123 - 146) bpm
   BP: 143/76(90) {129/43(57) - 154/80(94)} mmHg
   RR: 26 (21 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 143 kg
   CVP: 5 (2 - 7)mmHg
   Total In:
                                                                  1,457 mL
                                                                  1,001 mL
   PO:
   TF:
                                                                     50 mL
   IVF:
                                                                    697 mL
                                                                    851 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,180 mL
                                                                    785 mL
   Urine:
                                                                  1,460 mL
                                                                    585 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
                                                                    120 mL
                                                                    200 mL
   Balance:
                                                                   -723 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   6.9 g/dL
   347 K/uL
   112 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.7 mEq/L
   46 mg/dL
   114 mEq/L
   149 mEq/L
   22.1 %
   26.4 K/uL
        [image002.jpg]
                             [**2146-2-20**]  09:49 PM
                             [**2146-2-21**]  03:52 AM
                             [**2146-2-21**]  10:29 AM
                             [**2146-2-21**]  03:49 PM
                             [**2146-2-22**]  03:54 AM
                             [**2146-2-22**]  05:07 AM
                             [**2146-2-22**]  11:05 AM
                             [**2146-2-22**]  05:26 PM
                             [**2146-2-22**]  11:48 PM
                             [**2146-2-23**]  03:27 AM
   WBC
   28.4
   21.8
   23.0
   30.8
   26.4
   Hct
   24.4
   18.5
   19.0
   22.3
   21.4
   22.7
   22.1
   Plt
   [**Telephone/Fax (3) 11163**]68
   347
   Cr
   0.9
   1.3
   1.0
   1.0
   TCO2
   29
   33
   Glucose
   100
   93
   85
   112
   Other labs: PT / PTT / INR:27.0/64.6/2.6, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:97/124, Alk Phos / T Bili:80/1.8,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:366 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:330 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   28 yom gallstone pancreatitis, now complicated by necrosis and
   pseudocyst, hypoxic respiratory failure.
   ACUTE PANCREATITIS -- severe, necrotic, complicated with pseudocysts.
   Maintain percutaneous drain of one pseudocyst.  Maintain OGT to
   suction.  General Surgery following.
   DELERIUM -- drug related, and ICU.  Monitor for clearing of medications
   and for evidence for withdrawal.
   FEVER
 attributed to intraabdominal inflammation.  Need to monitor
   closely for new infection:  line-related, hepatobiliary, infected
   pancreatic pseudocyst.
   BACTEREMIA -- coagulase negative, likely line related.  Central line
   d/c'd --> new lines in place.   Completed course of Vanco.
   DIARRHEA -- concern for C. diff --> check stool for C. diff toxin.
   ANEMIA -- persistent, likely in part to phlebotomy.  With most recent
   decline, will plan reimaging to assess for intraabdominal bleed (esp
   while receiving anticoagulation).
   PAIN MANAGEMENT -- continue to optimize.  Fentanyl now off.
   RENAL FAILURE -- attributed to iv contrast dye nephropathy.  Stable off
   CVVH.  Plan remove dialysis catheter.
   FLUIDS -- euvolemic, perhaps somewhat hypovolemic.  Monitor I/O.
   HYPOKALEMIA
 replete to K> 4.0
   NUTRITIONAL SUPPORT -- continue TPN.  TF with post-pyloric (jejunal)
   tube --> tolerated.
   HIT+ -- continue argatroban.
   DVT -- line-related.  Continue anticoagulation.
   PLEURAL EFFUSION, ACUTE -- left side; attributed to acute
   pancreatitis.  Resolving.
   h/o CHOLECYSTITIS, CALCULOUS -- Resolved.
   ACTIVITY -- PT consult.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2146-2-23**] 06:14 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2146-2-10**] 10:16 PM
   Multi Lumen - [**2146-2-10**] 11:30 PM
   18 Gauge - [**2146-2-23**] 06:33 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, Argatroban)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2146-02-24 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - D/Ced HD and CVL
   - D/Ced meropenem
   - agitated and delirious overnight, concern for benzo withdrawal vs.
   ICU delirium (more likely), got Ativan 2 mg, dilaudid, methadone, no
   help, got haldol 5 mg x 2
   Allergies:
   Morphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-23**] 08:30 AM
   Meropenem - [**2146-2-23**] 10:00 AM
   Infusions:
   Argatroban - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-23**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-24**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.7
C (99.9
   HR: 121 (115 - 142) bpm
   BP: 165/77(94) {109/61(74) - 167/101(118)} mmHg
   RR: 24 (20 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 143 kg
    CVP: 5 (5 - 5)mmHg
   Total In:
                                                                  1,619 mL
                                                                    584 mL
   PO:
   TF:
                                                                    359 mL
                                                                    226 mL
   IVF:
                                                                  1,110 mL
                                                                    358 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                  1,190 mL
   Urine:
                                                                  1,330 mL
                                                                    540 mL
   NG:
                                                                    550 mL
   Stool:
   Drains:
                                                                    390 mL
                                                                    100 mL
   Balance:
                                                                   -101 mL
                                                                   -606 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   303 K/uL
   7.3 g/dL
   100 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.6 mEq/L
   35 mg/dL
   112 mEq/L
   148 mEq/L
   22.7 %
   20.8 K/uL
        [image002.jpg]
                             [**2146-2-21**]  10:29 AM
                             [**2146-2-21**]  03:49 PM
                             [**2146-2-22**]  03:54 AM
                             [**2146-2-22**]  05:07 AM
                             [**2146-2-22**]  11:05 AM
                             [**2146-2-22**]  05:26 PM
                             [**2146-2-22**]  11:48 PM
                             [**2146-2-23**]  03:27 AM
                             [**2146-2-23**]  03:01 PM
                             [**2146-2-24**]  04:39 AM
   WBC
   21.8
   23.0
   30.8
   26.4
   25.7
   20.8
   Hct
   18.5
   19.0
   22.3
   21.4
   22.7
   22.1
   23.2
   22.7
   Plt
   338
   348
   368
   [**Telephone/Fax (3) 11188**]
   Cr
   1.3
   1.0
   1.0
   0.9
   0.9
   TCO2
   33
   Glucose
   93
   85
   112
   112
   100
   Other labs: PT / PTT / INR:24.6/56.0/2.4, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:104/110, Alk Phos / T Bili:71/1.4,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:366 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:308 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
   -AMS:  Suspect delerium/drug effect with some small component of benzo
   withdrawl.  Would begin to taper methadone, taper ativan daily and
weather the storm
 from benzo withdrawl.  Would want to reset sleep
   wake cycle as severly off.
   - day/night orientation, constant redirection
   - PM standing Zyprexa for sleep
   - Zyprexa PRN for agitation.
   .
   Gram Positive Cocci  Bacteremia
 Patient with multiple long standing
   IV
s as a possible risk factor for GPC
s in his blood. Likely
   contributing to fever. (Coag-Negative Staph)
   - placed two peripheral 18G IV
   - Pulled central lines
   - started vancomycin, check through before 4^th dose
 5 day course
   .
   Gram Negative rods in sputum
 These started growing on the 22^nd, and
   occurred despite meropenem.  Gram negative rods that are known to be
   resitant to meropenem include AE Bacter, and Stenotrophomonas.  Likely
   contributing to fever.
   - Would call down to lab later today and see if we can get better
   speciation as there is no single [**Doctor Last Name **] for all three.
   - f/u urine legionella ag (-)
   - Woul hold off on empiric abx as would require broad coverage with
   varied side effects.
   .
   >  TACHYCARDIA-  Continues to spike fevers, there is some concern for
   abscess, fevers are likely multifactorial and represent both infectious
   and non-infectious, inflammatory responses. RUQ U/S negative for
   abscess.Tachycardia likely [**3-1**] fever, pain.  Withdrawal from benzo
   could also be contributing, and rate improved with increased versed.
   Will cont to follow pharm
s recommended weaning plan for versed and
   fentanyl.
   - attempt to taper benzos very gradually, with lorazepam, zyprexa prn
   post-extubation
   - cont to treat fever
   - f/u pan-culture data
   .
 PANCREATITIS, [**Name (NI) 11141**]  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal.  CT showed stable fluid
   collections. Ab distention improved with OGT to suction. Now tolerated
   TFs at goal. Moving bowels after lactulose.  CT scan showed only
   improvement yesterday.
   - will hold on pancreatic enzymes while delivering TFs
   - cont to pan-cx for fevers
   - peritoneal drain fluid with no cells or organisms, likely necrotic
   debris since no cells present
   - Would d/c meropenem at this point as new infectious sources have been
   isolated on meropenem.
   - TID Electrolytes
   - pain control with methadone liquid, dilaudid IV PRN;
   .
   > ANEMIA: Hct drop to 18 yesterday morning, up to 22.7 after two units,
   22.1 this AM.
   -  will check DIC, hemolysis labs negative so far
   -  q6h hematocrit today, HCT>21
   -  CT non-con A/P showed no source of bleeding.
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN. Started
   on CVVH with improvement in lytes and Cr. Currently tolerating fluid
   removal well, now negative LOS but not at baseline weight.  Recnet
   trial off CVVH due to clotting off, and electrolytes increased.   Off
   CVVH, continues to improve
   - renally dose meds, avoid nephrotoxins
   - monitor UOP, TID lytes
   .
   >  Diarrhea- increased over past 24 hours.  Has received long course of
   Abx.  Guaiac (-), C. Diff (-)
   - stool studies
   .
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS-  On argatroban.
   Known significant clot burden in common femoral and IVC.  No indication
   for IVC filter since pt has alternate explanation for fevers and
   tachycardia (bacteremia). PTT at goal
   -  will cont argatroban and monitor PTT, goal 60-80
   .
 PLEURAL EFFUSION, ACUTE- appears significantly improved on CXR
   - CVVH to address fluid overload
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.  Cont to trend LFTs.
   .
   #. Nutrition:
   - cont TFs
   .
   # ACCESS:  2 18G PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   2 18G PIV
   Prophylaxis:
   DVT:  argatroban
   Stress ulcer:    PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 4**]

2146-02-24 13:25:00 Physician Attending Progress Note
Chief Complaint: Delerium
   HPI:
   24 Hour Events:
   Extubated yesterday, remains extubated.
   Central lines d/c'd.
   Exhibits delerium, confusion, disorientation.  Reversed sleep-wake
   cycle.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Morphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Vancomycin - [**2146-2-23**] 08:30 AM
   Meropenem - [**2146-2-23**] 10:00 AM
   Infusions:
   Argatroban - 0.65 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-2-24**] 01:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37
C (98.6
   HR: 121 (116 - 142) bpm
   BP: 114/90(94) {112/61(75) - 167/106(118)} mmHg
   RR: 27 (20 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 143 kg
             Total In:
                                                                  1,619 mL
                                                                  1,187 mL
   PO:
             TF:
                                                                    359 mL
                                                                    494 mL
   IVF:
                                                                  1,110 mL
                                                                    453 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                  1,490 mL
   Urine:
                                                                  1,330 mL
                                                                    840 mL
   NG:
   550 mL
   Stool:
   Drains:
                                                                    390 mL
                                                                    100 mL
   Balance:
                                                                   -101 mL
                                                                   -302 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.3 g/dL
   303 K/uL
   100 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.6 mEq/L
   35 mg/dL
   112 mEq/L
   148 mEq/L
   22.7 %
   20.8 K/uL
        [image002.jpg]
                             [**2146-2-21**]  10:29 AM
                             [**2146-2-21**]  03:49 PM
                             [**2146-2-22**]  03:54 AM
                             [**2146-2-22**]  05:07 AM
                             [**2146-2-22**]  11:05 AM
                             [**2146-2-22**]  05:26 PM
                             [**2146-2-22**]  11:48 PM
                             [**2146-2-23**]  03:27 AM
                             [**2146-2-23**]  03:01 PM
                             [**2146-2-24**]  04:39 AM
   WBC
   21.8
   23.0
   30.8
   26.4
   25.7
   20.8
   Hct
   18.5
   19.0
   22.3
   21.4
   22.7
   22.1
   23.2
   22.7
   Plt
   338
   348
   368
   [**Telephone/Fax (3) 11188**]
   Cr
   1.3
   1.0
   1.0
   0.9
   0.9
   TCO2
   33
   Glucose
   93
   85
   112
   112
   100
   Other labs: PT / PTT / INR:24.6/56.0/2.4, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:104/110, Alk Phos / T Bili:71/1.4,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:366 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:308 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   28 yom gallstone pancreatitis, now complicated by necrosis and
   pseudocyst, hypoxic respiratory failure.
   ACUTE PANCREATITIS -- severe, necrotic, complicated with pseudocysts.
   Maintain percutaneous drain of one pseudocyst.  Maintain OGT to
   suction.  General Surgery following.
   DELERIUM -- drug related, and ICU.  Monitor for clearing of medications
   and for evidence for withdrawal.
   FEVER
 attributed to intraabdominal inflammation.  Need to monitor
   closely for new infection:  line-related, hepatobiliary, infected
   pancreatic pseudocyst.
   BACTEREMIA -- coagulase negative, likely line related.  Central line
   d/c'd --> new lines in place.   Completed course of Vanco.
   DIARRHEA -- concern for C. diff --> check stool for C. diff toxin.
   ANEMIA -- persistent, likely in part to phlebotomy.  With most recent
   decline, will plan reimaging to assess for intraabdominal bleed (esp
   while receiving anticoagulation).
   PAIN MANAGEMENT -- continue to optimize.  Fentanyl now off.
   RENAL FAILURE -- attributed to iv contrast dye nephropathy.  Stable off
   CVVH.  Plan remove dialysis catheter.
   FLUIDS -- euvolemic, perhaps somewhat hypovolemic.  Monitor I/O.
   HYPOKALEMIA
 replete to K> 4.0
   NUTRITIONAL SUPPORT -- continue TPN.  TF with post-pyloric (jejunal)
   tube --> tolerated.
   HIT+ -- continue argatroban.
   DVT -- line-related.  Continue anticoagulation.
   PLEURAL EFFUSION, ACUTE -- left side; attributed to acute
   pancreatitis.  Resolving.
   h/o CHOLECYSTITIS, CALCULOUS -- Resolved.
   ACTIVITY -- PT consult.  Up in chair.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2146-2-24**] 06:47 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-2-23**] 06:09 AM
   20 Gauge - [**2146-2-24**] 08:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, Argatroban)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2146-02-25 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pared psychotropic meds -> started propranolol, decreased ativan,
   tapered methadone, converted zydis to QHS
   - UOP picking up
   - increasing agitation overnight, redirected many times, given haldol 5
   mg x 1
   - increased free water and added D5W, 2 liters, for hypernatremia
   - added banana flakes
   Allergies:
   Morphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Meropenem - [**2146-2-23**] 10:00 AM
   Vancomycin - [**2146-2-24**] 10:05 PM
   Infusions:
   Argatroban - 1.15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-2-24**] 08:00 AM
   Lorazepam (Ativan) - [**2146-2-24**] 09:15 PM
   Hydromorphone (Dilaudid) - [**2146-2-24**] 11:33 PM
   Haloperidol (Haldol) - [**2146-2-25**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-25**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (98.9
   HR: 112 (106 - 135) bpm
   BP: 143/84(99) {114/63(80) - 166/139(144)} mmHg
   RR: 24 (18 - 36) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 143 kg
             Total In:
                                                                  2,924 mL
                                                                  1,060 mL
   PO:
             TF:
                                                                  1,087 mL
                                                                    425 mL
   IVF:
                                                                    828 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  2,140 mL
                                                                  1,265 mL
   Urine:
                                                                  1,490 mL
                                                                    365 mL
   NG:
                                                                    550 mL
                                                                    600 mL
   Stool:
   Drains:
                                                                    100 mL
                                                                    300 mL
   Balance:
                                                                    784 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Distended, softer, but still firm, Bowel sounds present,
   Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, easily re-oriented on
   pre-rounds, on rounds A+Ox3!
   Labs / Radiology
   332 K/uL
   7.3 g/dL
   105 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.0 mEq/L
   26 mg/dL
   111 mEq/L
   144 mEq/L
   23.3 %
   18.0 K/uL
        [image002.jpg]
                             [**2146-2-22**]  03:54 AM
                             [**2146-2-22**]  05:07 AM
                             [**2146-2-22**]  11:05 AM
                             [**2146-2-22**]  05:26 PM
                             [**2146-2-22**]  11:48 PM
                             [**2146-2-23**]  03:27 AM
                             [**2146-2-23**]  03:01 PM
                             [**2146-2-24**]  04:39 AM
                             [**2146-2-24**]  05:50 PM
                             [**2146-2-25**]  04:52 AM
   WBC
   21.8
   23.0
   30.8
   26.4
   25.7
   20.8
   18.0
   Hct
   18.5
   19.0
   22.3
   21.4
   22.7
   22.1
   23.2
   22.7
   23.3
   Plt
   338
   348
   368
   [**Telephone/Fax (3) 11188**]
   332
   Cr
   1.0
   1.0
   0.9
   0.9
   0.9
   0.8
   Glucose
   85
   112
   112
   100
   100
   105
   Other labs: PT / PTT / INR:23.1/48.2/2.2, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:113/124, Alk Phos / T Bili:81/1.3,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:366 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:303 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   28yo M w/ gallstone pancreatitis c/b necrosis and pseudocyst presented
   with acute hypoxic respiratory failure.
   -AMS:  Suspect delerium/drug effect with some small component of benzo
   withdrawl.  Would begin to taper methadone, taper ativan daily and
weather the storm
 from benzo withdrawl.  Would want to reset sleep
   wake cycle as severly off.  Got Haldol PRN with good effect.
   - day/night orientation, constant redirection
   - PM standing Zyprexa for sleep
   - Haldol PRN for agitation.
   - Continue tapering ativan
   .
   Gram Positive Cocci  Bacteremia
 Patient with multiple long standing
   IV
s as a possible risk factor for GPC
s in his blood. Likely
   contributing to fever. (Coag-Negative Staph)
   - placed two peripheral 18G IV
   - Pulled central lines
   - started vancomycin, d [**4-1**]
   .
   Gram Negative rods in sputum
 These started growing on the 22^nd, and
   occurred despite meropenem.  Gram negative rods that are known to be
   resitant to meropenem include AE Bacter, and Stenotrophomonas.  Likely
   contributing to fever.
   - Would call down to lab later today and see if we can get better
   speciation as there is no single [**Doctor Last Name **] for all three.
   - f/u urine legionella ag (-)
   - Woul hold off on empiric abx as would require broad coverage with
   varied side effects.
   .
   >  TACHYCARDIA-  Continues to spike fevers, there is some concern for
   abscess, fevers are likely multifactorial and represent both infectious
   and non-infectious, inflammatory responses. RUQ U/S negative for
   abscess.Tachycardia likely [**3-1**] fever, pain.
   - PM Zyprexa, Haldol PRN
   - Continue to taper benzo
s, methadone,
   - cont to treat fever
   - f/u pan-culture data
   .
 PANCREATITIS, [**Name (NI) 11141**]  Pt might have initially decompensated [**3-1**]
   hemorrhage into pseudocyst vs. distributive shock picture with systemic
   inflammation. LFTS stable and normal.  CT showed stable fluid
   collections. Ab distention improved with OGT to suction. Now tolerated
   TFs at goal. Moving bowels after lactulose.  CT scan showed only
   improvement yesterday.
   - will hold on pancreatic enzymes while delivering TFs
   - cont to pan-cx for fevers
   - peritoneal drain fluid with no cells or organisms, likely necrotic
   debris since no cells present
   - Would d/c meropenem at this point as new infectious sources have been
   isolated on meropenem.
   - TID Electrolytes
   - pain control with methadone liquid, dilaudid IV PRN;
   .
   > ANEMIA: Hct drop to 18 yesterday morning, up to 22.7 after two units,
   22.1 this AM.
   -  will check DIC, hemolysis labs negative so far
   -  q6h hematocrit today, HCT>21
   -  CT non-con A/P showed no source of bleeding.
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- likely CIN. Started
   on CVVH with improvement in lytes and Cr. Currently tolerating fluid
   removal well, now negative LOS but not at baseline weight.  Recnet
   trial off CVVH due to clotting off, and electrolytes increased.   Off
   CVVH, continues to improve
   - renally dose meds, avoid nephrotoxins
   - monitor UOP, TID lytes
   .
   >  Diarrhea- increased over past 24 hours.  Has received long course of
   Abx.  Guaiac (-), C. Diff (-)
   - stool studies
   .
 HEPARIN-INDUCED THROMBOCYTOPENIA WITH THROMBOSIS-  On argatroban.
   Known significant clot burden in common femoral and IVC.  No indication
   for IVC filter since pt has alternate explanation for fevers and
   tachycardia (bacteremia). PTT at goal
   -  will cont argatroban and monitor PTT, goal 60-80
   .
 PLEURAL EFFUSION, ACUTE- appears significantly improved on CXR
   - CVVH to address fluid overload
   .
 .H/O CHOLECYSTITIS, CALCULOUS- Resolved.  Cont to trend LFTs.
   .
   #. Nutrition:
   - cont TFs
   .
   # ACCESS:  2 18G PIVs
   .
   # CODE STATUS:  Confirmed FULL
   .
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   .
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   2 18G PIV
   Prophylaxis:
   DVT:  argatroban
   Stress ulcer:    PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  [**Hospital Unit Name 4**]

2146-02-25 13:10:00 Physician Attending Progress Note
Chief Complaint: Acute pancreatitis, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Much improved.  Delerium improved, now oriented x 3.
   Tachycardia improved.
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Allergies:
   Morphine
   hot
   sweating
   Heparin Agents
   HIT;
   Last dose of Antibiotics:
   Meropenem - [**2146-2-23**] 10:00 AM
   Vancomycin - [**2146-2-25**] 08:01 AM
   Infusions:
   Argatroban - 1.15 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2146-2-24**] 09:15 PM
   Hydromorphone (Dilaudid) - [**2146-2-24**] 11:33 PM
   Haloperidol (Haldol) - [**2146-2-25**] 01:00 AM
   Pantoprazole (Protonix) - [**2146-2-25**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-2-25**] 01:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 114 (100 - 135) bpm
   BP: 142/86(100) {94/62(78) - 166/139(144)} mmHg
   RR: 26 (18 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 143 kg
             Total In:
                                                                  2,924 mL
                                                                  2,528 mL
   PO:
             TF:
                                                                  1,087 mL
                                                                    732 mL
   IVF:
                                                                    828 mL
                                                                    756 mL
   Blood products:
   Total out:
                                                                  2,140 mL
                                                                  1,595 mL
   Urine:
                                                                  1,490 mL
                                                                    695 mL
   NG:
                                                                    550 mL
                                                                    600 mL
   Stool:
   Drains:
                                                                    100 mL
                                                                    300 mL
   Balance:
                                                                    784 mL
                                                                    933 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.3 g/dL
   332 K/uL
   105 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.0 mEq/L
   26 mg/dL
   111 mEq/L
   144 mEq/L
   23.3 %
   18.0 K/uL
        [image002.jpg]
                             [**2146-2-22**]  03:54 AM
                             [**2146-2-22**]  05:07 AM
                             [**2146-2-22**]  11:05 AM
                             [**2146-2-22**]  05:26 PM
                             [**2146-2-22**]  11:48 PM
                             [**2146-2-23**]  03:27 AM
                             [**2146-2-23**]  03:01 PM
                             [**2146-2-24**]  04:39 AM
                             [**2146-2-24**]  05:50 PM
                             [**2146-2-25**]  04:52 AM
   WBC
   21.8
   23.0
   30.8
   26.4
   25.7
   20.8
   18.0
   Hct
   18.5
   19.0
   22.3
   21.4
   22.7
   22.1
   23.2
   22.7
   23.3
   Plt
   338
   348
   368
   [**Telephone/Fax (3) 11188**]
   332
   Cr
   1.0
   1.0
   0.9
   0.9
   0.9
   0.8
   Glucose
   85
   112
   112
   100
   100
   105
   Other labs: PT / PTT / INR:23.1/48.2/2.2, CK / CKMB /
   Troponin-T:29/1/<0.01, ALT / AST:113/124, Alk Phos / T Bili:81/1.3,
   Amylase / Lipase:225/93, Differential-Neuts:92.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:366 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:303 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   28 yom gallstone pancreatitis, now complicated by necrosis and
   pseudocyst, hypoxic respiratory failure.
   ACUTE PANCREATITIS -- severe, necrotic, complicated with pseudocysts.
   Maintain percutaneous drain of one pseudocyst.  Maintain OGT to
   suction.  General Surgery following.
   DELERIUM -- drug related, and ICU.  Monitor for clearing of medications
   and for evidence for withdrawal.
   FEVER
 attributed to intraabdominal inflammation.  Need to monitor
   closely for new infection:  line-related, hepatobiliary, infected
   pancreatic pseudocyst.
   BACTEREMIA -- coagulase negative, likely line related.  Central line
   d/c'd --> new lines in place.   Completed course of Vanco.
   DIARRHEA -- concern for C. diff --> check stool for C. diff toxin.
   ANEMIA -- persistent, likely in part to phlebotomy.  With most recent
   decline, will plan reimaging to assess for intraabdominal bleed (esp
   while receiving anticoagulation).
   PAIN MANAGEMENT -- continue to optimize.  Fentanyl now off.
   RENAL FAILURE -- attributed to iv contrast dye nephropathy.  Stable off
   CVVH.  Plan remove dialysis catheter.
   FLUIDS -- euvolemic, perhaps somewhat hypovolemic.  Monitor I/O.
   HYPOKALEMIA
 replete to K> 4.0
   NUTRITIONAL SUPPORT -- continue TPN.  TF with post-pyloric (jejunal)
   tube --> tolerated.
   HIT+ -- continue argatroban.
   DVT -- line-related.  Continue anticoagulation.
   PLEURAL EFFUSION, ACUTE -- left side; attributed to acute
   pancreatitis.  Resolving.
   h/o CHOLECYSTITIS, CALCULOUS -- Resolved.
   ACTIVITY -- PT consult.  Up in chair.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2146-2-25**] 02:07 AM 55 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-2-23**] 06:09 AM
   20 Gauge - [**2146-2-24**] 08:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, Argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes